2106-04-24 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2106-4-24**] 05:00 AM
 BLOOD CULTURED - At [**2106-4-24**] 05:21 AM
 SPUTUM CULTURE - At [**2106-4-24**] 05:21 AM
 STOOL CULTURE - At [**2106-4-24**] 05:22 AM
 FEVER - 102.3
F - [**2106-4-24**] 05:00 AM
   intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2106-4-24**] 02:00 AM
   Ceftriaxone - [**2106-4-24**] 02:00 AM
   Vancomycin - [**2106-4-24**] 05:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2106-4-24**] 04:02 AM
   Midazolam (Versed) - [**2106-4-24**] 04:03 AM
   Furosemide (Lasix) - [**2106-4-24**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-24**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 125 (108 - 133) bpm
   BP: 121/70(84) {120/62(80) - 134/74(91)} mmHg
   RR: 25 (12 - 42) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  4,009 mL
                                                                  1,692 mL
   PO:
             TF:
   IVF:
                                                                      9 mL
                                                                  1,692 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                  1,000 mL
   Urine:
                                                                    400 mL
                                                                    850 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                  3,609 mL
                                                                    692 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 93%
   ABG: 7.23/55/67/21/-5
   Ve: 13 L/min
   PaO2 / FiO2: 84
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all palpable
   Respiratory / Chest: (Breath Sounds: Crackles : rt side)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   272 K/uL
   14.0 g/dL
   128 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   40.8 %
   14.6 K/uL
        [image002.jpg]
                             [**2106-4-24**]  01:35 AM
                             [**2106-4-24**]  04:05 AM
                             [**2106-4-24**]  04:58 AM
                             [**2106-4-24**]  05:03 AM
                             [**2106-4-24**]  06:28 AM
   WBC
   14.6
   Hct
   40.8
   Plt
   272
   Cr
   0.7
   TCO2
   20
   25
   23
   24
   Glucose
   128
   Other labs: PT / PTT / INR:14.6/34.3/1.3, ALT / AST:34/90, Alk Phos / T
   Bili:41/0.3, Amylase / Lipase:18/26, Lactic Acid:1.6 mmol/L,
   Albumin:3.1 g/dL, LDH:322 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Fluid analysis / Other labs: CD4 904 in [**2-26**]
   viral load <50 copies
   Imaging: CXRs
Microbiology: sputum: 2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   ASSESSMENT:
   50 yo male with history of HIV/AIDS and PCP pneumonia was admitted from
   the ED with hypoxic respiratory distress now with ARDs picture
   PLAN:
   1. Hypoxic Respiratory Distress: Etiology of patient's hypoxic
   respiratory distress appears most likely infectious in etiology given
   elevated WBC, bandemia, and fever. Viral possibilities include
   influenza most likely, although additional possibilities include
   adenovirus, paraflu, and RSV. Bacterial pathogens include atypical
   infections such as mycoplasma pneumoniae or chlamydia, although typical
   infections include strep pneumo, legionella. PCP unlikely since CD4
   count is adequate.  Additional possibility includes infection resulting
   in COPD exacerbation given scattered wheezes throughout. Patient in
   respiratory distress last night dropping oxygen saturation on NRB and
   was urgently intubaetd
   - Vent goals: currently 600x20, 80% PEEP 10. Patients CXR and p02/fio2
   is >200, unlikely cardiac. will adjust to ARDSNEt goals, for fio O2 of
   80 PEEP increased to 14, and TV decreased to 500 for his ideal body
   weight
   - considering ill appearance will broaded coverage to zosyn, levo, vanc
   considering still febrile after receiving multiple antibiotics and
   precipitous decline in respiratory status.
   - gram stain of sputum gram positive cocci in pairs and clusters, gram
   positive rods
   - f/u DFA and Respiratory antigen panel
   - f/u sputum gram stain and culture
   - f/u urine legionella given GI symptoms and hyponatremia
   - standing nebulizer treatments
   - PFTs as an outpatient
   - CD4 count 900 6 weeks ago
   2. Fever/Sepsis
   Etiology appears most likely secondary to pneumonia, although
   additional possibilities include viral gastroenteritis given vague
   history of diarrhea and vomiting, urinary tract infection given
   occasional bacteria and WBCs on UA. Unfortunately antibiotics given
   prior to urine culture being sent.
   - continue zosyn, levaquin and vancomcyin presumptive treatment
   - follow-up cultures
   - UO >30cc/.hour,
   - will place central line
   - once central line in place CVP goal 13-15.
   4. Acid Base Status
   This AM, his gas and panel seem consistent with acute respiratory
   acidosis and metabolic acidosis.
   - continue to treat pneumonia with antibiotics
   - treat fever with abx, tylenol, cooling blanket
   - adjust vent settings according to ARDsNET
   5. HIV
   Hold HAART therapy in the setting of acute illness
   ICU Care
   Nutrition:  nutrition consult for tube feeds.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2106-4-24**] 12:00 AM
   Arterial Line - [**2106-4-24**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-04-24 09:17:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   Patient seen and examined with house staff.
   24 Hour Events:
 ARTERIAL LINE - START [**2106-4-24**] 05:00 AM
 BLOOD CULTURED - At [**2106-4-24**] 05:21 AM
 SPUTUM CULTURE - At [**2106-4-24**] 05:21 AM
 STOOL CULTURE - At [**2106-4-24**] 05:22 AM
 FEVER - 102.3
F - [**2106-4-24**] 05:00 AM
   - RUQ: neg
   - CXR: progressive b/l infiltrates
   - Required increasing PEEP support
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2106-4-24**] 02:00 AM
   Ceftriaxone - [**2106-4-24**] 02:00 AM
   Vancomycin - [**2106-4-24**] 05:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2106-4-24**] 04:02 AM
   Midazolam (Versed) - [**2106-4-24**] 04:03 AM
   Furosemide (Lasix) - [**2106-4-24**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-24**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 125 (108 - 133) bpm
   BP: 121/70(84) {120/62(80) - 134/74(91)} mmHg
   RR: 25 (12 - 42) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  4,009 mL
                                                                  1,726 mL
   PO:
             TF:
   IVF:
                                                                      9 mL
                                                                  1,726 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                  1,160 mL
   Urine:
                                                                    400 mL
                                                                  1,010 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                  3,609 mL
                                                                    566 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 93%
   ABG: 7.23/55/67/21/-5
   Ve: 13 L/min
   PaO2 / FiO2: 84
   Physical Examination
   Cardiovascular: (S1: Normal), Tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l bases and RUL)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Unresponsive, Movement: Not
   assessed, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   272 K/uL
   128 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   40.8 %
   14.6 K/uL
        [image002.jpg]
                             [**2106-4-24**]  01:35 AM
                             [**2106-4-24**]  04:05 AM
                             [**2106-4-24**]  04:58 AM
                             [**2106-4-24**]  05:03 AM
                             [**2106-4-24**]  06:28 AM
   WBC
   14.6
   Hct
   40.8
   Plt
   272
   Cr
   0.7
   TCO2
   20
   25
   23
   24
   Glucose
   128
   Other labs: PT / PTT / INR:14.6/34.3/1.3, ALT / AST:34/90, Alk Phos / T
   Bili:41/0.3, Amylase / Lipase:18/26, Lactic Acid:1.6 mmol/L,
   Albumin:3.1 g/dL, LDH:322 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Imaging: CXR: progression of b/l infiltrates with opacification of the
   RML and LUL and Lingula (evolution over 12 hrs)
   RUQ US: nml gall bladder
   Head CT: neg for AIP
   Microbiology: 25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   ASSESSMENT:
   50 yo male with history of HIV/AIDS and PCP pneumonia was admitted from
   the ED with hypoxic respiratory distress now with ARDs picture
   requiring significant vent support.
   PLAN:
   1. Hypoxic Respiratory Distress: Etiology of patient's hypoxic
   respiratory distress appears most likely infectious in etiology given
   elevated WBC, bandemia, and fever. Viral possibilities include
   influenza most likely, although additional possibilities include
   adenovirus, paraflu, and RSV. Bacterial pathogens include atypical
   infections such as mycoplasma pneumoniae or chlamydia, although typical
   infections include strep pneumo, legionella. PCP unlikely since CD4
   count is adequate.   Additional possibility includes infection
   resulting in COPD exacerbation given scattered wheezes throughout. Now
   intubated with ARDS strategy
   - Vent goals: Adjusting to ARDSNEt goals, for fio O2 of 80 PEEP should
   be 14. for peep of 14, Fio2 should be 70. Goal Vt is 480 (by height).
   Currently with resp acidosis (likely [**2-20**] fever with increased work of
   breathin will allow for some degree of permissive hypercapnia). Will
   follow ABG carefully. [**Month (only) 51**] use esophageal balloon to guide PEEP, likely
   will benefit from PEEP greater than ARDSnet suggests.
   - f/u DFA and Respiratory antigen panel. Empiric treatment with
   tamiflu.
   - f/u sputum gram stain and culture. F/u PCP as well (not empirically
   treating at present, CD4 900). Looks like gram stain + or GPC in pairs
   and clusters.
   - f/u urine legionella given GI symptoms and hyponatremia
   - currently on ceftriaxone, azithromycin, and vancomycin for community
   aquired typical and atypical coverage
   - will stop ceftriaxone and azithro and start Cefepime, Vanco and
   Levoflox for pseudomonas.
   - standing nebulizer treatment. Hold on steroids for PCP or COPD flare
   for now.
   - not stable enough to bronch at present.
   - Other sources: urine appears dirty (he'c covered adequately for now,
   new urine pending), also with diarrhea (could be PNA, will check c.
   dif)
   2. Fever
   Etiology appears most likely secondary to pneumonia, although
   additional possibilities include viral gastroenteritis given vague
   history of diarrhea and vomiting, urinary tract infection given
   occasional bacteria and WBCs on UA. Unfortunately antibiotics given
   prior to urine culture being sent.   We also need to consider the
   possibility of PCP [**Name Initial (PRE) **] (despite his report of preserved CD4 count).
   - coverage as above
   - follow up cultures
   - cooling blanket for now (goal temp < 101 oral)
   2a. Sepsis:  goal UOP greater .5 cc/kg/hr, CVP goal of 14-16, MAP > 60,
   follow lactate and mixed venous sat. Will obtain central access.
   3. Hyponatremia - resolved this AM
   Etiology is likely secondary to hypovolemia given evidence of
   dehydration - history of decreased PO intake, likely increased
   insensible losses with fever, tachycardia, decreased skin turgor, and
   dry mucous membranes. Given worsening hypoxia, hesitant to further
   aggressively resuscitate.
   - slowly rehydrate with an additional IVF bolus (LR as preferred to
   NS).
   4. Acid Base Status
   This AM, his gas and panel seem consistent with acute respiratory
   acidosis and metabolic acidosis.  Renal function is normal
   - continue to treat pneumonia with antibiotics
   - adjust vent settings according to ARDsNET. Fever likely contributing
   to his increase resp drive.
   - Non gap acidosis: hyperchloremic (HCO3 deficit).
   - renal function ok (myalgias and blood in urine, will check CK)
   5. HIV
   Hold HAART therapy in the setting of acute (Dr [**Last Name (STitle) 415**] [**Name (NI) 167**] by
   email)
   6.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2106-4-24**] 12:00 AM
   Arterial Line - [**2106-4-24**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: wiil update sister [**Name (NI) **] [**Name (NI) 413**] (health care
   proxy)
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-04-25 07:33:00 Physician Resident Progress Note
Chief Complaint: 50M h/o HIV, PCP pneumonia, now ARDS [**2-20**] legionella
   24 Hour Events:
   - Rec'd RIJ
   - Standing ibuprofen 800mg TID for fever
   - Vent: Esophageal balloon measured 0.8 on inspiration (transpulmonary
   pressure 13.2), and 2.8 on expiration (transpulmonary pressure 15.9).
   Vt therefore increased to 600.
   - UOP<20cc/hr --> Received 1L LR bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2106-4-24**] 02:00 AM
   Ceftriaxone - [**2106-4-24**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-24**] 10:15 AM
   Levofloxacin - [**2106-4-24**] 12:58 PM
   Vancomycin - [**2106-4-24**] 08:00 PM
   Cefipime - [**2106-4-25**] 12:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-4-24**] 09:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-25**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 37.4
C (99.3
   HR: 88 (88 - 122) bpm
   BP: 104/64(76) {87/55(65) - 163/85(106)} mmHg
   RR: 28 (17 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 13 (7 - 14)mmHg
   Total In:
                                                                  3,115 mL
                                                                  1,419 mL
   PO:
   TF:
   IVF:
                                                                  3,015 mL
                                                                  1,419 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    185 mL
   Urine:
                                                                  2,275 mL
                                                                    185 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    690 mL
                                                                  1,234 mL
   Respiratory support
   Ventilator mode: PRES/AC
   Vt (Set): 600 (500 - 600) mL
   RR (Set): 28
   PEEP: 16 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/36/60/20/-3
   Ve: 17.2 L/min
   PaO2 / FiO2: 75
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: Coarse breath sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   220 K/uL
   12.4 g/dL
   95 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   24 mg/dL
   109 mEq/L
   141 mEq/L
   37.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2106-4-24**]  04:58 AM
                             [**2106-4-24**]  05:03 AM
                             [**2106-4-24**]  06:28 AM
                             [**2106-4-24**]  10:21 AM
                             [**2106-4-24**]  04:50 PM
                             [**2106-4-24**]  07:21 PM
                             [**2106-4-25**]  12:00 AM
                             [**2106-4-25**]  02:22 AM
                             [**2106-4-25**]  05:21 AM
                             [**2106-4-25**]  05:49 AM
   WBC
   14.6
   11.0
   Hct
   40.8
   37.0
   Plt
   272
   220
   Cr
   0.7
   0.8
   1.1
   TropT
   <0.01
   TCO2
   23
   24
   26
   24
   24
   16
   22
   Glucose
   128
   97
   95
   Other labs: CK / CKMB / Troponin-T:1129/3/<0.01, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Myoglobin pending
   Imaging:
   [**4-25**] CXR pending official read
   Microbiology:
   4/4-5: Blood cx
   4/4-5: Urine cx
   [**4-24**]: Stool cx pending, CDiff negative
   [**4-24**]: PCP [**Name Initial (PRE) 420**]
   [**4-24**]: Rapid respiratory viral antigen test: Respiratory viral antigens
   not detected.
   [**4-24**]: Urine legionella POSITIVE
   [**4-24**]: Sputum cx pending; gram stain 2+ GPC in pairs, clusters, 2+ GPR,
   2+ GNR
   Assessment and Plan
   50M h/o HIV, PCP pneumonia, now ARDS [**2-20**] legionella
   Respiratory status: Legionella positive.  Underlying contribution from
   COPD; question of PCP given no outpatient ppx.
   - Vent mgt: A/c 600x28, PEEP 16, FiO2 80% per ARDSnet.  Esophageal
   balloon demonstrated likely reaching PEEP maximum, but readings
   inaccurate [**2-20**] dysynchronous breathing.  Repeat esophageal balloon.
   - Fluid status:  Low paO2 may be [**2-20**] decreased preload [**2-20**] dehydration
   (fevers) as well as increased PEEP.  Ensure pt fluid replete, with CVP
   closer to 18-20, UOP>30cc/hr.
   - Abx: Vancomycin, cefepime, levofloxacin.  D/c oseltamivir, vancomycin
   given negative viral w/u, as well as unlikely nosocomial infection.
   Continue cefepime, levofloxacin x14 day course.
   - Cx: Sputum, urine, blood cx pending; urine legionella positive.
   Pending PCP [**Name Initial (PRE) 421**].
   - Fever: Standing acetaminophen, ibuprofen, cooling blanket
   - Nebulizers
   Sepsis:  Source likely legionella.
   - Abx: See above discussion.
   - UOP>30cc/hr
   Elevated CK: Trending downward, concern for rhabdomyolsis.
   - Ensure adequate hydration.
   - Myoglobin pending; spin urine to assess sediment.
   Increasing Cr: Likely [**2-20**] dehydration.
   - Ensure adequate hydration.
   HIV: Hold HAART given acute illness
   ICU Care
   Nutrition:
   Comments: NPO; tubefeeding pending
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2106-4-24**] 12:00 AM
   Arterial Line - [**2106-4-24**] 05:00 AM
   20 Gauge - [**2106-4-24**] 08:45 AM
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Famotidine
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2106-04-25 08:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2106-4-24**] 03:12 PM
 ESOPHOGEAL BALLOON - placed and trans pulm pressures measured (values
   around 15)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2106-4-24**] 02:00 AM
   Ceftriaxone - [**2106-4-24**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-24**] 10:15 AM
   Levofloxacin - [**2106-4-24**] 12:58 PM
   Vancomycin - [**2106-4-24**] 08:00 PM
   Cefipime - [**2106-4-25**] 12:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-4-24**] 09:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-25**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 37.4
C (99.3
   HR: 88 (88 - 122) bpm
   BP: 104/64(76) {87/55(65) - 163/85(106)} mmHg
   RR: 28 (17 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 13 (7 - 14)mmHg
   Total In:
                                                                  3,115 mL
                                                                  1,453 mL
   PO:
   TF:
   IVF:
                                                                  3,015 mL
                                                                  1,453 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    185 mL
   Urine:
                                                                  2,275 mL
                                                                    185 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    690 mL
                                                                  1,268 mL
   Respiratory support
   Ventilator mode: PRES/AC
   Vt (Set): 600 (500 - 600) mL
   RR (Set): 28
   PEEP: 16 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/36/60/20/-3
   Ve: 17.2 L/min
   PaO2 / FiO2: 75
   Physical Examination
   General Appearance: Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: Crackles : lower lobes, No(t) Wheezes : )
   Abdominal: Soft, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   220 K/uL
   95 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   24 mg/dL
   109 mEq/L
   141 mEq/L
   37.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2106-4-24**]  04:58 AM
                             [**2106-4-24**]  05:03 AM
                             [**2106-4-24**]  06:28 AM
                             [**2106-4-24**]  10:21 AM
                             [**2106-4-24**]  04:50 PM
                             [**2106-4-24**]  07:21 PM
                             [**2106-4-25**]  12:00 AM
                             [**2106-4-25**]  02:22 AM
                             [**2106-4-25**]  05:21 AM
                             [**2106-4-25**]  05:49 AM
   WBC
   14.6
   11.0
   Hct
   40.8
   37.0
   Plt
   272
   220
   Cr
   0.7
   0.8
   1.1
   TropT
   <0.01
   TCO2
   23
   24
   26
   24
   24
   16
   22
   Glucose
   128
   97
   95
   Other labs: PT / PTT / INR:14.6/34.3/1.3, CK / CKMB /
   Troponin-T:1129/3/<0.01, ALT / AST:31/64, Alk Phos / T Bili:39/0.3,
   Amylase / Lipase:16/14, Differential-Neuts:77.0 %, Band:17.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.1
   g/dL, LDH:300 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   ASSESSMENT:
   50 yo male with history of HIV/AIDS and PCP pneumonia was admitted from
   the ED with hypoxic respiratory distress now with ARDs picture
   requiring significant vent support found to have positive urine
   legionella.  Has continued to require very high levels of Vent support.
   PLAN:
   1. Hypoxic Respiratory Distress: Etiology of patient's hypoxic
   respiratory distress likely infectious in etiology given elevated WBC,
   bandemia, and fever. Now with pos urine legionella.,PCP remains
   unlikely since CD4 count is adequate.   Additional contributions
   includes infection resulting in COPD exacerbation given scattered
   wheezes throughout. Now intubated with ARDS strategy
   - Vent goals: Adjusting to ARDSNEt goals, for fio O2 of 80 PEEP should
   be 14. for peep of 14, Fio2 should be 70. Goal Vt is 480 (by height).
   Currently with resp acidosis (likely [**2-20**] fever with increased work of
   breathin will allow for some degree of permissive hypercapnia). Will
   follow ABG carefully. [**Month (only) 51**] use esophageal balloon to guide PEEP, likely
   will benefit from PEEP greater than ARDSnet suggests. Esophageal
   balloon placed [**4-25**] AM (pressures have been variable, with TPP of 15
   range). We may need to paralyze to optimze vent function and consider
   alternative strategy (APRV etc). I am also concerned about him being
   volume down and creating more zone 1 lung zone (first we will try to
   get CVP > 16 and see if there are any effects on his oxygenation)
   - DFA and Respiratory antigen panel (neg) stopped tamiflu.
   - f/u sputum gram stain and culture: Looks like gram stain + or GPC in
   pairs and clusters, Clx pending (legionella Pos in urine)
   - Continue Cefepime, Vanco and Levoflox until neg sputum clx (may be a
   super infection present)
   - standing nebulizer treatment. Hold on steroids for PCP or COPD flare
   for now.
   - Other sources: urine appears dirty (he'c covered adequately for now,
   new urine pending), also with diarrhea (c. dif neg)
   2. Fever
   Etiology appears most likely secondary to pneumonia (legionella),
   urinary tract infection given occasional bacteria and WBCs on UA.
   Unfortunately antibiotics given prior to urine culture being sent.
   - coverage as above (broad for now).
   - follow up cultures (as above)
   - cooling blanket (goal temp < 101 oral)
   2a. Sepsis:  goal UOP greater .5 cc/kg/hr, CVP goal of 14-16, MAP > 60,
   follow lactate and mixed venous sat. Will obtain central access.
   3. Fluid Status
    - decreasing blood pressures likely [**2-20**] insensible losses from fever
   and work of breathing.
   - Will bolus with LR to goal CVP 14-16 for now (high PEEP likely
   decreasing pre load)
   4. Elevated CK: could be a viral etiology, but with rising Cr concern
   for rhabdomyolysis (large blood). Follow serial CKs. Will hydrate to
   goal UOP as above. Spin urine for analysis
   5. HIV:  Hold HAART therapy in the setting of acute (Dr [**Last Name (STitle) 415**]
   [**Name (NI) 167**] by email)
   Other issues per Resident Note.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2106-4-24**] 12:00 AM
   Arterial Line - [**2106-4-24**] 05:00 AM
   20 Gauge - [**2106-4-24**] 08:45 AM
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments: defer wake up given vent settings
   Communication: Family meeting held , ICU consent signed Comments:
   Family meeting yesterday with resident (last evening)
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2106-04-26 18:19:00 Physician Resident Progress Note
Chief Complaint: 50 yo M w/ HIV, h/o PCP pna, now with ARDS [**2-20**]
   Legionella
   24 Hour Events:
 SPUTUM CULTURE - At [**2106-4-25**] 12:47 PM
 ULTRASOUND - At [**2106-4-25**] 02:11 PM
 BLOOD CULTURED - At [**2106-4-26**] 12:17 AM
 BLOOD CULTURED - At [**2106-4-26**] 12:17 AM
 FEVER - 102.0
F - [**2106-4-25**] 06:30 PM
   Overnight- patient's O2 sats continued to drop down despite high vent
   settings.  Trial of Nitric oxide without benefit.  Trial of vecuronium
   10 mg without success.  Patient put in prone position with rotating bed
   in the AM.  Improvement with saturations after suctioning moderate
   amount of secretions. UOP continues to remain stable
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2106-4-24**] 02:00 AM
   Ceftriaxone - [**2106-4-24**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-24**] 10:15 AM
   Vancomycin - [**2106-4-26**] 08:04 AM
   Levofloxacin - [**2106-4-26**] 12:00 PM
   Cefipime - [**2106-4-26**] 04:00 PM
   Infusions:
   Fentanyl - 450 mcg/hour
   Midazolam (Versed) - 13 mg/hour
   Propofol - 40 mcg/Kg/min
   Vecuronium - 0.05 mg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-4-25**] 10:22 PM
   Midazolam (Versed) - [**2106-4-26**] 07:22 AM
   Fentanyl - [**2106-4-26**] 07:22 AM
   Famotidine (Pepcid) - [**2106-4-26**] 12:00 PM
   Dextrose 50% - [**2106-4-26**] 05:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-26**] 06:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 100 (69 - 130) bpm
   BP: 99/53(66) {98/53(66) - 162/82(104)} mmHg
   RR: 0 (0 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 20 (12 - 24)mmHg
   Bladder pressure: 14 (9 - 22) mmHg
   Total In:
                                                                  6,314 mL
                                                                  2,597 mL
   PO:
   TF:
                                                                      4 mL
   IVF:
                                                                  6,230 mL
                                                                  2,517 mL
   Blood products:
   Total out:
                                                                    687 mL
                                                                  1,000 mL
   Urine:
                                                                    687 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,627 mL
                                                                  1,599 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Set): 600 (600 - 600) mL
   PC : 25 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: Hemodynamic Instability
   PIP: 41 cmH2O
   Plateau: 34 cmH2O
   SpO2: 93%
   ABG: 7.29/46/82.[**Numeric Identifier 143**]/21/-4
   Ve: 17.8 L/min
   PaO2 / FiO2: 83
   Physical Examination
   General Appearance: Overweight / Obese; patient in prone position in
   rotating bed
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   135 K/uL
   10.8 g/dL
   98 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.9 mEq/L
   35 mg/dL
   111 mEq/L
   142 mEq/L
   31.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2106-4-26**]  12:42 AM
                             [**2106-4-26**]  01:30 AM
                             [**2106-4-26**]  01:52 AM
                             [**2106-4-26**]  02:09 AM
                             [**2106-4-26**]  03:04 AM
                             [**2106-4-26**]  04:23 AM
                             [**2106-4-26**]  07:32 AM
                             [**2106-4-26**]  08:29 AM
                             [**2106-4-26**]  02:00 PM
                             [**2106-4-26**]  02:01 PM
   WBC
   10.5
   Hct
   33.6
   31.4
   Plt
   146
   135
   Cr
   1.2
   TCO2
   22
   23
   23
   20
   23
   23
   23
   Glucose
   98
   Other labs: PT / PTT / INR:16.0/34.3/1.4, CK / CKMB /
   Troponin-T:956/3/<0.01, ALT / AST:31/64, Alk Phos / T Bili:39/0.3,
   Amylase / Lipase:16/14, Differential-Neuts:77.0 %, Band:17.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:495 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:300 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] Legionella
   Respiratory Status: Legionella Positive.  PCP negative
   [**Name Initial (PRE) **] improvement in O2 once placed in the prone position; will continue
   with current management at this time
   - will do another trial of vecuronium since patient continues to have
   dysynchrony with the ventilator
   - goal PaO2 >55; currently patient meeting goal.  monitor with ABG
   - will continue therapy with vancomycin, cefipime, levofloxacin to
   cover for legionella and broadly for nosocomial; though may consider
   stopping vanco given no GPC; will also add azithro x 5 days to double
   cover for legionella since patient having a difficult time with O2
   saturations.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   Sepsis
   -  likely source is legionella
   - cont abx coverage
   - goal UOP >50 cc/hr- meeting goal
   - monitor BP/HR- stable
   Elevated CK- continues to trend down
   - LR 500 cc x 1
   Creatinine slightly elevated- continue monitoring; ensure adequate
   hydration while monitoring creatinine
   [**Name (NI) 441**] unclear etiology; ddx includes ITP, TTP, DIC,
   sequestration, drugs, HIT
   - unlikely HIT given timeframe; may be medication induced; will need to
   consider further targeting down therapy to decrease number of abx.
   Famotidine may also be cause; will need to continue to monitor plt
   count for now
   - no evidence for TTP for now- cont to monitor
   - DIC labs sent- FDP elevated, but fibrinogen also elevated
   - most likely cause is sepsis given fever, infection, leukocytosis,
   bandemia
   HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-4-24**] 05:00 AM
   20 Gauge - [**2106-4-24**] 08:45 AM
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-04-27 06:02:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP PNA, now with legionella PNA
   24 Hour Events:
 FEVER - 104.8
F - [**2106-4-26**] 06:30 PM
   - febrile to 104.8 rectally; tylenol 650 PR Q4 standing; continued to
   desat during day to low 80s in supine position, kept in prone position
   - able to put cooling blanket while in prone position
   - vecuronium bolus (15 mg) and gtt started- TROF 0-2. propofol being
   weaned off
   - PCP [**Name Initial (PRE) 442**]; UOP meeting goal (>50 cc/hr).  bladder pressure 14
   - A-line not drawing at 6 AM- got ABG, but may need new a-line today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-24**] 10:15 AM
   Levofloxacin - [**2106-4-26**] 12:00 PM
   Vancomycin - [**2106-4-26**] 09:46 PM
   Cefipime - [**2106-4-27**] 12:00 AM
   Infusions:
   Vecuronium - 0.05 mg/Kg/hour
   Midazolam (Versed) - 16 mg/hour
   Fentanyl - 450 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2106-4-26**] 07:22 AM
   Fentanyl - [**2106-4-26**] 07:22 AM
   Dextrose 50% - [**2106-4-26**] 05:25 PM
   Heparin Sodium (Prophylaxis) - [**2106-4-26**] 09:08 PM
   Famotidine (Pepcid) - [**2106-4-26**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-27**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.4
C (104.8
   Tcurrent: 37.2
C (98.9
   HR: 97 (74 - 130) bpm
   BP: 93/85(89) {92/52(64) - 162/85(104)} mmHg
   RR: 20 (14 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 12 (12 - 22)mmHg
   Bladder pressure: 14 (9 - 14) mmHg
   Total In:
                                                                  4,064 mL
                                                                    601 mL
   PO:
   TF:
   IVF:
                                                                  3,984 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    460 mL
   Urine:
                                                                  1,405 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,659 mL
                                                                    141 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 25 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   SpO2: 94%
   ABG: 7.27/48/124/24/-4
   Ve: 10 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: Not
   assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Skin:  Not assessed
   Lungs: Coarse mechanical BS bilaterally anteriorly
   Heart: RRR nl S1, S2
   Neurologic: sedated, paralyzed
   Labs / Radiology
   119 K/uL
   10.4 g/dL
   96 mg/dL
   2.0 mg/dL
   24 mEq/L
   4.8 mEq/L
   44 mg/dL
   113 mEq/L
   144 mEq/L
   32.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2106-4-26**]  01:52 AM
                             [**2106-4-26**]  02:09 AM
                             [**2106-4-26**]  03:04 AM
                             [**2106-4-26**]  04:23 AM
                             [**2106-4-26**]  07:32 AM
                             [**2106-4-26**]  08:29 AM
                             [**2106-4-26**]  02:00 PM
                             [**2106-4-26**]  02:01 PM
                             [**2106-4-26**]  06:03 PM
                             [**2106-4-27**]  04:47 AM
   WBC
   10.5
   10.0
   Hct
   33.6
   31.4
   Plt
   146
   135
   Cr
   1.2
   2.0
   TCO2
   23
   20
   23
   23
   23
   23
   Glucose
   98
   109
   96
   Other labs: PT / PTT / INR:16.8/40.6/1.5, CK / CKMB /
   Troponin-T:956/3/<0.01, ALT / AST:31/64, Alk Phos / T Bili:39/0.3,
   Amylase / Lipase:16/14, Differential-Neuts:78.0 %, Band:12.0 %,
   Lymph:7.0 %, Mono:2.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:495
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:300 IU/L, Ca++:8.4
   mg/dL, Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] Legionella
   Respiratory Status: Legionella Positive.  PCP negative
   [**Name Initial (PRE) **] improvement in O2 once placed in the prone position; will continue
   with current management at this time
   - synchrony improved with vecuronium; propofol off; may need to
   consider other methods of sedation if long term paralysis is needed;
   though first will try to see how patient does today with vent;  will
   change sedation to phenobarbitol and change vecuronium to cisatracurium
   for more long term paralysis per protocol
   - goal PaO2 >55; currently patient meeting goal.  monitor with ABG;
   most recent ABG in the setting of patient being supine- O2 sats
   significantly worsen to low 80s when supine.
   - severe metabolic acidosis with pH 7.1; and pCO2 72.  will increase RR
   to 26 to improve respiratory acidosis; likely minimal metabolic
   compensation secondary to renal injury
   - will continue therapy with vancomycin, cefipime, levofloxacin to
   cover for legionella and broadly for nosocomial; will cont vanco for
   now since patient
s clinical status very tenuous; also on azithro x 5
   days to double cover for legionella since patient having a difficult
   time with O2 saturations.
   - attempt to decrease FiO2 if tolerated since patient has been on 100%
   FiO2 since yesterday
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   Hyperthermia
   -          cooling blanket placed yesterday, standing acetaminophen
   given with improvement in temp (below 100).
   -          Likely source is infectious- legionella known to cause temps
   >40C.
   -          Unlikely medication- no real reports of vecuronium induced
   hyperthermia- possible [**2-20**] propofol, though now propofol  has been
   stopped
   -          Cont current management; may consider removing cooling
   blanket today and cont with standing acetaminophen
   Sepsis
   -  likely source is legionella
   - cont abx coverage
   - goal UOP >50 cc/hr- meeting goal
   - monitor BP/HR- stable
   - given slightly elevated leukocytosis, will re-culture, send c.diff x
   3 (on broad spectrum abx).
   - may consider xigris therapy with APACHE score near 25; cont to
   monitor for now and if clinical status deteriorates, will d/w team
   regarding starting xigris
   - re-check DIC labs this PM
   Elevated CK- trending down
   Acute Kidney Injury- creatinine 2.0
 1.2 on [**4-26**]
   -          unclear etiology; though likely ATN secondary to
   hypotension; could also be TTP/HUS since coags increasing, though HCT
   stable
   -          will cont with IVFs.  Send urine lytes and further evaluate
   etiology
   [**Name (NI) 441**] unclear etiology; ddx includes ITP, TTP, DIC,
   sequestration, drugs, HIT
   - unlikely HIT given timeframe; may be medication induced; will need to
   consider further targeting down therapy to decrease number of abx.
   Famotidine may also be cause; will need to continue to monitor plt
   count for now
   - no evidence for TTP for now- cont to monitor
   - DIC labs sent- FDP elevated, but fibrinogen also elevated though low
   in the setting of severe illness; will recheck today and treat if
   bleeding.
   - most likely cause is sepsis given fever, infection, leukocytosis,
   bandemia
   HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition: NPO; hold off on tube feeds since patient is in prone
   position.  Consider acetaminophen absorption test to determine if
   patient able to take POs in NGT
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2106-4-24**] 05:00 AM
   20 Gauge - [**2106-4-24**] 08:45 AM
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care

2106-04-28 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-4-27**] 08:00 AM
 FEVER - 103.2
F - [**2106-4-28**] 02:00 AM
   -switched to cisatracuronium
   -started on pentabarbital
   -looked like DIC/extremity angiopathic thrombi, started on xigris, Hep
   SC d/c'd
   -curbsided heme, rec'd following DIC labs, give FFP for fibrinogen
   <100, Plt <30, increased INR
   -called infection control re: concerns for legionella and ill
   co-workers
   -Apache [**Name2 (NI) **] ~30
   -tylenol absorption test = serum acetaminophen level 9.7
   -febrile to 103.2 overnight
   -supine all night with improved gases.  Decreased Fi02 to 80%. ~4cm
   autopeep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-4-27**] 12:01 PM
   Vancomycin - [**2106-4-27**] 08:00 PM
   Cefipime - [**2106-4-28**] 12:09 AM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Pentobarbital - 1 mg/Kg/hour
   Drotrecogin - 24 mcg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-4-27**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-28**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38
C (100.4
   HR: 83 (79 - 124) bpm
   BP: 84/47(58) {84/47(53) - 126/76(92)} mmHg
   RR: 20 (11 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 18 (14 - 22)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  3,806 mL
                                                                    540 mL
   PO:
   TF:
   IVF:
                                                                  3,706 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    560 mL
   Urine:
                                                                  1,635 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,171 mL
                                                                    -20 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 25 cmH2O
   RR (Set): 28
   PEEP: 16 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   SpO2: 95%
   ABG: 7.32/43/106/21/-3
   Ve: 18.6 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   10.4 g/dL
   108 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.3 mEq/L
   62 mg/dL
   113 mEq/L
   144 mEq/L
   30.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2106-4-27**]  07:52 AM
                             [**2106-4-27**]  10:21 AM
                             [**2106-4-27**]  11:02 AM
                             [**2106-4-27**]  12:21 PM
                             [**2106-4-27**]  03:16 PM
                             [**2106-4-27**]  06:29 PM
                             [**2106-4-27**]  08:04 PM
                             [**2106-4-28**]  12:46 AM
                             [**2106-4-28**]  04:53 AM
                             [**2106-4-28**]  05:09 AM
   WBC
   12.5
   Hct
   30.8
   Plt
   110
   109
   124
   Cr
   2.9
   TCO2
   24
   30
   25
   25
   23
   23
   23
   Glucose
   103
   81
   84
   113
   108
   Other labs: PT / PTT / INR:17.4/40.1/1.6, CK / CKMB /
   Troponin-T:956/3/<0.01, ALT / AST:31/64, Alk Phos / T Bili:39/0.3,
   Amylase / Lipase:16/14, Differential-Neuts:73.0 %, Band:10.0 %,
   Lymph:12.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:7462 ng/mL, Fibrinogen:317
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:605 IU/L, Ca++:7.8
   mg/dL, Mg++:2.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] Legionella
   Respiratory Status: Legionella Positive.  PCP negative
   [**Name Initial (PRE) **] improvement in O2 once placed in the prone position; will continue
   with current management at this time
   - synchrony improved with vecuronium; propofol off; may need to
   consider other methods of sedation if long term paralysis is needed;
   though first will try to see how patient does today with vent;  will
   change sedation to phenobarbitol and change vecuronium to cisatracurium
   for more long term paralysis per protocol
   - goal PaO2 >55; currently patient meeting goal.  monitor with ABG;
   most recent ABG in the setting of patient being supine- O2 sats
   significantly worsen to low 80s when supine.
   - severe metabolic acidosis with pH 7.1; and pCO2 72.  will increase RR
   to 26 to improve respiratory acidosis; likely minimal metabolic
   compensation secondary to renal injury
   - will continue therapy with vancomycin, cefipime, levofloxacin to
   cover for legionella and broadly for nosocomial; will cont vanco for
   now since patient
s clinical status very tenuous; also on azithro x 5
   days to double cover for legionella since patient having a difficult
   time with O2 saturations.
   - attempt to decrease FiO2 if tolerated since patient has been on 100%
   FiO2 since yesterday
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   Hyperthermia
   -          cooling blanket placed yesterday, standing acetaminophen
   given with improvement in temp (below 100).
   -          Likely source is infectious- legionella known to cause temps
   >40C.
   -          Unlikely medication- no real reports of vecuronium induced
   hyperthermia- possible [**2-20**] propofol, though now propofol  has been
   stopped
   -          Cont current management; may consider removing cooling
   blanket today and cont with standing acetaminophen
   Sepsis
   -  likely source is legionella
   - cont abx coverage
   - goal UOP >50 cc/hr- meeting goal
   - monitor BP/HR- stable
   - given slightly elevated leukocytosis, will re-culture, send c.diff x
   3 (on broad spectrum abx).
   - may consider xigris therapy with APACHE score near 25; cont to
   monitor for now and if clinical status deteriorates, will d/w team
   regarding starting xigris
   - re-check DIC labs this PM
   Elevated CK- trending down
   Acute Kidney Injury- creatinine 2.0
 1.2 on [**4-26**]
   -          unclear etiology; though likely ATN secondary to
   hypotension; could also be TTP/HUS since coags increasing, though HCT
   stable
   -          will cont with IVFs.  Send urine lytes and further evaluate
   etiology
   [**Name (NI) 441**] unclear etiology; ddx includes ITP, TTP, DIC,
   sequestration, drugs, HIT
   - unlikely HIT given timeframe; may be medication induced; will need to
   consider further targeting down therapy to decrease number of abx.
   Famotidine may also be cause; will need to continue to monitor plt
   count for now
   - no evidence for TTP for now- cont to monitor
   - DIC labs sent- FDP elevated, but fibrinogen also elevated though low
   in the setting of severe illness; will recheck today and treat if
   bleeding.
   - most likely cause is sepsis given fever, infection, leukocytosis,
   bandemia
   HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-27**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-04-28 15:24:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, [**Name10 (NameIs) 476**] PNA c/b DIC
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-4-27**] 08:00 AM
 FEVER - 103.2
F - [**2106-4-28**] 02:00 AM
   -switched to cisatracuronium
   -started on pentabarbital
   -looked like DIC/extremity angiopathic thrombi, started on xigris, Hep
   SC d/c'd
   -curbsided heme, rec'd following DIC labs, give FFP for fibrinogen
   <100, Plt <30, increased INR
   -called infection control re: concerns for [**Year (4 digits) 476**] and ill
   co-workers
   -Apache [**Name2 (NI) **] ~30
   -tylenol absorption test = serum acetaminophen level 9.7
   -febrile to 103.2 overnight
   -supine all night with improved gases.  Decreased Fi02 to 80%. ~4cm
   autopeep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-4-27**] 12:01 PM
   Cefipime - [**2106-4-28**] 08:00 AM
   Vancomycin - [**2106-4-28**] 08:30 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-28**] 03:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.1
C (100.6
   HR: 85 (78 - 104) bpm
   BP: 98/56(67) {84/47(53) - 115/63(77)} mmHg
   RR: 28 (11 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 19 (15 - 19)mmHg
   CO/CI (CCO): (6.1 L/min) / (2.6 L/min/m2)
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  3,806 mL
                                                                  1,707 mL
   PO:
   TF:
   IVF:
                                                                  3,706 mL
                                                                  1,487 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    712 mL
   Urine:
                                                                  1,635 mL
                                                                    712 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,171 mL
                                                                    995 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   PC : 22 cmH2O
   RR (Set): 28
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   SpO2: 95%
   ABG: 7.28/43/77.[**Numeric Identifier 143**]/21/-6
   Ve: 18.5 L/min
   PaO2 / FiO2: 111
   Physical Examination
   Gen: sedated, paralyzed
   HEENT: scleral edema, small 1 cm ecchymotic area on right cheek
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally
   Abd: slightly distended, hypoactive BS
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE
   Labs / Radiology
   124 K/uL
   10.4 g/dL
   108 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.3 mEq/L
   62 mg/dL
   113 mEq/L
   144 mEq/L
   30.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2106-4-27**]  03:16 PM
                             [**2106-4-27**]  06:29 PM
                             [**2106-4-27**]  08:04 PM
                             [**2106-4-28**]  12:46 AM
                             [**2106-4-28**]  04:53 AM
                             [**2106-4-28**]  05:09 AM
                             [**2106-4-28**]  08:40 AM
                             [**2106-4-28**]  11:24 AM
                             [**2106-4-28**]  12:18 PM
                             [**2106-4-28**]  01:33 PM
   WBC
   12.5
   Hct
   30.8
   Plt
   110
   109
   124
   Cr
   2.9
   TCO2
   23
   23
   23
   21
   21
   22
   21
   Glucose
   81
   84
   113
   108
   Other labs: PT / PTT / INR:17.4/40.1/1.6, CK / CKMB /
   Troponin-T:956/3/<0.01, ALT / AST:31/64, Alk Phos / T Bili:39/0.3,
   Amylase / Lipase:16/14, Differential-Neuts:73.0 %, Band:10.0 %,
   Lymph:12.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:7462 ng/mL, Fibrinogen:317
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:605 IU/L, Ca++:7.8
   mg/dL, Mg++:2.8 mg/dL, PO4:4.0 mg/dL
   CXR [**2106-4-27**]
   Severe bilateral perihilar pulmonary consolidation unchanged since at
   least
   [**4-25**]. Moderately severe pulmonary edema elsewhere, worsened since
   [**4-25**]
   and 7, accompanied by increasing small bilateral pleural effusion.
   Heart
   size, top normal. No pneumothorax. Right internal jugular central
   venous
   line, ET tube, and nasogastric tube in standard placements. No
   pneumothorax.
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC
   1. Respiratory Status: [**Month/Day (2) **] Positive.  PCP negative
   [**Name Initial (PRE) **] tolerated supine position overnight; will continue keeping in supine
   position while monitoring saturations.  O2 sat monitor not as accurate
   as ABG given DIC in extremities
   - given improvement, stop cisatracurium and switch from pentobarbital
   to midazolam/fentanyl to see if patient tolerates
   - consider placing in prone position prior to re-paralysis if patient
   oxygenation worsens off paralysis.  Would prefer prone over
   re-paralysis if possible
   - goal PaO2 >55; currently patient meeting goal.
   - respiratory acidosis improved with changed vent settings; cont to
   monitor and adjust as necessary
   - will continue therapy with vancomycin, cefipime, levofloxacin to
   cover for [**Name Initial (PRE) 476**] and broadly for nosocomial; will cont vanco for
   now since patient
s clinical status very tenuous; also on azithro x 5
   days to double cover for [**Name Initial (PRE) 476**] since patient having a difficult
   time with O2 saturations.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - resend sputum given temperature
   2. DIC
   - likely [**2-20**] sepsis
   - cont to monitor labs; fibrinogen slightly improved this AM
   - cont activated protein C
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - d/w heme onc.  f/u their recs.  Appreciate input
   3. Hyperthermia
   - likely source is infectious- likely [**Month/Day (2) 476**]; though cannot rule
   out super infection or other source of infection
   - resend sputum; pan culture if spikes
   -   still with cooling blanket in place, but off.  Would prefer
   acetaminophen but may need to restart cooling blanket if temp >103.5
   4. Sepsis
   -  likely source is [**Month/Day (2) 476**]; pan culture if spikes.  Con
t to look
   for sources
   - cont broad abx coverage with levo, cefipime, vanco, and azithro
   - goal UOP >50 cc/hr- monitor closely
   - monitor BP/HR- slighly hypotensive; will need to evaluate for fluid
   boluses.  Goal MAP>65
   - on xigris therapy for DIC and two organ system failure- will complete
   full 96 hr course
   5. Acute Kidney Injury- creat 2.9 today
   -  unclear etiology; though likely ATN secondary to hypotension; urine
   lytes c/w pre-renal (FENA 0.3%) though unclear if this is secondary to
   hypovolemia vs poor forward flow
   - will give LR 500 cc x 1 and monitor cardiac indexes with Vigileo
   monitor
   - renally dose medications.  Look at urine sediment
   6. [**Name (NI) 477**] unclear etiology; ddx sepsis, hypovolemia (pre-renal),
   cardiogenic
   - ECHO today to evaluate cardiac function
   - will monitor UOP, creatinine elevated.  Plan to give LR bolus and
   monitor Cardiac index
   - may consider pressors if MAP<60; but may consider decreasing PEEP to
   see if process is decreased preload/ worsening output secondary to
   elevated increaing intrathoracic pressures
   - will do non-invasic cardiac monitoring
   - repeat bladder pressure
   7. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  adequate
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-27**] 07:30 AM
   Prophylaxis:
   DVT: none- heparin contraindicated in DIC
   Stress ulcer: famotidine
   VAP:  mouth care, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care

2106-04-29 07:31:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, [**Name10 (NameIs) 476**] PNA c/b DIC
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2106-4-28**] 10:17 AM
 FEVER - 102.0
F - [**2106-4-29**] 04:00 AM
   -Evidence of ATN (granular casts) when urine spun
   - Oxygenation continued to improve after discontinuing cisatracurium.
   Continues to be on pentobarbital.  FiO2 decreased from 90%
 60% this
   AM.  No longer requiring prone positioning.
   - TTE showing RV cavity enlargement with basal free wall hypokinesis
   (relatively preserved apical function c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 485**] sign). Mild
   global left ventricular hypokinesis.
   - Trial of IVF boluses (1500cc with little to no change in CVP/CI/SVR);
   then trial of diuresis on lasix gtt, SVV was low so not likely volume
   responsive hypotension prior
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-4-27**] 12:01 PM
   Cefipime - [**2106-4-28**] 08:00 AM
   Vancomycin - [**2106-4-28**] 08:30 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-4-29**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-29**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 116 (78 - 116) bpm
   BP: 98/56(67) {90/52(63) - 98/56(67)} mmHg
   RR: 0 (0 - 28) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 21 (18 - 37)mmHg
   CO/CI (CCO): (8.2 L/min) / (3.7 L/min/m2)
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  3,094 mL
                                                                    335 mL
   PO:
   TF:
   IVF:
                                                                  2,834 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    195 mL
   Urine:
                                                                    960 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,134 mL
                                                                    140 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 20 cmH2O
   RR (Set): 28
   PEEP: 22 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 38 cmH2O
   SpO2: 86%
   ABG: 7.27/43/99.[**Numeric Identifier 126**]/19/-6
   Ve: 18.3 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Gen: sedated, paralyzed
   HEENT: scleral edema, small 1 cm ecchymotic area on right cheek
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally
   Abd: slightly distended, hypoactive BS
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE
   Labs / Radiology
   112 K/uL
   9.8 g/dL
   99 mg/dL
   3.8 mg/dL
   19 mEq/L
   4.7 mEq/L
   86 mg/dL
   114 mEq/L
   146 mEq/L
   29.7 %
   13.8 K/uL
        [image002.jpg]
                             [**2106-4-28**]  08:40 AM
                             [**2106-4-28**]  11:24 AM
                             [**2106-4-28**]  12:18 PM
                             [**2106-4-28**]  01:33 PM
                             [**2106-4-28**]  03:49 PM
                             [**2106-4-28**]  04:17 PM
                             [**2106-4-29**]  12:04 AM
                             [**2106-4-29**]  12:23 AM
                             [**2106-4-29**]  03:13 AM
                             [**2106-4-29**]  07:10 AM
   WBC
   13.8
   Hct
   29.7
   Plt
   112
   Cr
   3.8
   TropT
   0.08
   0.07
   TCO2
   21
   21
   22
   21
   21
   21
   21
   Glucose
   99
   Other labs: PT / PTT / INR:19.1/40.1/1.8, CK / CKMB /
   Troponin-T:1059/3/0.07, ALT / AST:31/64, Alk Phos / T Bili:39/0.3,
   Amylase / Lipase:16/14, Differential-Neuts:73.0 %, Band:10.0 %,
   Lymph:12.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:7462 ng/mL, Fibrinogen:358
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:605 IU/L, Ca++:7.8
   mg/dL, Mg++:3.0 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC
    1. Respiratory Status: [**Month/Day (2) **] Positive.  PCP negative
   [**Name Initial (PRE) **] continues to improve with decreased FiO2 without requiring prone
   positioning.  Paralysis stopped yesterday, but continued to be on
   pentobarbital
   - will cont to wean vent settings as tolerated; con
t with
   pentobarbital for now before switching to midaz/fentanyl to prevent
   dysynchrony and try to wean as much as possible
   - goal PaO2 >65; currently patient meeting goal.
   - now has metabolic acidosis combined with a respiratory acidosis,
   likely in the setting of [**Last Name (un) **] complicated by high temperatures.  Treat
   hyperthermia with cooling blanket and tylenol; adjust pressure to
   increase TV/MV to improve respiratory acidosis.
   - will continue therapy cefipime, levofloxacin to cover for [**Last Name (un) 476**]
   and broadly for nosocomial; will continue azithromycin for double
   coverage.  Will stop vancomycin since there is no source to suggest
   MRSA at this time.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - resend sputum given temperature
   2. DIC
   - likely [**2-20**] sepsis
   - cont to monitor labs; fibrinogen improved this AM
   - cont activated protein C
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - d/w heme onc.  Offical consult placed.  No need for anticoagulation
   at this time
   3. Hyperthermia
   - likely source is infectious- likely [**Month/Day (2) 476**]; though cannot rule
   out super infection or other source of infection
   - resend sputum; pan culture if spikes
   -   still with cooling blanket in place, but off.  Would prefer
   acetaminophen but may need to restart cooling blanket if temp >103.5
   - other possibilites include drug fever, DVT
   - BLE LENIs today; check CBC with diff for eosinophilia
   - Consult ID for further causes
   - tachycardic likely [**2-20**] hyperthermia.  Improving when temp decreases
   4. Sepsis
   -  likely source is [**Month/Day (2) 476**]; pan culture if spikes.  Con
t to look
   for sources
   - cont broad abx coverage with levo, cefipime, and azithro
   - goal UOP >50 cc/hr- monitor closely
   - monitor BP/HR- Goal MAP>65
   - on xigris therapy for DIC and two organ system failure- will complete
   full 96 hr course
   - will consult ID for any other cause of his fever.  Leukocytosis
   slightly worse today.  Con
t to spike fevers
   5. Acute Kidney Injury- creat 3.8 today
   -  urine sediment with granular casts c/w ATN.  Likely in the setting
   of sepsis
   - improved BP/Cardiac index on lasix gtt- possibly poor forward cardiac
   flow causing poor renal perfusion.  Fluid bolus did not improve
   hemodynamics significantly.
   - cont to monitor.  No acute cause for HD at this time.  K stable
   - will renally dose medications.  Monitor Ca/Phos product.  No need for
   phos binders at this time
   - monitor creatinine.  Should improve with time, but may need HD if
   indicated.  Currently, good UOP with lasix gtt, though could likely
   just be from post ATN diuresis.
   6. Hypotension- resolving.
   - possibly cardiac in origin since it improved with diuresis- ?
   subendocardial ischmia given TWI.  Though no significant bump in
   cardiac enzymes
   - ECHO shows depressed RV and LV function.  Could be secondary to
   septic heart or volume overload.  Cardiac index improved with diuresis
   7. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition: TF today.  200 mL water flushes for hypernatremia
   Glycemic Control:  adequate. Will add ISS coverage as needed
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-27**] 07:30 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care, chlorhexidine
   Comments: sacral 2^nd degree decubitus.  Bed changed
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care

2106-04-30 07:45:00 Physician Resident Progress Note
Chief Complaint: 50 yo with HIV, h/o PCP, [**Name10 (NameIs) 117**] with ARDS [**2-20**] [**Month/Day (2) 476**]
   c/b DIC and now with DVT in right LE s/p IVC filter
   24 Hour Events:
 ULTRASOUND - At [**2106-4-29**] 11:26 AM
 SPUTUM CULTURE - At [**2106-4-29**] 03:28 PM
 BLOOD CULTURED - At [**2106-4-29**] 04:58 PM
 BLOOD CULTURED - At [**2106-4-29**] 04:58 PM
 ARTERIAL LINE - STOP [**2106-4-30**] 02:59 AM
 ARTERIAL LINE - START [**2106-4-30**] 03:00 AM
 ARTERIAL LINE - STOP [**2106-4-30**] 05:16 AM
 FEVER - 103.7
F - [**2106-4-29**] 09:00 AM
   - found to have DVT in R popliteal & R superficial femoral vein
   - d/w IR.  had IVC filter placed
   - consulted heme-onc.  no anticoagulation now; will staff in AM
   - consulted ID- will staff in AM.  recommended peeling of abx.  d/c'ed
   vanco
   - Bladder pressure 11
   - UOP remained good on lasix
   - FiO2 had to be slightly increased to 70, and Pressure increased to 24
   for hypercarbia
   - lost A-line in the AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 08:30 AM
   Azithromycin - [**2106-4-29**] 10:45 AM
   Levofloxacin - [**2106-4-29**] 12:46 PM
   Cefipime - [**2106-4-30**] 07:28 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Furosemide (Lasix) - 4 mg/hour
   Drotrecogin - 24 mcg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-4-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-30**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 36.9
C (98.4
   HR: 95 (89 - 122) bpm
   BP: 127/71(85) {127/64(78) - 137/72(88)} mmHg
   RR: 28 (0 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 17 (10 - 21)mmHg
   CO/CI (CCO): (6.9 L/min) / (3.1 L/min/m2)
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  2,071 mL
                                                                    632 mL
   PO:
   TF:
                                                                     87 mL
                                                                     76 mL
   IVF:
                                                                  1,984 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    700 mL
   Urine:
                                                                  1,705 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                    -68 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 28
   PEEP: 22 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   SpO2: 97%
   ABG: 7.24/53/105/21/-5
   Ve: 16.6 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   10.3 g/dL
   129 mg/dL
   3.8 mg/dL
   21 mEq/L
   4.7 mEq/L
   102 mg/dL
   116 mEq/L
   153 mEq/L
   33.0 %
   14.1 K/uL
        [image002.jpg]
                             [**2106-4-29**]  12:23 AM
                             [**2106-4-29**]  03:13 AM
                             [**2106-4-29**]  06:57 AM
                             [**2106-4-29**]  07:10 AM
                             [**2106-4-29**]  01:50 PM
                             [**2106-4-29**]  04:17 PM
                             [**2106-4-29**]  04:34 PM
                             [**2106-4-29**]  09:29 PM
                             [**2106-4-29**]  11:55 PM
                             [**2106-4-30**]  05:18 AM
   WBC
   13.8
   14.1
   Hct
   29.7
   33.0
   Plt
   112
   111
   Cr
   3.8
   4.0
   3.8
   TropT
   0.09
   TCO2
   21
   21
   22
   21
   23
   24
   Glucose
   99
   96
   129
   Other labs: PT / PTT / INR:22.1/42.5/2.1, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:31/64, Alk Phos / T Bili:39/0.3,
   Amylase / Lipase:16/14, Differential-Neuts:73.0 %, Band:10.0 %,
   Lymph:12.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:7462 ng/mL, Fibrinogen:358
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:605 IU/L, Ca++:7.6
   mg/dL, Mg++:3.2 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC
    1. Respiratory Status: [**Month/Day (2) **] Positive.  PCP negative
   [**Name Initial (PRE) **] continues to improve with decreased FiO2 without requiring prone
   positioning.  Paralysis stopped yesterday, but continued to be on
   pentobarbital
   - will cont to wean vent settings as tolerated; con
t with
   pentobarbital for now before switching to midaz/fentanyl to prevent
   dysynchrony and try to wean as much as possible
   - goal PaO2 >65; currently patient meeting goal.
   - now has metabolic acidosis combined with a respiratory acidosis,
   likely in the setting of [**Last Name (un) **] complicated by high temperatures.  Treat
   hyperthermia with cooling blanket and tylenol; adjust pressure to
   increase TV/MV to improve respiratory acidosis.
   - will continue therapy cefipime, levofloxacin to cover for [**Last Name (un) 476**]
   and broadly for nosocomial; will continue azithromycin for double
   coverage.  Will stop vancomycin since there is no source to suggest
   MRSA at this time.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - resend sputum given temperature
   2. DIC
   - likely [**2-20**] sepsis
   - cont to monitor labs; fibrinogen improved this AM
   - cont activated protein C
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - d/w heme onc.  Offical consult placed.  No need for anticoagulation
   at this time
   3. Hyperthermia
   - likely source is infectious- likely [**Month/Day (2) 476**]; though cannot rule
   out super infection or other source of infection
   - resend sputum; pan culture if spikes
   -   still with cooling blanket in place, but off.  Would prefer
   acetaminophen but may need to restart cooling blanket if temp >103.5
   - other possibilites include drug fever, DVT
   - BLE LENIs today; check CBC with diff for eosinophilia
   - Consult ID for further causes
   - tachycardic likely [**2-20**] hyperthermia.  Improving when temp decreases
   4. Sepsis
   -  likely source is [**Month/Day (2) 476**]; pan culture if spikes.  Con
t to look
   for sources
   - cont broad abx coverage with levo, cefipime, and azithro
   - goal UOP >50 cc/hr- monitor closely
   - monitor BP/HR- Goal MAP>65
   - on xigris therapy for DIC and two organ system failure- will complete
   full 96 hr course
   - will consult ID for any other cause of his fever.  Leukocytosis
   slightly worse today.  Con
t to spike fevers
   5. Acute Kidney Injury- creat 3.8 today
   -  urine sediment with granular casts c/w ATN.  Likely in the setting
   of sepsis
   - improved BP/Cardiac index on lasix gtt- possibly poor forward cardiac
   flow causing poor renal perfusion.  Fluid bolus did not improve
   hemodynamics significantly.
   - cont to monitor.  No acute cause for HD at this time.  K stable
   - will renally dose medications.  Monitor Ca/Phos product.  No need for
   phos binders at this time
   - monitor creatinine.  Should improve with time, but may need HD if
   indicated.  Currently, good UOP with lasix gtt, though could likely
   just be from post ATN diuresis.
   6. Hypotension- resolving.
   - possibly cardiac in origin since it improved with diuresis- ?
   subendocardial ischmia given TWI.  Though no significant bump in
   cardiac enzymes
   - ECHO shows depressed RV and LV function.  Could be secondary to
   septic heart or volume overload.  Cardiac index improved with diuresis
   7. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-4-29**] 12:47 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-01 07:24:00 Physician Resident Progress Note
Chief Complaint: 50 yo with HIV, h/o PCP, [**Name10 (NameIs) 117**] with ARDS [**2-20**] [**Month/Day (2) 476**]
   c/b DIC and now with DVT in right LE s/p IVC filter
   24 Hour Events:
 ARTERIAL LINE - START [**2106-4-30**] 02:18 PM
 SPUTUM CULTURE - At [**2106-4-30**] 04:30 PM
 BAL FLUID CULTURE - At [**2106-4-30**] 06:47 PM
 URINE CULTURE - At [**2106-4-30**] 07:57 PM
 STOOL CULTURE - At [**2106-5-1**] 05:06 AM
 FEVER - 103.6
F - [**2106-4-30**] 02:00 PM
   -more hypercarbic/acidotic on less PEEP/driving pressure, returned to
   previous settings
   -next ABG showed improvement, decreased Fi02 to 50%, ABG further
   improved until this am when TV markedly decresed along with 02 sats,
   possible mucous plug in ET tube.  Fi02 increased.
   -Got a-line replaced
   -ID consulted, recs: CT torso when stable to eval lungs for cavitary
   PNA, drainable focus, CT sinus for extrapulmonary [**Year (4 digits) 476**], mini-BAL
   for PJP, GS, bacterial/viral/fungal culture, check diff on CBC,
   b-glucan/galactomannan, UA and cx, LFTs, [**Doctor First Name **]/lip, d/c cefepime, dc
   azithromycin, cont. levo.  cryp ag, CMV VL.
   -PM labs, DIC labs unchanged, Na only 152 from 153, got ~750cc free h20
   in tube feeds.  Increased free h20 boluses.  Plts stable.  Cr worse
   -episode of hypglycemia to 30s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 08:30 AM
   Levofloxacin - [**2106-4-29**] 12:46 PM
   Cefipime - [**2106-4-30**] 07:28 AM
   Azithromycin - [**2106-4-30**] 10:05 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-1**] 12:00 AM
   Dextrose 50% - [**2106-5-1**] 04:53 AM
   Other medications:
   Changes to medical and family history:  None
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated and sedated
   Flowsheet Data as of  [**2106-5-1**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.4
C (101.2
   HR: 76 (76 - 126) bpm
   BP: 134/71(89) {129/71(89) - 150/81(100)} mmHg
   RR: 0 (0 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CO/CI (CCO): (6 L/min) / (2.7 L/min/m2)
   Total In:
                                                                  2,734 mL
                                                                  1,103 mL
   PO:
   TF:
                                                                    240 mL
                                                                     74 mL
   IVF:
                                                                  1,174 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,050 mL
   Urine:
                                                                  2,300 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    434 mL
                                                                     53 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 28
   PEEP: 22 cmH2O
   FiO2: 50%
   PIP: 46 cmH2O
   Plateau: 42 cmH2O
   SpO2: 93%
   ABG: 7.38/35/120/20/-3
   Ve: 19.6 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: sedated, paralyzed
   HEENT: scleral edema, small 1 cm ecchymotic area on right cheek, some
   foamy secretions at mouth
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally, upper airway secretions
   Abd: slightly distended, hypoactive BS, soft, tympanitic. No cullen
   grey-[**Doctor Last Name 493**]
s signs.
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE- appears unchanged from yesterday.
   Labs / Radiology
   150 K/uL
   9.9 g/dL
   111 mg/dL
   3.5 mg/dL
   20 mEq/L
   4.2 mEq/L
   114 mg/dL
   117 mEq/L
   152 mEq/L
   30.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2106-4-29**]  09:29 PM
                             [**2106-4-29**]  11:55 PM
                             [**2106-4-30**]  05:18 AM
                             [**2106-4-30**]  08:13 AM
                             [**2106-4-30**]  03:26 PM
                             [**2106-4-30**]  06:02 PM
                             [**2106-4-30**]  06:58 PM
                             [**2106-4-30**]  10:11 PM
                             [**2106-5-1**]  04:27 AM
                             [**2106-5-1**]  04:57 AM
   WBC
   14.1
   13.4
   Hct
   33.0
   30.9
   30.2
   Plt
   111
   145
   150
   Cr
   3.8
   3.7
   3.5
   TCO2
   23
   24
   23
   23
   21
   21
   22
   Glucose
   129
   111
   Other labs: PT / PTT / INR:25.1/39.7/2.5, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:27/122, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:[**0-0-**], Differential-Neuts:81.0 %, Band:4.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:3.0 %, D-dimer:7462 ng/mL, Fibrinogen:371
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:647 IU/L, Ca++:8.1
   mg/dL, Mg++:3.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC
     #. Respiratory Status: [**Month/Day (2) **] Positive.  PCP negative
   [**Name Initial (PRE) **] Respiratory status continued to improve over the past 24 hours, with
   decreasing Fi02 requirement and resolution of hypercarbia and acidosis
   at same pressure settings, however this am appeared to acutely become
   hypoxic with decreasing TV.  Most likely positional atelectasis vs
   mucous plugging/airway obstruction (RT appreciated partial occlusive ?
   mucous in ETT)
   -Increase Fi02, attempt to suction ETT, pt unlikely to tolerate bronch
   or ETT switch. Will manage conservitavely for now. No weaning down of
   driving pressures/PEEP for now.
   - will cont to wean vent settings as tolerated; con
t with
   pentobarbital for now before switching to midaz/fentanyl to prevent
   dysynchrony and try to wean as much as possible
   - goal PaO2 >65; currently patient meeting goal.
   - Appreciate ID input, pt currently on levaquin for [**Name Initial (PRE) 476**], per
   their recs have d/c
d vancomycin, cefepime, azithromycin.
   - Had mini BAL yesterday, gram stain unremarkable, continue to follow
   up results.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - resend sputum given temperature
   #Elevated pancreatic enzymes. Markedly elevated from prior (normal
   [**4-25**]).  Unclear precipitant for pancreatitis. Has not been on propofol
   for some time.  Given pt has HIV, is at risk for extrapulmonary
   manifestations of legionellosis, ? unknown if this has been known to
   affect pancreas.
   -literature search for current meds, risk for pancreatitis (xigris,
   pentobarbital)
   -Monitor hemodynamics, aggressive fluid rescusitation if needed for
   third spacing, caution for now given respiratory status.
   -Continue trophic feeds via NGT, do not advance for now.
   -Continue to monitor Ca, HCT, hemodynamics.
   -Necrotizing pancreatitis may be etiology for fevers, pt currently not
   stable enough for CT, but should consider when possible. Discuss with
   ID need to start meropenem.
   -continue to trenf enzymes
   2. ?DIC.  DIC frequently described sequelae of legionellosis.  Pt has
   had abnormalities in his DIC panel as well as a confusing picture of
   symmetric distal extremity ischemia,  more consistent in appearance
   with vasoocclusion related to pressors (which pt has not received)
   rather than DIC/microangiopathic thrombosis.  The magnitide of the
   digital ischemia is out of proportion to the degree of abnormality of
   DIC. Also on ddx is croglobulinema, pt has HIV which has not been
   associated with increased incidence of DIC, unlike HCV. No known
   history of HCV, last serology here [**2101**].
   - cont to monitor labs; fibrinogen improved this AM
   - cont activated protein C, will have completed today at 1700
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - No need for anticoagulation at this time.  Had IVC filter placed
   yesterday for DVT
   - continue to monitor exam, call vascular surgery if pt develops
   evidence for wet gangrene that could be fuelling sepsis.
   -f/u cryoglobulins (send yesterday, a send out, should take ~10 days)
   -check HCV serology
   3. Hyperthermia. Pt
s fever curve as decreased slightly, however tmax
   still >103F.
   - likely source is infectious- [**Year (4 digits) 476**] known to cause prolonged high
   fevers and course is known to be more severe in HIV positive patients
   however fevers are of impressive duration and severity.  Warrants probe
   for alternative sources of which he has many:
   - ID consulted, appreciate their input. Rec imaging sinuses and torso
   with CT (look for cavitary lesions in lungs, sinuses to look for
   extrapulmonary [**Year (4 digits) 476**], abd to look for other abscess, necrotizing
   pancreatitis).
   - continue levaquin for PNA
   -  found to have DVT in R popliteal/superficial femoral.  s/p IVC
   filter
   - ATC tylenol
   - cooling blankets PRN
   4. Acute Kidney Injury- urine sediment with casts c/w ATN, low SG c/w
   poor concentrating ability.  Cr down slightly to 3.5, persistently
   uremic. No hyperkalemia, still making urine, no indication for dialysis
   at present.
   - cont to monitor.
   - will renally dose medications.
   - started calcium carbonate for calcium/phos product >50 with good
   response.
   5. Hypernatremia- likely in the setting of diuresis and had been NPO
   - Free h20 deficit ~5L, did not respond to free h20 flushes, may not be
   absorbing adequately from GI tract.  Will give D5W, recheck lytes in pm
   and adjust free water repletion accordingly.
   - stopped lasix gtt
   6. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-4-29**] 12:47 PM 10 mL/hour, added TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   -R a-line
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments: air mattress
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU level of care

2106-05-01 08:45:00 Physician Attending Progress Note
Chief Complaint: ARDS, [** **], DVT s/p IVC
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2106-4-30**] 02:18 PM
 SPUTUM CULTURE - At [**2106-4-30**] 04:30 PM
 BAL FLUID CULTURE - At [**2106-4-30**] 06:47 PM
 URINE CULTURE - At [**2106-4-30**] 07:57 PM
 STOOL CULTURE - At [**2106-5-1**] 05:06 AM
 FEVER - 103.6
F - [**2106-4-30**] 02:00 PM
   Aline resited for persistent fevers
   episode of low sugar to 30 last PM
   ID consult- Torso CT and Sinus CT recc. D?C Cefipime and Azithro
   Attempted to wean PEEP but more hypoxemic. But were able to wean FIO2.
   Xigris to end at 5PM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 08:30 AM
   Levofloxacin - [**2106-4-29**] 12:46 PM
   Cefipime - [**2106-4-30**] 07:28 AM
   Azithromycin - [**2106-4-30**] 10:05 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-1**] 12:00 AM
   Dextrose 50% - [**2106-5-1**] 04:53 AM
   Other medications:
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2106-5-1**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.4
C (101.2
   HR: 73 (73 - 126) bpm
   BP: 146/83(103) {129/71(89) - 150/83(103)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CO/CI (CCO): (6 L/min) / (2.7 L/min/m2)
   Total In:
                                                                  2,734 mL
                                                                  1,122 mL
   PO:
   TF:
                                                                    240 mL
                                                                     83 mL
   IVF:
                                                                  1,174 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,050 mL
   Urine:
                                                                  2,300 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    434 mL
                                                                     72 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 28
   PEEP: 22 cmH2O
   FiO2: 40%
   PIP: 45 cmH2O
   Plateau: 35 cmH2O
   SpO2: 92%
   ABG: 7.38/35/120/20/-3
   Ve: 12.1 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: ), no rales
   Abdominal: Soft, Bowel sounds present
   Extremities: bilat hand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   150 K/uL
   111 mg/dL
   3.5 mg/dL
   20 mEq/L
   4.2 mEq/L
   114 mg/dL
   117 mEq/L
   152 mEq/L
   30.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2106-4-29**]  09:29 PM
                             [**2106-4-29**]  11:55 PM
                             [**2106-4-30**]  05:18 AM
                             [**2106-4-30**]  08:13 AM
                             [**2106-4-30**]  03:26 PM
                             [**2106-4-30**]  06:02 PM
                             [**2106-4-30**]  06:58 PM
                             [**2106-4-30**]  10:11 PM
                             [**2106-5-1**]  04:27 AM
                             [**2106-5-1**]  04:57 AM
   WBC
   14.1
   13.4
   Hct
   33.0
   30.9
   30.2
   Plt
   111
   145
   150
   Cr
   3.8
   3.7
   3.5
   TCO2
   23
   24
   23
   23
   21
   21
   22
   Glucose
   129
   111
   Other labs: PT / PTT / INR:25.1/39.7/2.5, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:27/122, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:[**0-0-**], Differential-Neuts:81.0 %, Band:4.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:3.0 %, D-dimer:7462 ng/mL, Fibrinogen:371
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:647 IU/L, Ca++:8.1
   mg/dL, Mg++:3.2 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: UA bland
   Mini BAL
   no microrganisms, cx pending
   Assessment and Plan
   50 yr old man with HIV ARDS [**Year (4 digits) **] DIC ARF and
   1. Resp Failure: ARDS in setting of [**Year (4 digits) **], was doing well
   overnight but this AM has dropped toidal volumes significantly.
   Etiology- question cuff leak, plugging, volume - Check STAT CXR,
   increase FIO2 to 60%. Check cuff pressure.
   2. Increased Pancreatic Enzymes: etiology - medication related,
   ischemia, will trend and try for ABD CT later today. Contimue trophic
   tube feeds
   3. Fevers: pan cultured, concern is for extrapulmonary sources of
   infection
   4. DIC: questionable versus low flow state to explain limb ischemia
   5. ARF: ATN with casts, holding Lasix gtts with [**Last Name (LF) 492**], [**First Name3 (LF) **] need to
   readdress volume status
   6. Hypernatremia: did not respond to free water flushes, changed to IV
   D5W
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-4-30**] 04:18 PM 10 mL/hour
   Add TPN today for adequate nutrition
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-30**] 02:18 PM
   Prophylaxis:
   DVT: IVC filter, boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-05-02 07:16:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, [**Name10 (NameIs) 117**] with ARDS [**2-20**]
   [**Month/Day (2) **] c/b DIC, [**Last Name (un) **], and now pancreatitis
   24 Hour Events:
 FEVER - 102.2
F - [**2106-5-2**] 04:00 AM
   - Free water flushes decreased to q4
   - Given 1L D5W IV for hypernatremia not improved with flushes
   - Some coughing/dyssyncrony with [**Year (4 digits) 494**], given prn versed with good
   effect; plan for transitioning to versed/fentanyl as tolerated
   - Pm lytes with improvement in Na (152->148) and creatinine (3.5->3.0)
   - ID recs: f/u sputum, consider RUQ US for pancreatitis if unstable for
   CT, continue levoflox, monitor fever curve off cefepime, when stable
   would ct sinus and torso
   - ETT advanced, satting well on [**Last Name (LF) 494**], [**First Name3 (LF) **] check CXR for placement in
   am unless decompensates and need arises earlier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2106-4-30**] 07:28 AM
   Azithromycin - [**2106-4-30**] 10:05 AM
   Levofloxacin - [**2106-5-1**] 11:30 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2106-5-1**] 07:23 PM
   Famotidine (Pepcid) - [**2106-5-2**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-2**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.6
C (101.4
   HR: 100 (62 - 100) bpm
   BP: 152/83(102) {124/66(83) - 160/86(107)} mmHg
   RR: 0 (0 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CO/CI (CCO): (6.6 L/min) / (3 L/min/m2)
   Total In:
                                                                  4,237 mL
                                                                    747 mL
   PO:
   TF:
                                                                    241 mL
                                                                     72 mL
   IVF:
                                                                  2,011 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    925 mL
   Urine:
                                                                  2,395 mL
                                                                    925 mL
   NG:
   Stool:
                                                                    575 mL
   Drains:
   Balance:
                                                                  1,267 mL
                                                                   -178 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 28
   PEEP: 22 cmH2O
   FiO2: 50%
   PIP: 46 cmH2O
   Plateau: 39 cmH2O
   SpO2: 95%
   ABG: 7.37/42/107/21/0
   Ve: 18.8 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Gen: sedated, paralyzed
   HEENT: scleral edema, small 1 cm ecchymotic area on right cheek, some
   foamy secretions at mouth
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally, upper airway secretions
   Abd: slightly distended, hypoactive BS, soft, tympanitic. No cullen
   grey-[**Doctor Last Name 493**]
s signs.
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE- appears unchanged from yesterday.
   Labs / Radiology
   163 K/uL
   10.1 g/dL
   115 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   110 mg/dL
   117 mEq/L
   151 mEq/L
   31.2 %
   15.1 K/uL
        [image002.jpg]
                             [**2106-4-30**]  06:58 PM
                             [**2106-4-30**]  10:11 PM
                             [**2106-5-1**]  04:27 AM
                             [**2106-5-1**]  04:57 AM
                             [**2106-5-1**]  11:54 AM
                             [**2106-5-1**]  02:10 PM
                             [**2106-5-1**]  02:51 PM
                             [**2106-5-2**]  04:49 AM
                             [**2106-5-2**]  05:04 AM
                             [**2106-5-2**]  06:59 AM
   WBC
   13.4
   15.1
   Hct
   30.2
   31.2
   Plt
   150
   163
   Cr
   3.5
   3.0
   2.9
   TCO2
   21
   21
   22
   22
   23
   22
   25
   Glucose
   111
   153
   173
   115
   Other labs: PT / PTT / INR:24.8/31.2/2.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:23/102, Alk Phos / T Bili:58/0.3,
   Amylase / Lipase:[**Telephone/Fax (1) 495**], Differential-Neuts:81.0 %, Band:4.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:3.0 %, D-dimer:7462 ng/mL, Fibrinogen:396
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:656 IU/L, Ca++:8.1
   mg/dL, Mg++:2.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC
    #. Respiratory Status: [**Month/Day (2) **] Positive.  PCP negative
   [**Name Initial (PRE) **] Respiratory status continued to improve over the past 24 hours, with
   decreasing Fi02 requirement and resolution of hypercarbia and acidosis
   at same pressure settings, however this am appeared to acutely become
   hypoxic with decreasing TV.  Most likely positional atelectasis vs
   mucous plugging/airway obstruction (RT appreciated partial occlusive ?
   mucous in ETT)
   -Increase Fi02, attempt to suction ETT, pt unlikely to tolerate bronch
   or ETT switch. Will manage conservitavely for now. No weaning down of
   driving pressures/PEEP for now.
   - will cont to wean [**Name Initial (PRE) 494**] settings as tolerated; con
t with
   pentobarbital for now before switching to midaz/fentanyl to prevent
   dysynchrony and try to wean as much as possible
   - goal PaO2 >65; currently patient meeting goal.
   - Appreciate ID input, pt currently on levaquin for [**Name Initial (PRE) 476**], per
   their recs have d/c
d vancomycin, cefepime, azithromycin.
   - Had mini BAL yesterday, gram stain unremarkable, continue to follow
   up results.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - resend sputum given temperature
   #Elevated pancreatic enzymes. Markedly elevated from prior (normal
   [**4-25**]).  Unclear precipitant for pancreatitis. Has not been on propofol
   for some time.  Given pt has HIV, is at risk for extrapulmonary
   manifestations of legionellosis, ? unknown if this has been known to
   affect pancreas.
   -literature search for current meds, risk for pancreatitis (xigris,
   pentobarbital)
   -Monitor hemodynamics, aggressive fluid rescusitation if needed for
   third spacing, caution for now given respiratory status.
   -Continue trophic feeds via NGT, do not advance for now.
   -Continue to monitor Ca, HCT, hemodynamics.
   -Necrotizing pancreatitis may be etiology for fevers, pt currently not
   stable enough for CT, but should consider when possible. Discuss with
   ID need to start meropenem.
   -continue to trenf enzymes
   2. ?DIC.  DIC frequently described sequelae of legionellosis.  Pt has
   had abnormalities in his DIC panel as well as a confusing picture of
   symmetric distal extremity ischemia,  more consistent in appearance
   with vasoocclusion related to pressors (which pt has not received)
   rather than DIC/microangiopathic thrombosis.  The magnitide of the
   digital ischemia is out of proportion to the degree of abnormality of
   DIC. Also on ddx is croglobulinema, pt has HIV which has not been
   associated with increased incidence of DIC, unlike HCV. No known
   history of HCV, last serology here [**2101**].
   - cont to monitor labs; fibrinogen improved this AM
   - cont activated protein C, will have completed today at 1700
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - No need for anticoagulation at this time.  Had IVC filter placed
   yesterday for DVT
   - continue to monitor exam, call vascular surgery if pt develops
   evidence for wet gangrene that could be fuelling sepsis.
   -f/u cryoglobulins (send yesterday, a send out, should take ~10 days)
   -check HCV serology
   3. Hyperthermia. Pt
s fever curve as decreased slightly, however tmax
   still >103F.
   - likely source is infectious- [**Year (4 digits) 476**] known to cause prolonged high
   fevers and course is known to be more severe in HIV positive patients
   however fevers are of impressive duration and severity.  Warrants probe
   for alternative sources of which he has many:
   - ID consulted, appreciate their input. Rec imaging sinuses and torso
   with CT (look for cavitary lesions in lungs, sinuses to look for
   extrapulmonary [**Year (4 digits) 476**], abd to look for other abscess, necrotizing
   pancreatitis).
   - continue levaquin for PNA
   -  found to have DVT in R popliteal/superficial femoral.  s/p IVC
   filter
   - ATC tylenol
   - cooling blankets PRN
   4. Acute Kidney Injury- urine sediment with casts c/w ATN, low SG c/w
   poor concentrating ability.  Cr down slightly to 3.5, persistently
   uremic. No hyperkalemia, still making urine, no indication for dialysis
   at present.
   - cont to monitor.
   - will renally dose medications.
   - started calcium carbonate for calcium/phos product >50 with good
   response.
   5. Hypernatremia- likely in the setting of diuresis and had been NPO
   - Free h20 deficit ~5L, did not respond to free h20 flushes, may not be
   absorbing adequately from GI tract.  Will give D5W, recheck lytes in pm
   and adjust free water repletion accordingly.
   - stopped lasix gtt
   6. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-1**] 05:06 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-30**] 02:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-02 10:13:00 Physician Attending Progress Note
Chief Complaint: ARDS
   24 Hour Events:
 FEVER - 102.2
F - [**2106-5-2**] 04:00 AM
   Did have an epsiode of acute loss of tidal volumes, appeared to be
   mucus plug in ETT and resolved with suctioning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2106-4-30**] 07:28 AM
   Azithromycin - [**2106-4-30**] 10:05 AM
   Levofloxacin - [**2106-5-1**] 11:30 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2106-5-1**] 07:23 PM
   Famotidine (Pepcid) - [**2106-5-2**] 12:21 AM
   Other medications:
   chlorhex, SSRI, Atrovent, PPI,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: fevers
   Flowsheet Data as of  [**2106-5-2**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 95 (62 - 100) bpm
   BP: 144/77(96) {124/66(83) - 160/86(107)} mmHg
   RR: 280 (0 - 280) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CO/CI (CCO): (6.6 L/min) / (3 L/min/m2)
   Total In:
                                                                  4,237 mL
                                                                  1,120 mL
   PO:
   TF:
                                                                    241 mL
                                                                    100 mL
   IVF:
                                                                  2,011 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                  1,480 mL
   Urine:
                                                                  2,395 mL
                                                                  1,480 mL
   NG:
   Stool:
                                                                    575 mL
   Drains:
   Balance:
                                                                  1,267 mL
                                                                   -360 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 26 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 40%
   PIP: 45 cmH2O
   Plateau: 39 cmH2O
   SpO2: 97%
   ABG: 7.37/42/107/21/0
   Ve: 15.7 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Gen: intubated and sedated, lying in bed
   Heent: ETT, OGT
   CV: RR
   Chest: fair air movement no wheezes
   Abd: distended, soft, min BS
   Ext: ++ scrotal edema
   Neuro: quite sedated, respinds to noxious stimuli
   Labs / Radiology
   10.1 g/dL
   163 K/uL
   115 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   110 mg/dL
   117 mEq/L
   151 mEq/L
   31.2 %
   15.1 K/uL
        [image002.jpg]
                             [**2106-4-30**]  06:58 PM
                             [**2106-4-30**]  10:11 PM
                             [**2106-5-1**]  04:27 AM
                             [**2106-5-1**]  04:57 AM
                             [**2106-5-1**]  11:54 AM
                             [**2106-5-1**]  02:10 PM
                             [**2106-5-1**]  02:51 PM
                             [**2106-5-2**]  04:49 AM
                             [**2106-5-2**]  05:04 AM
                             [**2106-5-2**]  06:59 AM
   WBC
   13.4
   15.1
   Hct
   30.2
   31.2
   Plt
   150
   163
   Cr
   3.5
   3.0
   2.9
   TCO2
   21
   21
   22
   22
   23
   22
   25
   Glucose
   111
   153
   173
   115
   Other labs: PT / PTT / INR:24.8/31.2/2.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:23/102, Alk Phos / T Bili:58/0.3,
   Amylase / Lipase:[**Telephone/Fax (1) 495**], Differential-Neuts:81.0 %, Band:4.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:3.0 %, D-dimer:7462 ng/mL, Fibrinogen:396
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:656 IU/L, Ca++:8.1
   mg/dL, Mg++:2.9 mg/dL, PO4:2.6 mg/dL
   Microbiology: C diff neg
   Mini BAL: CMV pending
   CXR: ett now advanced, stable bilat interstitial infiltrates
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC, ARF
   who remains critically ill requiring full ventilatory support
   1. Resp Failure: ARDS in setting of [**Month/Day (2) **].
   On PCV: 26/22/0.4 with TV 560 to 620
 given ABG we will drop to 24/20
   and recheck ABG -
   2. Increased Pancreatic Enzymes: etiology
 [**Month/Day (2) 476**] itself (case
   reports), medication related (case report pentobarb in animals),
   ischemia, will trend. Continue trophic tube feeds and will need to
   consult nutrition and add TPN to meet calorie needs.
   [**Month (only) 51**] need abd CT to eval for necrosis, cysts, when resp status stable
   for travel with [**Month (only) 494**].
   3. Persistent Fevers: pan cultured, concern is for extrapulmonary
   sources of infection
try to bring down for non con CT
   All follow up cultures neg to date
 repeat blood cultuires today.
   Check diff for eos (drug fever- though doubt)
   4. DIC: questionable versus low flow state to explain limb ischemia,
   trend labs
 plts coags FDP fibrinogen stable stable.
   5. ARF: ATN with casts, holding Lasix gtts with [**Last Name (LF) 492**], [**First Name3 (LF) **] need to
   readdress if UOP trends down
   6. Hypernatremia: did not respond to free water flushes, changed to IV
   D5W, trend this evening and increase as needed
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-1**] 05:06 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-30**] 02:18 PM
   Prophylaxis:
   DVT: IVC filter
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:  updated family
   Code status: DNR (do not resuscitate)
   Disposition : ICU care
   Critically Ill
   Total time spent: 45

2106-05-03 07:32:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, [**Name10 (NameIs) 117**] with ARDS [**2-20**]
   [**Month/Day (2) 476**] c/b DIC, [**Last Name (un) **], and pancreatitis
   24 Hour Events:
 FEVER - 102.2
F - [**2106-5-2**] 08:00 AM
   - had the problem with TVs going down to 0 again.  Tried suctioning but
   nothing really coming up.  CXR without any changes.  ETT in place.  RT
   adjusted placement slightly without actually advancing tube, and TV
   normalized.
   - had decreased PEEP down to 18 and FiO2 to 40%, then had to increase
   FiO2 in the setting of the desats/hypercarbia from decreased TV
   - given 2LD5W over 24 HRS + free water flushes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2106-4-30**] 07:28 AM
   Azithromycin - [**2106-4-30**] 10:05 AM
   Levofloxacin - [**2106-5-1**] 11:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-3**] 12:01 AM
   Midazolam (Versed) - [**2106-5-3**] 01:51 AM
   Lorazepam (Ativan) - [**2106-5-3**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-3**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.6
C (101.4
   HR: 85 (85 - 110) bpm
   BP: 109/58(71) {109/58(71) - 157/85(105)} mmHg
   RR: 0 (0 - 280) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,763 mL
                                                                  1,605 mL
   PO:
             TF:
                                                                    241 mL
                                                                     72 mL
   IVF:
                                                                  2,580 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                  1,225 mL
   Urine:
                                                                  3,340 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,223 mL
                                                                    380 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   PIP: 41 cmH2O
   Plateau: 34 cmH2O
   SpO2: 97%
   ABG: 7.34/48/99.[**Numeric Identifier 126**]/24/0
   Ve: 15.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Gen: sedated
   HEENT: scleral edema, foamy secretions at mouth
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally, upper airway secretions
   Abd: slightly distended, hypoactive BS, soft, tympanitic. No cullen
   grey-[**Doctor Last Name 493**]
s signs.
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE- appears unchanged from yesterday.
   Labs / Radiology
   216 K/uL
   9.1 g/dL
   159 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.0 mEq/L
   103 mg/dL
   115 mEq/L
   149 mEq/L
   28.2 %
   14.0 K/uL
        [image002.jpg]
                             [**2106-5-1**]  02:51 PM
                             [**2106-5-2**]  04:49 AM
                             [**2106-5-2**]  05:04 AM
                             [**2106-5-2**]  06:59 AM
                             [**2106-5-2**]  12:04 PM
                             [**2106-5-2**]  08:30 PM
                             [**2106-5-3**]  02:08 AM
                             [**2106-5-3**]  02:30 AM
                             [**2106-5-3**]  02:40 AM
                             [**2106-5-3**]  06:26 AM
   WBC
   15.1
   14.0
   Hct
   31.2
   28.2
   Plt
   163
   216
   Cr
   2.9
   2.4
   TCO2
   23
   22
   25
   25
   25
   29
   27
   27
   Glucose
   115
   124
   159
   Other labs: PT / PTT / INR:20.0/32.4/1.9, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:37/132, Alk Phos / T Bili:57/0.4,
   Amylase / Lipase:[**0-0-**], Differential-Neuts:85.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:396
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:634 IU/L, Ca++:8.0
   mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC, [**Last Name (un) **],
   and pancreatitis
    #. Respiratory Status: [**Last Name (un) **] Positive.  PCP negative
   [**Name Initial (PRE) **] overnight- decreased TVs to 0.  thought to be possibly due to ET tube
   rather than primary pulmonary process.  CXR without any changes. ETT
   well placed.  [**Month (only) 51**] need to consider changing ETT.  [**Month (only) 51**] also consider
   switching to trach instead
   - will cont to wean [**Month (only) 494**] settings as tolerated; con
t with
   pentobarbital for now before switching to midaz/fentanyl to prevent
   dysynchrony and try to wean as much as possible
   - current [**Month (only) 494**] settings with FiO2 at 40% and PEEP at 18; will cont to
   decrease PEEP as tolerated
   - goal PaO2 >65; currently patient meeting goal.
   - Appreciate ID input, pt currently on levaquin for [**Month (only) 476**], per
   their recs have d/c
d vancomycin, cefepime, azithromycin.
   - Mini-BAL results- pending.  Still NGTD.  PCP [**Name Initial (PRE) 442**].  Prelim
   cultures negative.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   #Elevated pancreatic enzymes. Markedly elevated from prior (normal
   [**4-25**]).  Unclear precipitant for pancreatitis.
   - no inciting factor noted at this time.
   -Continue trophic feeds via NGT, do not advance for now.
   -Continue to monitor Ca, HCT, hemodynamics.
   -Necrotizing pancreatitis may be etiology for fevers.  Will need to
   discuss changing ETT and making sure from respiratory standpoint
   patient is stable prior to considering CT scan.
   -continue to trend enzymes
   #.  DIC.
   - INR now improving.
   - APC stopped on [**2106-5-1**]
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - No need for anticoagulation at this time.  Had IVC filter placed for
   DVT
   - continue to monitor exam, call vascular surgery if pt develops
   evidence for wet gangrene that could be fuelling sepsis.
   -f/u cryoglobulins; HCV serology pending
   #. Hyperthermia. Continues to spike despite abx.
   - likely source is infectious- [**Date Range 476**] known to cause prolonged high
   fevers and course is known to be more severe in HIV positive patients
   however fevers are of impressive duration and severity.  warrants probe
   for alternative sources of which he has many:
   - ID consulted, appreciate their input. Rec imaging sinuses and torso
   with CT (look for cavitary lesions in lungs, sinuses to look for
   extrapulmonary [**Date Range 476**], abd to look for other abscess, necrotizing
   pancreatitis).  Will need to hold off on CT scanning until pulmonary
   status stabilizes somewhat.  Possibly re-evaluate in AM if [**Date Range 494**]
   settings are decreased.  Would also be helpful in the setting of
   pancreatitis
   - continue levaquin for PNA
   -  found to have DVT in R popliteal/superficial femoral.  s/p IVC
   filter
   - ATC tylenol
   - cooling blankets PRN
   4. Acute Kidney Injury- urine sediment with casts c/w ATN.  Cr
   improving. No hyperkalemia, still making urine, no indication for
   dialysis at present.
   - cont to monitor.
   - will renally dose medications.
   - cont calcium carbonate for calcium/phos product >50 with good
   response.  [**Month (only) 51**] consider stopping soon as creatinine continues to
   improve
   5. Hypernatremia- likely in the setting of diuresis and had been NPO
   - Free h20 deficit ~4L, did not respond fully to free h20 flushes, may
   not be absorbing adequately from GI tract.  Will give D5W, recheck
   lytes in pm and adjust free water repletion accordingly.
   - stopped lasix gtt
   6. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   TPN without Lipids - [**2106-5-2**] 05:30 PM 43.[**Telephone/Fax (5) 496**] mL/hour
   Replete with Fiber (Full) - [**2106-5-2**] 05:55 PM 10 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-30**] 02:18 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care

2106-05-04 07:57:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP pna, now [**Name Initial (PRE) **]/ ARDS [**2-20**]
   [**Month/Day (2) 476**] c/b DIC, [**Last Name (un) **], pancreatitis continuing to spike fevers
   24 Hour Events:
 FEVER - 104.5
F - [**2106-5-4**] 02:00 AM
   -Decreased PEEP to 16, Fi02 increased to 50%, decreased PEEP to 14, gas
   initially improved, then while spiking (see below), got worse. Planned
   to monitor and recheck later in the morning when less febrile. No
   change made to [**Year (4 digits) 494**] settings.
   -CT done, increased mucosal thickening of sinuses, no evidence
   abdominal abscess, pancreatic necrosis/hemorrhage/fat stranding.
   -started on heparin gtt after CT showed no hemorrhagic pancreatitis to
   tx DVT, pt had red tinged sputum and high fevers, desatting. Heparin
   gtt stopped after 6 hours due to concern for bleed.
   -febrile to 104.5
   -started weaning pentobarb per pharmacists protocol, increased fentanyl
   x 12 hours, then [**1-20**]'d pentobarb and started midaz gtt, will need to
   half pentobarb again to 0.75mg/kg/hour at 5pm to continue taper.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-5-3**] 12:00 PM
   Infusions:
   Pentobarbital - 1.5 mg/Kg/hour
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-4**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.5
   Tcurrent: 39.2
C (102.6
   HR: 100 (85 - 103) bpm
   BP: 123/62(78) {104/49(64) - 128/63(80)} mmHg
   RR: 28 (28 - 98) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  5,861 mL
                                                                  1,784 mL
   PO:
             TF:
                                                                    388 mL
                                                                    162 mL
   IVF:
                                                                  2,694 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  4,020 mL
                                                                  1,290 mL
   Urine:
                                                                  4,020 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,841 mL
                                                                    494 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.29/54/74/23/-1
   Ve: 14.9 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   8.2 g/dL
   150 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   89 mg/dL
   116 mEq/L
   142
   25.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2106-5-2**]  08:30 PM
                             [**2106-5-3**]  02:08 AM
                             [**2106-5-3**]  02:30 AM
                             [**2106-5-3**]  02:40 AM
                             [**2106-5-3**]  06:26 AM
                             [**2106-5-3**]  11:26 AM
                             [**2106-5-3**]  06:14 PM
                             [**2106-5-3**]  07:31 PM
                             [**2106-5-4**]  04:24 AM
                             [**2106-5-4**]  04:25 AM
   WBC
   14.0
   8.5
   Hct
   28.2
   25.9
   Plt
   216
   214
   Cr
   2.4
   2.2
   TCO2
   25
   29
   27
   27
   26
   29
   27
   27
   Glucose
   159
   150
   Other labs: PT / PTT / INR:18.0/39.1/1.6, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:47/139, Alk Phos / T Bili:55/0.5,
   Amylase / Lipase:294/877, Differential-Neuts:85.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:643 IU/L, Ca++:7.7
   mg/dL, Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   CT TORSO:
   IMPRESSION:
   1. Bilateral moderate pleural effusion with multifocal opacifications
   and
   peripheral ground-glass opacities, may reflect multifocal pneumonia. In
   the
   setting of immunocompromised status, PCP pneumonia cannot be excluded.
   No
   evidence of intra-abdominal abscesses, fluid collections, or
   pancreatitis.
   2. There is evidence of nonspecific focus of stranding with a rounded
   hyperattenuating focus in the left groin. Correlation with recent
   central line
   intervention or hernia repair is recommended.
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC, [**Last Name (un) **],
   and pancreatitis
    #. Respiratory Status: [**Last Name (un) **] Positive.  PCP negative
   [**Name Initial (PRE) **] PEEP decreased, FiO2 50%.  With elevated temp, has respiratory
   acidosis.  Will need to decrease temp rather than making changes to
   driving pressure or RR to improve acidosis.
   - will cont to wean [**Name Initial (PRE) 494**] settings as tolerated; pentobarb on weaning
   protocol.  Fent/midaz started.  Titrate up to sedation while turning
   pentobarb to off
   - current [**Name Initial (PRE) 494**] settings with FiO2 at 50% and PEEP at 14; will cont to
   decrease PEEP as tolerated
   - goal PaO2 >65; currently patient meeting goal.
   - Appreciate ID input, pt currently on levaquin for [**Name Initial (PRE) 476**].  Will
   need to 2 more days
   - Mini-BAL results- pending.  Still NGTD.  PCP [**Name Initial (PRE) 442**].  Prelim
   cultures negative.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - has moderate sized R>L pleural effusion.  Will evaluate for
   diagnostic thoracentesis, but may need IP to evaluate since patient is
   supine with difficult ventilation
   #. Hypotension: ddx includes sepsis, poor cardiac output, intravascular
   volume depletion [**2-20**] high fevers
   -  good UOP makes volume depletion less likely; last C.I. on vigileo
   was >3.
   -  start vanco/cefipime for broad spectrum coverage for possible sepsis
   -  LR 500 cc bolus to see if BP responds to fluid; check CVP before
   after.  Attempt up to 2L of fluid boluses to attain MAP>65 and if not
   there, may consider pressors to keep MAP>65
   #Elevated pancreatic enzymes. Markedly elevated from prior (normal
   [**4-25**]).  Unclear precipitant for pancreatitis.
   - no inciting factor noted at this time. CT without evidence of
   pancreatitis.  Likely medication induced; or possibly [**2-20**] hypotension
   -Continue tube feedsand titrate up to goal per nutrition
   -Continue to monitor Ca, HCT, hemodynamics.
   -continue to trend enzymes- improving
   #.  DIC.
   - INR now improving.
   - APC stopped on [**2106-5-1**]
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - No need for anticoagulation at this time.  Had IVC filter placed for
   DVT.  Had blood in the ETT after starting heparin gtt for DVT; will
   hold for now and cont to monitor HCT
   - continue to monitor exam.  Consult vascular surgery today to evaluate
   digits
   -cryoglobulins and HCV- negative
   #. Hyperthermia. Continues to spike despite abx.
   - likely source is infectious- [**Date Range 476**] known to cause prolonged high
   fevers and course is known to be more severe in HIV positive patients
   however fevers are of impressive duration and severity.  warrants probe
   for alternative sources of which he has many:
   - ID consulted, appreciate their input. CT sinus/torso without evidence
   of source of infection.  Though patient does have pleural effusion so
   need to consider thoracentesis.  [**Month (only) 51**] need IP to do [**Female First Name (un) 217**]
   - continue levaquin for PNA.  Will restart vanco/cefipime for broad
   spectrum coverage.  Pan culture
   -  found to have DVT in R popliteal/superficial femoral.  s/p IVC
   filter
   - may need to consider CT head to look for central source; also to eval
   for herniation.  [**Month (only) 51**] need for LP for meningitis but first would need CT
   head
   - change central line site today.  Possible source for fever.  [**Month (only) 51**] also
   consider TEE to eval for endocarditis though TTE without evidence of
   valvular disease and blood cultures negative still
   - ATC tylenol
   - cooling blankets PRN
   4. Acute Kidney Injury- urine sediment with casts c/w ATN.  Cr
   improving. No hyperkalemia, still making urine, no indication for
   dialysis at present.
   - cont to monitor.  Esp post CT scan
   - will renally dose medications.
   - stop calcium carbonate
   5. Hypernatremia-
   - Free H2O deficit improving; cont free H2O flushes 350 cc/4H.  Will
   give 1/2NS in 500cc boluses for fluid rescucitation in the setting of
   pancreatitis without much increasing Na
   - stopped lasix gtt
   6. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2106-5-3**] 06:08 PM 75 mL/hour
   Replete with Fiber (Full) - [**2106-5-4**] 02:12 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-4-24**] 03:12 PM
   Arterial Line - [**2106-4-30**] 02:18 PM
   22 Gauge - [**2106-5-4**] 12:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-05 07:45:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP pna, ARDS with [** 476**],
   c/b DIC, [**Last Name (un) **], pancreatitis
   24 Hour Events:
 PAN CULTURE - At [**2106-5-4**] 10:36 AM
 MULTI LUMEN - START [**2106-5-4**] 05:45 PM
 MULTI LUMEN - STOP [**2106-5-4**] 06:32 PM
 FEVER - 102.4
F - [**2106-5-5**] 12:00 AM
   - IJ re-sited on left, right catheter tip sent for culture
   - Vascular consult: No acute surgical intervention, will likely require
   amptations at later date. They mentioned considering a Rheum consult
   for CT disorder such as Rayaud's. Consult not yet staffed.
   - ID recs: Re-site IJ (done), consider [**Female First Name (un) 217**] given efffusions vs.
   empyema, q24 hour cultures, levaquin day #10
   - Vanc and Cefepime added given hypotension and persistent high fevers
   - TF increased to 30, advancing to goal of 75cc/hr
   - No [**Female First Name (un) 217**] today, consent obtained from family. Will be difficult, IP
   aware
   - Attempted to wean pentabarb, increased fentanyl and versed, still
   with dysynchrony with [**Female First Name (un) 494**] (gas 7.19/71) -> increased pentobarb to
   1.5mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-5-3**] 12:00 PM
   Cefipime - [**2106-5-4**] 06:31 PM
   Vancomycin - [**2106-5-4**] 08:09 PM
   Infusions:
   Pentobarbital - 1.5 mg/Kg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2106-5-4**] 01:27 PM
   Famotidine (Pepcid) - [**2106-5-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-5**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 90 (82 - 111) bpm
   BP: 100/47(61) {84/40(51) - 112/54(69)} mmHg
   RR: 28 (28 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  5,977 mL
                                                                  1,072 mL
   PO:
   TF:
                                                                    422 mL
                                                                    272 mL
   IVF:
                                                                  2,015 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  3,405 mL
                                                                    800 mL
   Urine:
                                                                  3,230 mL
                                                                    800 mL
   NG:
                                                                    175 mL
   Stool:
   Drains:
   Balance:
                                                                  2,572 mL
                                                                    272 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 24 cmH2O
   RR (Set): 28
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 29 cmH2O
   SpO2: 91%
   ABG: 7.24/64/91/23/-1
   Ve: 17.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen: sedated
   HEENT: scleral edema, foamy secretions at mouth
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally, upper airway secretions
   Abd: slightly distended, hypoactive BS, soft, tympanitic. No cullen
   grey-[**Doctor Last Name 493**]
s signs.
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE- appears unchanged from yesterday.
   Labs / Radiology
   255 K/uL
   8.2 g/dL
   167 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.7 mEq/L
   93 mg/dL
   115 mEq/L
   145 mEq/L
   25.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2106-5-3**]  11:26 AM
                             [**2106-5-3**]  06:14 PM
                             [**2106-5-3**]  07:31 PM
                             [**2106-5-4**]  04:24 AM
                             [**2106-5-4**]  04:25 AM
                             [**2106-5-4**]  11:24 AM
                             [**2106-5-4**]  06:27 PM
                             [**2106-5-4**]  10:40 PM
                             [**2106-5-5**]  03:50 AM
                             [**2106-5-5**]  04:06 AM
   WBC
   8.5
   10.3
   Hct
   25.9
   25.4
   Plt
   214
   255
   Cr
   2.2
   2.1
   TCO2
   26
   29
   27
   27
   27
   29
   28
   29
   Glucose
   150
   116
   167
   Other labs: PT / PTT / INR:15.1/30.3/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:47/139, Alk Phos / T Bili:55/0.5,
   Amylase / Lipase:294/877, Differential-Neuts:85.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:643 IU/L, Ca++:7.7
   mg/dL, Mg++:2.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC, [**Last Name (un) **],
   and pancreatitis
     #. Respiratory Status: [**Last Name (un) **] Positive.  PCP negative
   [**Name Initial (PRE) **] PEEP decreased, FiO2 50%.  With elevated temp, has respiratory
   acidosis.  Will need to decrease temp rather than making changes to
   driving pressure or RR to improve acidosis.
   - will cont to wean [**Name Initial (PRE) 494**] settings as tolerated; pentobarb on weaning
   protocol.  Fent/midaz started.  Titrate up to sedation while turning
   pentobarb to off
   - current [**Name Initial (PRE) 494**] settings with FiO2 at 50% and PEEP at 14; will cont to
   decrease PEEP as tolerated
   - goal PaO2 >65; currently patient meeting goal.
   - Appreciate ID input, pt currently on levaquin for [**Name Initial (PRE) 476**].  Will
   need to 2 more days
   - Mini-BAL results- pending.  Still NGTD.  PCP [**Name Initial (PRE) 442**].  Prelim
   cultures negative.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - has moderate sized R>L pleural effusion.  Will evaluate for
   diagnostic thoracentesis, but may need IP to evaluate since patient is
   supine with difficult ventilation
   #. Hypotension: ddx includes sepsis, poor cardiac output, intravascular
   volume depletion [**2-20**] high fevers
   -  good UOP makes volume depletion less likely; last C.I. on vigileo
   was >3.
   -  start vanco/cefipime for broad spectrum coverage for possible sepsis
   -  LR 500 cc bolus to see if BP responds to fluid; check CVP before
   after.  Attempt up to 2L of fluid boluses to attain MAP>65 and if not
   there, may consider pressors to keep MAP>65
   #Elevated pancreatic enzymes. Markedly elevated from prior (normal
   [**4-25**]).  Unclear precipitant for pancreatitis.
   - no inciting factor noted at this time. CT without evidence of
   pancreatitis.  Likely medication induced; or possibly [**2-20**] hypotension
   -Continue tube feedsand titrate up to goal per nutrition
   -Continue to monitor Ca, HCT, hemodynamics.
   -continue to trend enzymes- improving
   #.  DIC.
   - INR now improving.
   - APC stopped on [**2106-5-1**]
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - No need for anticoagulation at this time.  Had IVC filter placed for
   DVT.  Had blood in the ETT after starting heparin gtt for DVT; will
   hold for now and cont to monitor HCT
   - continue to monitor exam.  Consult vascular surgery today to evaluate
   digits
   -cryoglobulins and HCV- negative
   #. Hyperthermia. Continues to spike despite abx.
   - likely source is infectious- [**Date Range 476**] known to cause prolonged high
   fevers and course is known to be more severe in HIV positive patients
   however fevers are of impressive duration and severity.  warrants probe
   for alternative sources of which he has many:
   - ID consulted, appreciate their input. CT sinus/torso without evidence
   of source of infection.  Though patient does have pleural effusion so
   need to consider thoracentesis.  [**Month (only) 51**] need IP to do [**Female First Name (un) 217**]
   - continue levaquin for PNA.  Will restart vanco/cefipime for broad
   spectrum coverage.  Pan culture
   -  found to have DVT in R popliteal/superficial femoral.  s/p IVC
   filter
   - may need to consider CT head to look for central source; also to eval
   for herniation.  [**Month (only) 51**] need for LP for meningitis but first would need CT
   head
   - change central line site today.  Possible source for fever.  [**Month (only) 51**] also
   consider TEE to eval for endocarditis though TTE without evidence of
   valvular disease and blood cultures negative still
   - ATC tylenol
   - cooling blankets PRN
   4. Acute Kidney Injury- urine sediment with casts c/w ATN.  Cr
   improving. No hyperkalemia, still making urine, no indication for
   dialysis at present.
   - cont to monitor.  Esp post CT scan
   - will renally dose medications.
   - stop calcium carbonate
   5. Hypernatremia-
   - Free H2O deficit improving; cont free H2O flushes 350 cc/4H
   - stopped lasix gtt
   6. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2106-5-4**] 05:58 PM 75 mL/hour
   Replete with Fiber (Full) - [**2106-5-5**] 03:16 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   22 Gauge - [**2106-5-4**] 12:16 AM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-06 07:57:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, [**Name Initial (NameIs) 476**] [**2-20**] ARDS, c/b
   DIC, [**Last Name (un) **], pancreatitis
   24 Hour Events:
 FEVER - 103.2
F - [**2106-5-5**] 08:00 AM
   - switched from PC to AC with good result.  Off the pentobarb.  Less
   dysynchrony with good oxygenation/ventilation
   - continues to spike- still no source
   - ID recommends cont vanco/cefepime for ~72 hrs- if all cultures
   negative, to stop
   - IP unable to do [**Female First Name (un) 217**] because of scheduling conflicts, will attempt
   to come by today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-5-5**] 11:34 AM
   Cefipime - [**2106-5-5**] 08:28 PM
   Vancomycin - [**2106-5-5**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-6**] 12:23 AM
   Midazolam (Versed) - [**2106-5-6**] 12:30 AM
   Fentanyl - [**2106-5-6**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-6**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.4
C (101.2
   HR: 102 (91 - 107) bpm
   BP: 125/56(75) {101/45(63) - 136/60(300)} mmHg
   RR: 24 (24 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 9 (7 - 9)mmHg
   Total In:
                                                                  5,327 mL
                                                                  1,952 mL
   PO:
   TF:
                                                                  1,265 mL
                                                                    594 mL
   IVF:
                                                                  1,112 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                  1,190 mL
   Urine:
                                                                  3,115 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,212 mL
                                                                    762 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.28/48/99.[**Numeric Identifier 508**]/22/-4
   Ve: 15 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: sedated
   HEENT: scleral edema, foamy secretions at mouth
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally, upper airway secretions
   Abd: slightly distended, hypoactive BS, soft, tympanitic. No cullen
   grey-[**Doctor Last Name 493**]
s signs.
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE- appears unchanged from yesterday.
   Labs / Radiology
   285 K/uL
   7.7 g/dL
   173 mg/dL
   2.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   95 mg/dL
   116 mEq/L
   148 mEq/L
   24.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2106-5-4**]  04:25 AM
                             [**2106-5-4**]  11:24 AM
                             [**2106-5-4**]  06:27 PM
                             [**2106-5-4**]  10:40 PM
                             [**2106-5-5**]  03:50 AM
                             [**2106-5-5**]  04:06 AM
                             [**2106-5-5**]  11:30 AM
                             [**2106-5-5**]  05:30 PM
                             [**2106-5-6**]  04:33 AM
                             [**2106-5-6**]  05:03 AM
   WBC
   10.3
   6.7
   Hct
   25.4
   24.4
   Plt
   255
   285
   Cr
   2.1
   2.5
   TCO2
   27
   27
   29
   28
   29
   24
   24
   24
   Glucose
   116
   167
   164
   172
   173
   Other labs: PT / PTT / INR:14.5/33.7/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:47/139, Alk Phos / T Bili:55/0.5,
   Amylase / Lipase:294/877, Differential-Neuts:85.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:643 IU/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] [**Month/Day (2) **] c/b DIC, [**Last Name (un) **],
   and pancreatitis
   #. Respiratory Status: [**Last Name (un) **] Positive.  PCP negative
   [**Name Initial (PRE) **] PEEP decreased to 14, FiO2 5o%.  With dysynchrony, patient become
   more acidemic; but with sedation, acidemia improving.
   - Will try to switch to AC today with FiO2 50%, PEEP 14, and TV around
   550 (which is what he
s doing now) to see if patient has less
   dysynchrony.  If ABG looks good, will then try to wean off
   pentobarbital and switch back to midaz/fentanyl.
   - goal PaO2 >65; currently patient meeting goal.
   - Appreciate ID input, pt currently on levaquin for [**Name Initial (PRE) 476**].  Will
   need to 2 more days
   - Mini-BAL results- NGTD.  PCP [**Name Initial (PRE) 442**].
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - has moderate sized R>L pleural effusion.  Will ask IP to evaluate
   since patient is supine with difficult ventilation and difficult to
   visualize with ultrasound
   #. Hypotension: ddx includes sepsis, poor cardiac output, intravascular
   volume depletion [**2-20**] high fevers- improving now
   -  good UOP makes volume depletion less likely; last C.I. on vigileo
   was >3.
   -  cont vanco/cefipime for broad spectrum coverage for possible
   sepsis.  WBC maintaining despite high temperatures.
   #.  DIC.
   - INR now improving.
   - APC stopped on [**2106-5-1**]
   - transfusion parameters- if Hct<25, cryo for fibrinogen <100, plts if
   less than 35 though may worsen coagulopathy.
   - No need for anticoagulation at this time.  Had IVC filter placed for
   DVT.  Had blood in the ETT after starting heparin gtt for DVT; will
   hold for now and cont to monitor HCT
   - continue to monitor exam.  Appreciate vascular surgery- will likely
   need amputation in the future, but not at this time. Will continue to
   follow.
   -cryoglobulins and HCV- negative
   #. Hyperthermia. Continues to spike despite abx.
   - likely source is infectious vs central- [**Date Range 476**] known to cause
   prolonged high fevers and course is known to be more severe in HIV
   positive patients however fevers are of impressive duration and
   severity.  warrants probe for alternative sources of which he has many
    - ID consulted, appreciate their input. CT sinus/torso without
   evidence of source of infection.  Though patient does have pleural
   effusion so need to consider thoracentesis.  [**Month (only) 51**] need IP to do [**Female First Name (un) 217**]
   - continue levaquin for PNA.  on vanco/cefipime for broad spectrum
   coverage.  Pan culture
   -  found to have DVT in R popliteal/superficial femoral.  s/p IVC
   filter
   - may need to consider CT head to look for central source; also to eval
   for herniation.  [**Month (only) 51**] need for LP for meningitis but first would need CT
   head.  Will hold off today while adjust vent settings.  [**Month (only) 51**] be
   something to do this PM or tomorrow if patient tolerates AC and ABG is
   good
   - central line re-sited.  Culture of tip pending.  Possible source for
   fever.  [**Month (only) 51**] also consider TEE to eval for endocarditis though TTE
   without evidence of valvular disease and blood cultures negative
   - sent fungal cultures; not covering for fungal though unlikely.
   - ATC tylenol
   - cooling blankets PRN
   #. Acute Kidney Injury- urine sediment with casts c/w ATN.  Cr
   improving. No hyperkalemia, still making urine, no indication for
   dialysis at present.
   - cont to monitor.  Esp post CT scan
   - will renally dose medications.
   #. Hypernatremia-
   -  Free H2O deficit improving; cont free H2O flushes 350 cc/4H.  may
   need to decrease if sodium continues to decline
   #Elevated pancreatic enzymes- improving now.
   - no inciting factor noted at this time. CT without evidence of
   pancreatitis.  Likely medication induced; or possibly [**2-20**] hypotension
   -Continue tube feedsand titrate up to goal per nutrition
   #. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2106-5-5**] 05:48 PM 75 mL/hour
   Replete with Fiber (Full) - [**2106-5-6**] 03:50 AM 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   22 Gauge - [**2106-5-4**] 12:16 AM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care

2106-05-07 07:04:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, [**Name Initial (NameIs) 509**] [**2-20**] [**Month/Day (2) 476**], c/b
   [**Last Name (un) **], DIC, pancreatitis, DVT, and persistant high fevers of unclear
   etiology
   24 Hour Events:
 FEVER - 102.6
F - [**2106-5-7**] 04:00 AM
   -ETT pulled back
   -TPN stopped
   -Decreased PEEP to 12 ABG:  7.26/49/82, pt on AC overbreathing by 4,
   increased Vt to make more comfortable, aid with weaning sedation.
   -ID recs: noticed dependent maculopapular rash, looks like drug
   exanthem, we stopped all abx today per their recs.
   -PM Na increased from 148 to 149, continued IV D5W. Na 146 on recheck,
   given add'l 1L of Free H20
   -started hep SC
   -No thoracentesis by IP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-5-5**] 11:34 AM
   Vancomycin - [**2106-5-5**] 09:00 PM
   Cefipime - [**2106-5-6**] 08:43 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-7**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 86 (85 - 108) bpm
   BP: 117/56(73) {105/49(66) - 146/67(89)} mmHg
   RR: 22 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 305 (9 - 321)mmHg
   Total In:
                                                                  6,378 mL
                                                                    852 mL
   PO:
   TF:
                                                                  1,784 mL
   IVF:
                                                                  1,745 mL
                                                                    852 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                  1,340 mL
   Urine:
                                                                  3,280 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,098 mL
                                                                   -488 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 24
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: 7.29/49/87.[**Numeric Identifier 181**]/20/-3
   Ve: 15.2 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Gen: sedated
   HEENT: scleral edema, foamy secretions at mouth
   CV: tachycardic, distant HS
   Lungs: coarse mechanical BS bilaterally, upper airway secretions
   Abd: slightly distended, hypoactive BS, soft, tympanitic. No cullen
   grey-[**Doctor Last Name 493**]
s signs.
   Ext: 1+ BLE edema;  dusky appearing digits BUE to MCPs, also with dusky
   appearing toes distally BLE- appears unchanged from yesterday.
   Labs / Radiology
   245 K/uL
   7.5 g/dL
   125 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.2 mEq/L
   92 mg/dL
   117 mEq/L
   148 mEq/L
   23.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2106-5-4**]  10:40 PM
                             [**2106-5-5**]  03:50 AM
                             [**2106-5-5**]  04:06 AM
                             [**2106-5-5**]  11:30 AM
                             [**2106-5-5**]  05:30 PM
                             [**2106-5-6**]  04:33 AM
                             [**2106-5-6**]  05:03 AM
                             [**2106-5-6**]  12:23 PM
                             [**2106-5-6**]  11:24 PM
                             [**2106-5-7**]  03:35 AM
   WBC
   10.3
   6.7
   6.1
   Hct
   25.4
   24.4
   23.7
   Plt
   255
   285
   245
   Cr
   2.1
   2.5
   2.5
   TCO2
   28
   29
   24
   24
   24
   23
   25
   Glucose
   167
   164
   172
   173
   125
   Other labs: PT / PTT / INR:14.8/34.5/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:47/139, Alk Phos / T Bili:55/0.5,
   Amylase / Lipase:294/877, Differential-Neuts:85.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:643 IU/L, Ca++:7.7
   mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now [**Year (4 digits) 509**] [**2-20**] [**Month/Day (2) **] c/b DIC, [**Last Name (un) **],
   and pancreatitis
   #. Respiratory Status: [**Last Name (un) **] Positive.  PCP negative
   [**Name Initial (PRE) **] PEEP decreased to 14, FiO2 50%; wean vent to PEEP of 12; and if
   continues to oxygenate well, decrease FiO2 as tolerated as well
   - goal PaO2 >65; currently patient meeting goal.
   - Appreciate ID input, pt currently on levaquin for [**Name Initial (PRE) 476**].  Will
   need to 1 more day
   - Mini-BAL results- NGTD.  PCP [**Name Initial (PRE) 442**].
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - has moderate sized R>L pleural effusion.  Will ask IP to evaluate
   since patient is supine with difficult ventilation and difficult to
   visualize with ultrasound
   #. Hyperthermia. Continues to spike despite abx.
   - likely source is infectious vs central- [**Name Initial (PRE) 476**] known to cause
   prolonged high fevers and course is known to be more severe in HIV
   positive patients however fevers are of impressive duration and
   severity.
   - ID consulted, appreciate their input. CT sinus/torso without evidence
   of source of infection.  Though patient does have pleural effusion so
   need to consider thoracentesis.  d/w IP for [**Female First Name (un) 217**] today.  Fingers/Toes
   also may be source of infection.
   - continue levaquin for PNA.  on vanco/cefipime for broad spectrum
   coverage.  Pan culture.  Stop abx tomorrow if cultures negative
   -  found to have DVT in R popliteal/superficial femoral.  s/p IVC
   filter
   - central line re-sited.  Culture of tip pending.  Possible source for
   fever.  [**Month (only) 51**] also consider TEE to eval for endocarditis though TTE
   without evidence of valvular disease and blood cultures negative
   - sent fungal cultures; not covering for fungal though unlikely.
   pending
   - ATC tylenol
   - cooling blankets PRN
   #. Hypotension: ddx includes sepsis, poor cardiac output, intravascular
   volume depletion [**2-20**] high fevers- improving now
   -  good UOP makes volume depletion less likely; last C.I. on vigileo
   was >3.
   -  cont vanco/cefipime for broad spectrum coverage for possible
   sepsis.  WBC maintaining despite high temperatures.
   - will stop abx tomorrow if cultures remain negative
   #.  DIC.
   - INR now improving.
   - APC stopped on [**2106-5-1**]
   - No need for anticoagulation at this time.  Had IVC filter placed for
   DVT.  Had blood in the ETT after starting heparin gtt for DVT; will
   hold for now and cont to monitor HCT
   - continue to monitor exam.  Appreciate vascular surgery- will likely
   need amputation in the future, but not at this time. Will continue to
   follow.
   -cryoglobulins and HCV- negative
   #. Acute Kidney Injury- urine sediment with casts c/w ATN.  Cr slightly
   worsened today. No hyperkalemia, still making urine, no indication for
   dialysis at present.
   - cont to monitor.  Expected elevation post CT scan
   - will renally dose medications.
   #. Hypernatremia- likely large % free H20 loss from high fevers
   -          Free H2O deficit 3.4 liters; cont free H2O flushes 350
   cc/4H.
   -          2 liter D5W today for hypernatremia
   #Elevated pancreatic enzymes- improved.  Not monitoring currently
   - no inciting factor noted at this time. CT without evidence of
   pancreatitis.  Likely medication induced; or possibly [**2-20**] hypotension
   #. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition: Tube Feeds at goal 75c/hr
   Glycemic Control: ISS
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: pneumoboots, Hep sc, IVC filter
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2106-05-08 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   LFTs elevated. Tylenol decreased to PO q 8 hrs from PO + PR dosing
   Hepatitis Serologies sent
   PM Na 144
   Nutrition: will touch base today re hypotonic tube feeds
   Unsuccessful wean of fentanyl / versed
   Right sided pneumothorax found on AM CXR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-5-5**] 11:34 AM
   Vancomycin - [**2106-5-5**] 09:00 PM
   Cefipime - [**2106-5-6**] 08:43 AM
   Infusions:
   Fentanyl (Concentrate) - 450 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-8**] 12:23 AM
   Other medications:
   Tylenol 650 mg q 8 hrs
   Famotidine 20mg iv q 24hrs
   Atrovent
   Albuterol
   Chlorhexidine
   Docusate
   bisacodyl
   nystatin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-8**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.6
   HR: 78 (77 - 89) bpm
   BP: 107/50(65) {103/48(63) - 122/60(79)} mmHg
   RR: 12 (6 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  5,085 mL
                                                                  1,581 mL
   PO:
             TF:
                                                                    375 mL
                                                                    494 mL
   IVF:
                                                                  3,220 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,040 mL
   Urine:
                                                                  3,430 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,655 mL
                                                                    541 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 233 (233 - 233) mL
   RR (Set): 24
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 35 cmH2O
   Compliance: 26.1 cmH2O/mL
   SpO2: 91%
   ABG: 7.27/46/86//-5
   Ve: 16 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: sedated, overweight male
   HEENT: endotracheal tube in place.  NGT in place.  Pupils equal.
   COR: nl s1s2 rrr
   PUL: diffuse rhonchi
   ABD: moderately distended, no masses palpated; quiet bowel sounds.
   EXTREM: dry digital gangrene at fingers and toes.  Fingers are starting
   to lose bulk and decompose. 1+ pitting edema
   Labs / Radiology
   294 K/uL
   7.5 g/dL
   125 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.2 mEq/L
   92 mg/dL
   117 mEq/L
   144 mEq/L
   23.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2106-5-6**]  04:33 AM
                             [**2106-5-6**]  05:03 AM
                             [**2106-5-6**]  12:23 PM
                             [**2106-5-6**]  11:24 PM
                             [**2106-5-7**]  03:35 AM
                             [**2106-5-7**]  09:04 AM
                             [**2106-5-7**]  02:37 PM
                             [**2106-5-7**]  05:20 PM
                             [**2106-5-8**]  04:57 AM
                             [**2106-5-8**]  05:18 AM
   WBC
   6.7
   6.1
   5.6
   Hct
   24.4
   23.7
   23.6
   Plt
   285
   245
   294
   Cr
   2.5
   2.5
   TCO2
   24
   23
   25
   23
   22
   22
   22
   Glucose
   173
   125
   Other labs: PT / PTT / INR:14.8/34.5/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:211/636, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:141/495, Differential-Neuts:85.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:965 IU/L, Ca++:7.7
   mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Micro
   Hcv, hbv, hav pending
   Blood + urine + sputum cultures pending , no growth
   Rads
   Cxr [**5-7**]
   The patient is rotated, and the lung volumes are very low; however,
   there is
   no new airspace consolidation. Unchanged is a right pleural effusion,
   moderate to large, bibasilar atelectasis, and a focal opacity in the
   periphery
   of the right upper lobe. The cardiomediastinal silhouette is unchanged.
   IMPRESSION: Little interval change in widespread pulmonary opacities,
   likely
   due to a combination of bilateral pleural effusions, atelectasis, and
   superimposed right lower lobe pneumonia.
   CXR [**2106-5-8**]
   MPRESSION:
   Interval development of large right-sided pneumothorax.
   Persistent airspace opacities involving the left lung. Diagnostic
   considerations again include pneumonia.
   Support lines unchanged. The distal aspects of the nasogastric tube and
   feeding tube are again not well seen. The feeding tube may terminate at
   the
   GE junction.
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now [**Month/Day/Year 509**] [**2-20**] [**Month/Day (2) **] c/b DIC, [**Last Name (un) **],
   and pancreatitis
   #. Hypoxemic Resp Failure
   [**Last Name (un) 509**] following [**Last Name (un) **] Positive pneumonia.  PCP negative
   Improving slowly or stagnation of progress at this point.
   Still on PRVC ventilation w/ high driving pressures.  Now w/ right
   sided pneumothorax, possibly caused by high pressures, barotrauma in
   setting of [**Last Name (un) 509**].
   Surgery to place chest tube now.  Pleural effusion to be drained; if
   can attain fluid, will send for culture, gram stain.
   Will cont vent settings as are for now, and eval for possible changes
   w/ decrease in driving pressure >> other changes.
   Now off antibiotics, s/p course of levofloxacin for [**Last Name (un) 476**].
   Some concern for VAP, however given fever (much improved) and white
   blood cell count trends, holding off on therapy.
   Broad spectrum antibiotics (cefepime) may have caused fevers;
   alternatively, may have partially treated infection and now seeing
   improvement clinically after this.  Will have to cont to follow daily
   CXR, fever and WBC# trends.
   - goal PaO2 >65; currently patient meeting goal.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   #. Hyperthermia
   Improve off antibiotics as above.
   ? infectious cause (partially treated) vs drug fever.
   Cont trend, and hold on standing Tylenol to follow curve better.
   -          cooling blankets PRN
   -          -tylenol prn
   #. Hypotension: improving now
   -  good UOP. Cont to monitor for now.  Off all antibiotics.
   -  Monitor I/Os- largely net positive but also with insensible loss [**2-20**]
   temperature
   #.  DIC.
   - INR stable.
   - APC stopped on [**2106-5-1**]
   - No need for anticoagulation at this time.  Had IVC filter placed for
   DVT.  Had blood in the ETT after starting heparin gtt for DVT; will
   hold for now and cont to monitor HCT
   - continue to monitor exam.  Appreciate vascular surgery- will likely
   need amputation in the future, but not at this time. Will continue to
   follow.
   -cryoglobulins and HCV- negative
   #. Acute Kidney Injury-
   Previously w/ urine sediment with casts c/w ATN
 then radiocontrast dye
   load.
   Now cont to decline and improve overall.
   - cont to monitor.
   - will renally dose medications.
   #. Hypernatremia- likely large % free H20 loss from high fevers
   -          Free H2O deficit 3.4 liters; cont free H2O flushes 350
   cc/4H.
   #Elevated pancreatic enzymes- improved.  Not monitoring currently
   - no inciting factor noted at this time. CT without evidence of
   pancreatitis.  Likely medication induced; or possibly [**2-20**] hypotension
   #. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-7**] 07:00 PM 75 mL/hour
   Glycemic Control:  ssi
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: famotidine
   VAP:  chlorhexedine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: icu level of care

2106-05-08 10:24:00 Physician Attending Progress Note
Chief Complaint: [** **] PNA with severe resp failure; digit
   ischemia; DIC
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   #Tylenol decreased due to LFT abnormalities. Hep serologies sent.
   #Attempt to wean fentanyl/versed (failed)
   #No change in vent settings.
   History obtained from Medical records, [**Hospital Unit Name 1**] housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-5-5**] 11:34 AM
   Vancomycin - [**2106-5-5**] 09:00 PM
   Cefipime - [**2106-5-6**] 08:43 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-8**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-8**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 80 (77 - 84) bpm
   BP: 95/46(59) {95/46(59) - 121/59(75)} mmHg
   RR: 0 (0 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  5,085 mL
                                                                  2,296 mL
   PO:
             TF:
                                                                    375 mL
                                                                    758 mL
   IVF:
                                                                  3,220 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,280 mL
   Urine:
                                                                  3,430 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,655 mL
                                                                  1,016 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 233 (233 - 233) mL
   RR (Set): 24
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 35 cmH2O
   SpO2: 94%
   ABG: 7.27/46/86/20/-5
   Ve: 17 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Overweight / Obese, Sedated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud), No(t) S3, No(t) S4
   Peripheral Vascularpreserved radial/DP pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : ), slighlty
   course at bases
   Abdominal: Soft, Distended, hypoactive bs
   Extremities: digit necrosis bilateral UE/LE
   Skin:  warm, no rashes
   Neurologic: Sedated, not following commands
   Labs / Radiology
   7.5 g/dL
   294 K/uL
   117 mg/dL
   2.4 mg/dL
   20 mEq/L
   4.1 mEq/L
   92 mg/dL
   113 mEq/L
   143 mEq/L
   23.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2106-5-6**]  04:33 AM
                             [**2106-5-6**]  05:03 AM
                             [**2106-5-6**]  12:23 PM
                             [**2106-5-6**]  11:24 PM
                             [**2106-5-7**]  03:35 AM
                             [**2106-5-7**]  09:04 AM
                             [**2106-5-7**]  02:37 PM
                             [**2106-5-7**]  05:20 PM
                             [**2106-5-8**]  04:57 AM
                             [**2106-5-8**]  05:18 AM
   WBC
   6.7
   6.1
   5.6
   Hct
   24.4
   23.7
   23.6
   Plt
   285
   245
   294
   Cr
   2.5
   2.5
   2.4
   TCO2
   24
   23
   25
   23
   22
   22
   22
   Glucose
   173
   125
   117
   Other labs: PT / PTT / INR:14.8/34.5/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:162/292, Alk Phos / T Bili:91/1.0,
   Amylase / Lipase:141/495, Differential-Neuts:85.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:628 IU/L, Ca++:7.4
   mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR pending this morning
   Microbiology: Hep serologies pending
   Assessment and Plan
   50 year old man with HIV positivity admitted with [**Year (4 digits) **] PNA/[**Year (4 digits) 509**]
   and sepsis. Initially severity of [**Year (4 digits) 509**] required proning , PCV and
   paralysis. Course also notable for DIC s/p APC, ARF
   : # Respiratory failure. Continues to have significant ventilator
   requirements with high PIP's, high PEEP. Cont current  vent settings;
   Once oxygenation permits hope to decrease PEEP. F/u CXR from this
   morning
   #Transamitinis: hep serologies pending
   #Fevers: still febrile, slightly down. No clear infectious source.
   continue to watch off abx
   #DVT s/p IVC filter
   #Digit ischemia: slow progression. Will likely need amputation in
   future
   #Renal failure/ATN: Slow improvement in renal function, no add'l
   intervention
   #Hypernatremia: treating with free water boluses
   Update 13:00- CXR demonstrated new [**Name (NI) 515**] PTX. Surgery consult called.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-8**] 07:58 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled, Insulin in TPN
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-05-09 06:33:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 CHEST TUBE PLACED - At [**2106-5-8**] 02:00 PM
   right pneumothorax noted on am cxr
   surgery placed right chest tube
   right pleural effusion effectively drained
   tylenol changed to prn to eval fever curve
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2106-5-6**] 08:43 AM
   Infusions:
   Fentanyl (Concentrate) - 450 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-9**] 12:20 AM
   Famotidine (Pepcid) - [**2106-5-9**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-9**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.9
C (96.7
   HR: 72 (69 - 82) bpm
   BP: 105/51(67) {86/40(54) - 124/62(80)} mmHg
   RR: 24 (0 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,761 mL
                                                                  1,432 mL
   PO:
             TF:
                                                                  1,237 mL
                                                                    493 mL
   IVF:
                                                                    863 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  3,890 mL
                                                                    962 mL
   Urine:
                                                                  2,980 mL
                                                                    960 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -129 mL
                                                                    470 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 40 cmH2O
   Plateau: 31 cmH2O
   SpO2: 95%
   ABG: 7.31/39/121/19/-6
   Ve: 14.8 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: sedated, overweight male
   HEENT: endotracheal tube in place.  NGT in place.  Pupils equal.
   COR: nl s1s2 rrr
   PUL: cta anteriorly, equal breath sounds bilaterally; chest tube in
   place right chest w/ bandaging overlying.
   ABD: moderately distended, no masses palpated; quiet bowel sounds.
   EXTREM: dry digital gangrene at fingers and toes, sparing right thumb
   and 5^th toes bilateraly.  Fingers are starting to lose bulk and
   decompose. 2+ pitting edema upper > lower extremities
   NEURO: sedated.
   Labs / Radiology
   247 K/uL
   7.0 g/dL
   113 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.7 mEq/L
   98 mg/dL
   112 mEq/L
   142 mEq/L
   21.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2106-5-6**]  12:23 PM
                             [**2106-5-6**]  11:24 PM
                             [**2106-5-7**]  03:35 AM
                             [**2106-5-7**]  09:04 AM
                             [**2106-5-7**]  02:37 PM
                             [**2106-5-7**]  05:20 PM
                             [**2106-5-8**]  04:57 AM
                             [**2106-5-8**]  05:18 AM
                             [**2106-5-9**]  04:55 AM
                             [**2106-5-9**]  05:09 AM
   WBC
   6.1
   5.6
   4.3
   Hct
   23.7
   23.6
   21.6
   Plt
   245
   294
   247
   Cr
   2.5
   2.4
   2.2
   TCO2
   23
   25
   23
   22
   22
   22
   21
   Glucose
   125
   117
   113
   Other labs: PT / PTT / INR:13.8/31.0/1.2, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:127/163, Alk Phos / T Bili:93/0.7,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:508 IU/L, Ca++:7.2
   mg/dL, Mg++:2.4 mg/dL, PO4:5.2 mg/dL
   Micro
   Blood, urine, sputum cx pending
   Ua clear from wbc/s
   CXR
   [**5-8**]
   Single portable radiograph of the chest demonstrates interval placement
   of
   right-sided chest tube. The previously identified right-sided
   pneumothorax is
   now much smaller. A moderate right-sided pneumothorax persists.
   Increased
   opacities involving both lungs is again noted and remains unchanged on
   the
   left. The remaining support lines are unchanged. Again noted is
   termination
   of the feeding tube at the tip of the GE junction. Cardiomediastinal
   contours
   are similar in appearance. There is mild blunting of the left
   costophrenic
   angle. There is blunting of the right costophrenic angle.
   IMPRESSION:
   Interval placement of right-sided chest tube.
   Persistent moderate right-sided pneumothorax, improved when compared to
   the
   previous study.
   Airspace opacity involving the bilateral lungs, unchanged on the left.
   The feeding tube is again noted to terminate at the level of the GE
   junction.
   The feeding tube should be advanced.
   Assessment and Plan
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis
   #. Hypoxemic Resp Failure
   ARDS following Legionella Positive pneumonia.  PCP [**Name Initial (PRE) 442**].  Now off
   antibiotics, s/p course of levofloxacin for legionella.
   Improving slowly or stagnation of progress at this point.
   Still on PRVC ventilation w/ high driving pressures.  Now w/ right
   sided pneumothorax, possibly caused by high pressures, barotrauma in
   setting of ARDS.
   Goal diurese 1 L negative.
   Will cont vent settings as are for now, and eval for possible changes
   w/ decrease in driving pressure >> other changes.
   Some concern for VAP, however given fever (much improved) and white
   blood cell count trends, holding off on therapy.
   Broad spectrum antibiotics (cefepime) may have caused fevers;
   alternatively, may have partially treated infection and now seeing
   improvement clinically after this.  Will have to cont to follow daily
   CXR, fever and WBC# trends.
   - goal PaO2 >65; currently patient meeting goal.
   - cont acetaminophen for fever- still continues to spike despite
   antibiotics
   - cont nebs
   - diurese, neg 1 L goal
   # Anemia
   Slow ongoing blood loss? HCT down 7 pts in 1 week.  Blood draws, vs
   nutritional (albumin dropping), gi losses vs chest tube placement, vs
   lysis.
   Will guiac stools.  Add on haptoglobin (LDH has been elevated, t bili
   not)
   Goal transfusion > 21.
   Folate recently wnl.
   Will check B12 w/ high MCV.
   # Acidosis
   ? etiol
   Non gap metabolic acidosis.
   #. Hyperthermia
   Improve off antibiotics as above.
   ? infectious cause (partially treated) vs drug fever.
   Cont trend, and hold on standing Tylenol to follow curve better.
   -          cooling blankets PRN
   -          -tylenol prn
   #.  DIC.
   - INR stable.
   - APC stopped on [**2106-5-1**]
   - No need for anticoagulation at this time.  Had IVC filter placed for
   DVT.  Had blood in the ETT after starting heparin gtt for DVT; will
   hold for now and cont to monitor HCT
   - continue to monitor exam.  Appreciate vascular surgery- will likely
   need amputation in the future, but not at this time. Will continue to
   follow.
   -cryoglobulins and HCV- negative
   #. Acute Kidney Injury-
   Previously w/ urine sediment with casts c/w ATN
 then radiocontrast dye
   load.
   Now cont to decline and improve overall.
   - cont to monitor.
   - will renally dose medications.
   #. Hypernatremia- likely large % free H20 loss from high fevers
   -          Free H2O deficit 3.4 liters; cont free H2O flushes 350
   cc/4H.
   #Elevated pancreatic enzymes- improved.  Not monitoring currently
   - no inciting factor noted at this time. CT without evidence of
   pancreatitis.  Likely medication induced; or possibly [**2-20**] hypotension
   #. HIV- hold HAART for now; low VL and high CD4
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-9**] 04:45 AM 75 mL/hour
   Glycemic Control:  ssi
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: famotidine daily
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:icu

2106-05-09 10:24:00 Physician Attending Progress Note
Chief Complaint: Legionella PNA/[** 509**]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 50 year old male with HIV admitted with legionella PNA, resp
   failure/[** 509**], sepsis s/p APC, DIC, DVT s/p IVC filter.
   24 Hour Events:
   PTX: Chest tube placed with some improvement. Pleural fluid also
   drained
    CHEST TUBE PLACED - At [**2106-5-8**] 02:00 PM
                                      Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-9**] 12:20 AM
   Famotidine (Pepcid) - [**2106-5-9**] 12:22 AM
   Other medications:
   alb/atrov, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-9**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 73 (69 - 78) bpm
   BP: 114/61(76) {86/40(54) - 124/62(80)} mmHg
   RR: 24 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,761 mL
                                                                  1,905 mL
   PO:
             TF:
                                                                  1,237 mL
                                                                    660 mL
   IVF:
                                                                    863 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  3,890 mL
                                                                  1,632 mL
   Urine:
                                                                  2,980 mL
                                                                  1,280 mL
   NG:
                                                                    350 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -129 mL
                                                                    273 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 29 cmH2O
   SpO2: 97%
   ABG: 7.31/39/121/19/-6
   Ve: 14.7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (bilateral DP pulses)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Diminished: left side), right chest tube few rales right base
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing, dital
   LE gangrene unchaged
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   247 K/uL
   113 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.7 mEq/L
   98 mg/dL
   112 mEq/L
   142 mEq/L
   21.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2106-5-6**]  12:23 PM
                             [**2106-5-6**]  11:24 PM
                             [**2106-5-7**]  03:35 AM
                             [**2106-5-7**]  09:04 AM
                             [**2106-5-7**]  02:37 PM
                             [**2106-5-7**]  05:20 PM
                             [**2106-5-8**]  04:57 AM
                             [**2106-5-8**]  05:18 AM
                             [**2106-5-9**]  04:55 AM
                             [**2106-5-9**]  05:09 AM
   WBC
   6.1
   5.6
   4.3
   Hct
   23.7
   23.6
   21.6
   Plt
   245
   294
   247
   Cr
   2.5
   2.4
   2.2
   TCO2
   23
   25
   23
   22
   22
   22
   21
   Glucose
   125
   117
   113
   Other labs: PT / PTT / INR:13.8/31.0/1.2, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:127/163, Alk Phos / T Bili:93/0.7,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:508 IU/L, Ca++:7.2
   mg/dL, Mg++:2.4 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR: Some improvement, though r lung not fully expanded
   Microbiology: Hep serologies
   cultures pending
   UA no WBC
   Assessment and Plan
   Resolving severe Legionella PNA/[**Year (4 digits) 509**] with resp failure/slow recovery,
   renal failure
 ACUTE RESPIRATORY DISTRESS SYNDROME ([**Year (4 digits) 509**], ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER/Acute respiratory failure
   *Tolerating current vent settings. pO2 tolerable,ventilation
   reasonable, plan wean PEEP as tolerated
   *Attempt gentle diuresis for net negative 500cc bal/24 hours
   PTX: Has chest tube, still not fully expanded. Cont CT to suction,
   follow serial CXR
   Fevers: decreasing, likely from drug fever. Continue to monitor off
   antiobiotics
   Anemia: unclear cause, guiac stools. On acid suppression.
   Renal failure:  improving, no add
l intervention
   Transaminitis: LFT's decreasing, monitor
   Hypernatremia improved with free water
   DVT: s/p IVC filter.
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-05-10 06:54:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, [**Name Initial (NameIs) 509**] [**2-20**] legionella, c/b
   [**Last Name (un) **], DIC, pancreatitis, DVT, and persistant high fevers of unclear
   etiology
   24 Hour Events:
 CHEST TUBE PLACED - At [**2106-5-9**] 11:30 AM
 BLOOD CULTURED - At [**2106-5-10**] 05:41 AM
   -had 2nd chest tube placed with interval improvement in PTX, will
   follow thoracics recs
   -started lasix gtt, however pt remained fluid even most of day,
   increased to 10mg/hour this am
   -PM Hct did not bump with transfusion 21.6 to 22.2.  No signs active
   bleeding, will continue to monitor with plan to tx for <21.
   -Decreased PEEP to 12 which pt tolerated: 7.2/45/93
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-10**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-10**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 74 (73 - 97) bpm
   BP: 103/49(64) {88/44(59) - 115/61(76)} mmHg
   RR: 26 (14 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,763 mL
                                                                    871 mL
   PO:
             TF:
                                                                  1,526 mL
                                                                    496 mL
   IVF:
                                                                    851 mL
                                                                    245 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,674 mL
                                                                  1,735 mL
   Urine:
                                                                  3,170 mL
                                                                  1,670 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                     89 mL
                                                                   -864 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 40 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.32/42/104/21/-4
   Ve: 15.1 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Gen: sedated, overweight male
   HEENT: endotracheal tube in place.  NGT in place.  Pupils equal. Area
   of scabbing, unchanged on right cheek
   COR: nl s1s2 rrr
   PUL: cta anteriorly, equal breath sounds bilaterally; chest tube in
   place right chest w/ bandaging overlying.
   ABD: moderately distended, no masses palpated; quiet bowel sounds.
   EXTREM: dry digital gangrene at fingers and toes, sparing right thumb
   and 5^th toes bilaterally.  Fingers are starting to lose bulk and
   decompose. 2+ pitting edema upper > lower extremities
   NEURO: Sedated.
   Labs / Radiology
   276 K/uL
   6.9 g/dL
   123 mg/dL
   2.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   97 mg/dL
   117 mEq/L
   149 mEq/L
   20.6 %
   4.4 K/uL
        [image002.jpg]
                             [**2106-5-7**]  02:37 PM
                             [**2106-5-7**]  05:20 PM
                             [**2106-5-8**]  04:57 AM
                             [**2106-5-8**]  05:18 AM
                             [**2106-5-9**]  04:55 AM
                             [**2106-5-9**]  05:09 AM
                             [**2106-5-9**]  03:00 PM
                             [**2106-5-9**]  08:02 PM
                             [**2106-5-10**]  05:19 AM
                             [**2106-5-10**]  05:33 AM
   WBC
   5.6
   4.3
   4.4
   Hct
   23.6
   21.6
   22.2
   20.6
   Plt
   294
   247
   276
   Cr
   2.4
   2.2
   2.3
   TCO2
   22
   22
   22
   21
   23
   23
   Glucose
   117
   113
   123
   Other labs: PT / PTT / INR:13.6/30.2/1.2, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:127/163, Alk Phos / T Bili:93/0.7,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:508 IU/L, Ca++:7.1
   mg/dL, Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Imaging: [**2106-5-9**] CXR: Interval placement of a second right-sided chest
   tube with interval improvement in right-sided pneumothorax.   Study is
   somewhat limited as it excludes a portion of the right lateral
   hemithorax. Persistent bilateral airspace opacities and pleural
   effusions, unchanged.  Diagnostic considerations again include
   pulmonary edema and/or pneumonia.
   Microbiology: No new growth
   [**2106-5-6**] Sputum cx: No growth
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME ([**Month/Day/Year 509**], ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   50 yo M  HIV, h/o PCP pneumonia, now [**Doctor Last Name 509**] [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis
    # Hypoxemic Resp Failure
   [**Last Name (un) 509**] following Legionella pneumonia.  PCP [**Name Initial (PRE) 442**].  Now off
   antibiotics, s/p course of levofloxacin for legionella. Improving
   slowly.   Still on PRVC ventilation, PEEP decreased throughout the day
   yesterday after right sided pneumothorax noted, possibly caused by high
   pressures, barotrauma in setting of [**Name Initial (PRE) 509**].  Now s/p chest tubes x2 with
   resolution of pnx.
   - Continue to follow chest tubes with thoracics.
   - Goal diurese -500 cc to 1 L negative w/ lasix gtts
   - Will continue to attempt to decrease PEEP (down to 10 today),
   especially given barotrauma of right pneumothorax.
   - Goal PaO2 >65; currently patient exceeding goal.
   - Cont nebs
   # Anemia
   Slow ongoing blood loss? HCT down 7 pts in 1 week.  Blood draws, vs
   nutritional (albumin dropping), gi losses vs chest tube placement, vs
   lysis.
   - Will guaiac stools.
   - Haptoglobin wnl. (LDH has been elevated, t bili not). Folate recently
   wnl.
   - B12 elevated
   - Continue to monitor, transfuse >21, patient receiving one unit this
   morning.
   # Acute Kidney Injury
   Previously w/ urine sediment with granular casts c/w ATN then
   radiocontrast dye load. Now cont to decrease and improve overall.
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- Likely large % free H20 loss from high fevers. Was
   improving, high Na again this morning in the setting of diuresis.
   - Will increase free water boluses as hypernatremic again
   # HIV- hold HAART for now; low VL and high CD4
   # Dispo: Now greater than 2 weeks intubated. Making some improvements
   in ventilator weaning, though unlikely that patient will be extubated
   in the near future as he is still requiring high PEEP/FiO2.
   - Discuss the possibility of trach with family over the next few days.
   If they are amenable, will discuss with surgery/IP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-9**] 09:47 PM 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: pneumoboots, heparin sc, IVC filter
   Stress ulcer: famotidine
   VAP:  mouth care, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2106-05-10 11:45:00 Physician Attending Progress Note
Chief Complaint: resp failure/sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo male with HIV admitted with legionella PNA/ARDS/acute resp
   failure, DIC, digit ischemia. course complicated by barotrauma/PTX
   24 Hour Events:
 2nd chest tube placed due to persistent PTX
   *Attempted diuresis with lasix gtt, but little progress made
   *PEEP decreased to 12
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-10**] 08:00 AM
   Other medications:
   alb/atrov, SSI, lasix gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-10**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 79 (73 - 97) bpm
   BP: 115/62(77) {88/45(59) - 115/62(77)} mmHg
   RR: 24 (14 - 43) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
           Total In:
                                                                  3,763 mL
                                                                  1,795 mL
   PO:
           TF:
                                                                  1,526 mL
                                                                    834 mL
   IVF:
                                                                    851 mL
                                                                    501 mL
   Blood products:
                                                                    375 mL
                                                                    230 mL
   Total out:
                                                                  3,674 mL
                                                                  2,485 mL
   Urine:
                                                                  3,170 mL
                                                                  2,420 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                     89 mL
                                                                   -690 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 39 cmH2O
   Plateau: 25 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.32/42/104/21/-4
   Ve: 14.3 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), No(t) S3, No(t) S4
   Peripheral Vascular +DP pulses
   Respiratory / Chest: (Expansion: Symmetric), coarse BS with end-insp
   rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, distal extremity necrosis
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   276 K/uL
   123 mg/dL
   2.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   97 mg/dL
   117 mEq/L
   149 mEq/L
   20.6 %
   4.4 K/uL
        [image002.jpg]
                             [**2106-5-7**]  02:37 PM
                             [**2106-5-7**]  05:20 PM
                             [**2106-5-8**]  04:57 AM
                             [**2106-5-8**]  05:18 AM
                             [**2106-5-9**]  04:55 AM
                             [**2106-5-9**]  05:09 AM
                             [**2106-5-9**]  03:00 PM
                             [**2106-5-9**]  08:02 PM
                             [**2106-5-10**]  05:19 AM
                             [**2106-5-10**]  05:33 AM
   WBC
   5.6
   4.3
   4.4
   Hct
   23.6
   21.6
   22.2
   20.6
   Plt
   294
   247
   276
   Cr
   2.4
   2.2
   2.3
   TCO2
   22
   22
   22
   21
   23
   23
   Glucose
   117
   113
   123
   Other labs: PT / PTT / INR:13.6/30.2/1.2, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:127/163, Alk Phos / T Bili:93/0.7,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:508 IU/L, Ca++:7.1
   mg/dL, Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR: Right lung re-expanded after second chest tube; continued
   patchy infiltrates
   Assessment and Plan
   50 yo male with HIV admitted with legionella PNA/ARDS/acute resp
   failure, DIC, digit ischemia. course complicated by barotrauma/PTX
   #Acute resp failure/ARDS
   - Continues to require ventilator support, though oxygenation improving
   -Continue to wean PEEP down as tolerated; maintain AC ventilation
   -Given length of time on MV and potential for long ventilator wean,
   discuss possible trach w/family
   #PTX s/p 2 chest tubes
   #Anemia: unclear source, no obvious bleeding source.
   - Guiac stools
   -Anemia w/u pending but so far negative
   -goal Hbg>7
   #Acidosis: unchanged, no acute intervention
   #ARF: Cr unchanged
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(s/p IVC filter)
   Stress ulcer: H2 blocker
   VAP: Mouth care, HOB elevated, Sedation wean,
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-05-11 07:24:00 Physician Resident Progress Note
Chief Complaint: 50 yo M  HIV, h/o PCP pneumonia, now [** 509**] [**2-20**]
   Legionella c/b DIC, [**Last Name (un) **], anemia, and pancreatitis and interval
   development of PTX s/p chest tube placement
   24 Hour Events:
 BLOOD CULTURED - At [**2106-5-11**] 06:37 AM
 URINE CULTURE - At [**2106-5-11**] 06:37 AM
   - PEEP further decreased to 10 given concern over barotrauma:
   7.32/44/98
   - Original chest tube removed, post-CXR showing stable film w/o pnx
   - Free water boluses increased for hypernatremia in the setting of
   diuresis
   - 4pm Hct 22.2 after 1u prbcs, 23.4 at 8pm
   - Lasix gtt turned down as patient was -500cc negative during the
   afternoon, still 1L negative around MN and pressures down slightly to
   90s. Lasix gtt turned off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Fentanyl (Concentrate) - 425 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-10**] 08:00 AM
   Famotidine (Pepcid) - [**2106-5-10**] 11:23 PM
   Heparin Sodium - [**2106-5-10**] 11:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-11**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.2
   HR: 75 (69 - 93) bpm
   BP: 108/51(67) {97/45(60) - 115/62(77)} mmHg
   RR: 24 (17 - 44) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,630 mL
                                                                    992 mL
   PO:
             TF:
                                                                  1,909 mL
                                                                    549 mL
   IVF:
                                                                  1,066 mL
                                                                    193 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,075 mL
                                                                    820 mL
   Urine:
                                                                  4,830 mL
                                                                    740 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -445 mL
                                                                    172 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 37 cmH2O
   Plateau: 28 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/44/98.[**Numeric Identifier 176**]/20/-3
   Ve: 13.6 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: sedated, overweight male
   HEENT: endotracheal tube in place.  NGT in place.  Pupils equal. Area
   of scabbing, unchanged on right cheek
   COR: nl s1s2 rrr
   PUL: cta anteriorly, equal breath sounds bilaterally; chest tube in
   place right chest w/ bandaging overlying.
   ABD: moderately distended, no masses palpated; quiet bowel sounds.
   EXTREM: dry digital gangrene at fingers and toes, sparing right thumb
   and 5^th toes bilaterally.  Fingers are starting to lose bulk and
   decompose. 2+ pitting edema upper > lower extremities
   NEURO: Sedated.
   Labs / Radiology
   350 K/uL
   7.6 g/dL
   117 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   95 mg/dL
   117 mEq/L
   147 mEq/L
   22.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2106-5-9**]  04:55 AM
                             [**2106-5-9**]  05:09 AM
                             [**2106-5-9**]  03:00 PM
                             [**2106-5-9**]  08:02 PM
                             [**2106-5-10**]  05:19 AM
                             [**2106-5-10**]  05:33 AM
                             [**2106-5-10**]  03:00 PM
                             [**2106-5-10**]  04:04 PM
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
   WBC
   4.3
   4.4
   4.6
   Hct
   21.6
   22.2
   20.6
   22.2
   23.4
   22.9
   Plt
   247
   276
   350
   Cr
   2.2
   2.3
   2.2
   TCO2
   21
   23
   23
   24
   Glucose
   113
   123
   117
   Other labs: PT / PTT / INR:13.6/30.2/1.2, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:127/163, Alk Phos / T Bili:93/0.7,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:508 IU/L, Ca++:7.0
   mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now [**Year (4 digits) 509**] [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis, also interval development of R pneumothorax
   # Hypoxemic Resp Failure
   [**Last Name (un) 509**] following Legionella pneumonia.  PCP [**Name Initial (PRE) 442**].  Now off
   antibiotics, s/p course of levofloxacin for legionella. Improving
   slowly.   pneumothorax noted, possibly caused by high pressures,
   barotrauma in setting of [**Name Initial (PRE) 509**].  Now s/p chest tubes x2 with resolution
   of pnx and removal of 1 chest tube
   - Continue to follow chest tubes with thoracics.
   - Will continue to attempt to decrease PEEP (down to 8 today),
   especially given barotrauma of right pneumothorax. And decrease FiO2 as
   tolerated
   - Goal PaO2 >65; currently patient exceeding goal.
   - Cont nebs
   - cont to decrease midazolam as tolerated and continue AM wake-ups.
   Start methadone to decrease fentanyl/midaz as tolerated as methadone
   started
   - send chest tube fluid for pleural effusion studies
   # Anemia
   Slow ongoing blood loss? HCT down 7 pts in 1 week.  Blood draws, vs
   nutritional (albumin dropping), gi losses vs chest tube placement, vs
   lysis (though lysis unlikely given labs)
   - cont guaiac stools
   - Haptoglobin wnl. (LDH has been elevated, t bili not). Folate recently
   wnl, B12 elevated
   - Continue to monitor, transfuse >21, patient receiving one unit this
   morning.
   # Acute Kidney Injury
   Previously w/ urine sediment with granular casts c/w ATN then
   radiocontrast dye load. Now cont to decrease and improve overall.
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia-
   - cont free water boluses as hypernatremic again
   # HIV- hold HAART for now; low VL and high CD4.  new CD4 is 260
   # Dispo: Discuss the possibility of trach with family today in family
   meeting. If they are amenable, will discuss with surgery/IP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-10**] 11:00 PM 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2106-4-30**] 02:18 PM
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: boots, hep sc, IVC filter
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care ; cont to wean vent as tolerated

2106-05-12 07:18:00 Physician Resident Progress Note
Chief Complaint: 50 yo M  HIV, h/o PCP pneumonia, now [** 509**] [**2-20**]
   Legionella c/b DIC, [**Last Name (un) **], and pancreatitis, also interval development of
   R pneumothorax
   24 Hour Events:
 FEVER - 103.0
F - [**2106-5-12**] 12:00 AM
   - continued to wean PEEP; down to 8.  FiO2 decreased to 40% with good
   O2 sats.  Art line not drawing at about 6 PM.
   - Family meeting happened regarding trach- they are OK with it if
   necessary.  IP said they could do it Thursday
   - Methadone started; will plan to wean fentanyl/versed as methadone
   kicks in
   -febrile o/n
   -2/2 Blood cultures positive from [**5-11**], GPCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 166 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Other medications:
   Methadone
   Acetaminophen
   Ca carbonate
   acetaminophen
   lasix gtt
   Hep SC
   bisacodyl
   Docusate
   Midazolam
   ISS
   Fentanyl
   Artificial tears
   famotidine
   nystatin
   Ipratropium
   Albuterol
   Chlorhexidine
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated, sedated
   Flowsheet Data as of  [**2106-5-12**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.2
C (98.9
   HR: 69 (68 - 120) bpm
   BP: 120/65(83) {99/49(64) - 163/83(108)} mmHg
   RR: 26 (22 - 57) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.3 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,636 mL
                                                                    637 mL
   PO:
             TF:
                                                                    925 mL
   IVF:
                                                                    711 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  3,362 mL
                                                                  1,380 mL
   Urine:
                                                                  3,220 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -726 mL
                                                                   -743 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 40 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.36/40/91.[**Numeric Identifier 143**]/23/-2
   Ve: 14.3 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: sedated, overweight male.  Opens eyes to voice and will turn
   head.  Profuse sweating, diaphoretic
   HEENT: endotracheal tube in place.  NGT in place.  Pupils equal. Area
   of scabbing, unchanged on right cheek
   COR: nl s1s2 rrr
   PUL: cta anteriorly, equal breath sounds bilaterally; chest tube in
   place right chest w/ bandaging overlying.
   ABD: moderately distended, no masses palpated; quiet bowel sounds.
   EXTREM: dry digital gangrene at fingers and toes, sparing right thumb
   and 5^th toes bilaterally.  Fingers are starting to lose bulk and
   decompose. 2+ pitting edema upper > lower extremities
   NEURO: Sedated.
   Labs / Radiology
   298 K/uL
   7.4 g/dL
   106 mg/dL
   2.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   89 mg/dL
   122 mEq/L
   153 mEq/L
   22.0 %
   4.5 K/uL
        [image002.jpg]
                             [**2106-5-9**]  08:02 PM
                             [**2106-5-10**]  05:19 AM
                             [**2106-5-10**]  05:33 AM
                             [**2106-5-10**]  03:00 PM
                             [**2106-5-10**]  04:04 PM
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
   WBC
   4.4
   4.6
   4.5
   Hct
   22.2
   20.6
   22.2
   23.4
   22.9
   21.9
   22.0
   Plt
   [**Telephone/Fax (3) 536**]
   Cr
   2.3
   2.2
   2.1
   TCO2
   23
   24
   24
   Glucose
   123
   117
   106
   Other labs: PT / PTT / INR:14.5/33.1/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:105/107, Alk Phos / T Bili:96/0.5,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:475 IU/L, Ca++:7.3
   mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Micro: [**5-11**] Blood cultures from a-line: GPCs in clusters  in 2 of 2
   bottles
   [**5-12**] blood cultures pending
   [**5-12**] sputum culture pending
   [**5-11**] urine culture negative
   [**5-10**] c. diff toxin negative
   [**5-6**] sputum culture negative
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME ([**Month/Year (2) 509**], ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   50 yo M  HIV, h/o PCP pneumonia, now [**Doctor Last Name 509**] [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis, also interval development of R pneumothorax  s/p
   chest tube placements.
   # Bacteremia: 2/2 blood cultures from [**5-11**] a-line growing GPCs in
   clusters.   Most likely skin pathogen from several invasive lines.
   -vancomycin dosed renally
   -d/c a-line
   -re-site CVL (has been in for 9 days)
   -cultures off CVL and send tip for culture
   -surveillance cultures, if positive consider TEE for ? endocarditis.
   -follow up speciation and sensis, change abx regimen accordingly.
   # Hypoxemic Resp Failure
   [**Month/Year (2) 509**] following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted, possibly caused by high pressures, barotrauma in setting of
   [**Month/Year (2) 509**].  Now s/p chest tubes x2 with resolution of pnx and removal of 1
   chest tube.  No air leak currently .
   - f/u thoracics recs
   - Pt tolerated decrease in PEEP to 8 and Fi02 to 40%.  At this point
   will focus more on decreasing sedation, awakening patient and
   contemplating mode switch to possibly PSV.
   - Goal PaO2 >65; currently patient exceeding goal.
   - Cont nebs
   - cont to decrease midazolam as tolerated and continue AM wake-ups.
   - Pt started on methadone, tolerated decreasing fentanyl in 20%
   increments over day.  Continue to wean fentanyl and midazolam
   - Plan for trach placement in am, TF off after MN.
   # Anemia
   Slow ongoing blood loss? HCT down 7 pts in 1 week.  Blood draws, vs
   nutritional (albumin dropping), gi losses vs chest tube placement, vs
   lysis (though lysis unlikely given labs).  Has macrocytic anemia, more
   pronounced than on admission . B12, folate are normal.  Ddx includes
   HIV meds, although has not been taking for >3 weeks.
   - cont guaiac stools
   - check reticulocyte count, RDW elevated, may be producing immature
   cells in setting of acute illness
   - Continue to monitor, transfuse >21, patient receiving one unit this
   morning.
   - Check TSH and iron studies.
   - minimize phlebotomizing
   # Acute Kidney Injury
   Previously w/ urine sediment with granular casts c/w ATN then
   radiocontrast dye load. Now cont to decrease and improve overall.  Cr
   down from 2.2 to 2.1 today with interval improvement in uremia.
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- Worsened from 147 to 153 overnight despite free water
   boluses, which [**Male First Name (un) **]
t seem to affect hypernatremia significantly.  Will
   give 2L free H20 and reassess.
   -check pm Na
   -Hold off on diuresis for now.  Can use if pt becomes hypoxic.
   # HIV- hold HAART for now; low VL and high CD4.  new CD4 is 260.  Email
   pt
s HIV PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 415**] to discuss when to restart HAART in critically
   ill patient.
   # DVT: Has IVC filter in place. Transiently on heparin gtt for
   treatment however stopped due to decreased hct and blood tinged sputum.
   Consider restarting after trach placed.
   # Dispo: Trach/Peg tomorrow.  Continue to wean vent and attempt to
   awaken patient.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-10**] 11:00 PM 75 mL/hour, NPO after
   MN.
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2106-5-4**] 05:45 PM
   Prophylaxis:
   DVT: boots, hep sc, IVC filter
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care ; cont to wean vent as tolerated

2106-05-13 07:32:00 Physician Resident Progress Note
Chief Complaint: 50 yo M with HIV, h/o PCP, a/w [** 509**] [**2-20**] legionella c/b
   DIC, [**Last Name (un) **], pancreatitis, anemia, PTX requiring chest tube, now with
   bacteremia
   24 Hour Events:
 BLOOD CULTURED - At [**2106-5-12**] 04:00 PM
   BCs from L IJ
 SPUTUM CULTURE - At [**2106-5-12**] 04:00 PM
 MULTI LUMEN - START [**2106-5-12**] 06:51 PM
 MULTI LUMEN - STOP [**2106-5-13**] 12:36 AM
 ARTERIAL LINE - STOP [**2106-5-13**] 01:00 AM
 FEVER - 101.3
F - [**2106-5-12**] 05:00 PM
   -2/2 bottles blood cultures 4/22 positive for GPCs in clusters,
   speciation pending
   -started on vanco
   -d/c'd a-line
   -r CVL placed, left side d/c'd
   -hypoxic when laying flat requiring temporary increase in Fi02
   -TF held for trach/peg today
   -evening Na down from 153 to 150 with free water
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-12**] 08:01 PM
   Infusions:
   Fentanyl (Concentrate) - 70 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-12**] 03:50 PM
   Famotidine (Pepcid) - [**2106-5-13**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-13**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.9
C (100.2
   HR: 73 (71 - 109) bpm
   BP: 106/49(63) {106/49(63) - 141/77(91)} mmHg
   RR: 51 (14 - 51) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.3 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,877 mL
                                                                    613 mL
   PO:
             TF:
   IVF:
                                                                  2,277 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  3,311 mL
                                                                  1,600 mL
   Urine:
                                                                  3,291 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    566 mL
                                                                   -987 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 91%
   ABG: ///23/
   Ve: 15 L/min
   Physical Examination
   Gen: sedated, overweight male.  Opens eyes to voice and will turn
   head.  Profuse sweating, diaphoretic
   HEENT: endotracheal tube in place.  NGT in place.  Pupils equal. Area
   of scabbing, unchanged on right cheek
   COR: nl s1s2 rrr
   PUL: cta anteriorly, equal breath sounds bilaterally; chest tube in
   place right chest w/ bandaging overlying.
   ABD: moderately distended, no masses palpated; quiet bowel sounds.
   EXTREM: dry digital gangrene at fingers and toes, sparing right thumb
   and 5^th toes bilaterally.  Fingers are starting to lose bulk and
   decompose. 2+ pitting edema upper > lower extremities
   NEURO: Sedated.
   Labs / Radiology
   319 K/uL
   7.5 g/dL
   95 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   78 mg/dL
   117 mEq/L
   147 mEq/L
   23.3 %
   4.2 K/uL
        [image002.jpg]
                             [**2106-5-10**]  05:19 AM
                             [**2106-5-10**]  05:33 AM
                             [**2106-5-10**]  03:00 PM
                             [**2106-5-10**]  04:04 PM
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
   WBC
   4.4
   4.6
   4.5
   4.2
   Hct
   20.6
   22.2
   23.4
   22.9
   21.9
   22.0
   23.3
   Plt
   [**Telephone/Fax (3) 541**]19
   Cr
   2.3
   2.2
   2.1
   1.7
   TCO2
   23
   24
   24
   Glucose
   123
   117
   106
   95
   Other labs: PT / PTT / INR:14.5/29.1/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:105/107, Alk Phos / T Bili:96/0.5,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:475 IU/L, Ca++:7.5
   mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now [**Telephone/Fax (3) 509**] [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis, also interval development of R pneumothorax  s/p
   chest tube placements now with bacteremia
   # Bacteremia: 2/2 blood cultures from [**5-11**] a-line growing GPCs in
   clusters.   Most likely skin pathogen from several invasive lines.
   -CVL re-sited; aline removed.  catheter tip sent for culture; currently
   pending
   -surveillance cultures, if positive consider TEE for ? endocarditis.
   -currently on vancomycin; will await speciation/sensitivities to adjust
   antibiotic regimen accordingly
   # Hypoxemic Resp Failure
   [**Month/Year (2) 509**] following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted, possibly caused by high pressures, barotrauma in setting of
   [**Month/Year (2) 509**].  Now s/p chest tubes x2 with resolution of pnx and removal of 1
   chest tube.  No air leak currently .
   - f/u thoracics recs
   - Pt tolerated decrease in PEEP to 8 and Fi02 to 40%.  At this point
   will focus more on decreasing sedation, awakening patient and
   contemplating mode switch to possibly PSV.
   - Goal PaO2 >65; currently patient exceeding goal.
   - Cont nebs
   - cont to decrease midazolam as tolerated and continue AM wake-ups.
   - Pt started on methadone, tolerated decreasing fentanyl in 20%
   increments over day.  Continue to wean fentanyl and midazolam
   - Plan for trach placement in am, TF off after MN.
   # Anemia
   Slow ongoing blood loss? HCT down 7 pts in 1 week.  Blood draws, vs
   nutritional (albumin dropping), gi losses vs chest tube placement, vs
   lysis (though lysis unlikely given labs).  Has macrocytic anemia, more
   pronounced than on admission . B12, folate are normal.  Ddx includes
   HIV meds, although has not been taking for >3 weeks.
   - cont guaiac stools
   - check reticulocyte count, RDW elevated, may be producing immature
   cells in setting of acute illness
   - Continue to monitor, transfuse >21, patient receiving one unit this
   morning.
   - Check TSH and iron studies.
   - minimize phlebotomizing
   # Acute Kidney Injury
   Previously w/ urine sediment with granular casts c/w ATN then
   radiocontrast dye load. Now cont to decrease and improve overall.  Cr
   down from 2.2 to 2.1 today with interval improvement in uremia.
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- Worsened from 147 to 153 overnight despite free water
   boluses, which [**Male First Name (un) **]
t seem to affect hypernatremia significantly.  Will
   give 2L free H20 and reassess.
   -check pm Na
   -Hold off on diuresis for now.  Can use if pt becomes hypoxic.
   # HIV- hold HAART for now; low VL and high CD4.  new CD4 is 260.  Email
   pt
s HIV PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 415**] to discuss when to restart HAART in critically
   ill patient.
   # DVT: Has IVC filter in place. Transiently on heparin gtt for
   treatment however stopped due to decreased hct and blood tinged sputum.
   Consider restarting after trach placed.
   # Dispo: Trach/Peg tomorrow.  Continue to wean vent and attempt to
   awaken patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-14 08:02:00 Physician Resident Progress Note
Chief Complaint: 50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**]
   Legionella c/b DIC, [**Last Name (un) **], and pancreatitis, also interval development of
   R pneumothorax  s/p chest tube placements now with bacteremia
   24 Hour Events:
 FEVER - 101.8
F - [**2106-5-13**] 01:00 PM
   - Plan for trach/PEG by thoracics today
   - Started on PO iron
   - Pleural fluid sent for culture/gram stain
   - Decreased fentanyl to off, versed down from 5 to 3, switched from AC
   to PSV for 1.5H (12/8/40%) which he tolerated, then was agitated (inc
   RR, BP, HR), changed back to AC, given one time bolus of fentanyl,
   still slightly agitated (inc HR, decr O2 sat to around 90) -> methadone
   increased to q6H, giving fentanyl/versed boluses prn agitation
   - 7 pm Na 144 after 2L D5W
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-13**] 07:42 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2106-5-14**] 12:00 AM
   Famotidine (Pepcid) - [**2106-5-14**] 12:30 AM
   Midazolam (Versed) - [**2106-5-14**] 12:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-14**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.9
C (100.3
   HR: 79 (72 - 127) bpm
   BP: 133/68(82) {108/55(68) - 167/96(111)} mmHg
   RR: 24 (21 - 46) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,889 mL
                                                                  1,641 mL
   PO:
             TF:
                                                                    919 mL
                                                                    304 mL
   IVF:
                                                                  2,380 mL
                                                                    957 mL
   Blood products:
   Total out:
                                                                  4,700 mL
                                                                  1,790 mL
   Urine:
                                                                  4,690 mL
                                                                  1,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -811 mL
                                                                   -149 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 800 (800 - 800) mL
   PS : 12 cmH2O
   RR (Set): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 93%
   ABG: ///24/
   NIF: -50 cmH2O
   Ve: 15.2 L/min
   Physical Examination
   Gen: sedated, overweight male.  Opens eyes to voice and will turn
   head.
   HEENT: endotracheal tube in place.  NGT in place.  Pupils equal. Area
   of scabbing, unchanged on right cheek
   CV: nl s1s2 rrr
   PUL: cta anteriorly, equal breath sounds bilaterally; chest tube in
   place right chest w/ bandaging overlying.
   ABD: moderately distended, no masses palpated; normal bowel sounds.
   EXTREM: dry digital gangrene at fingers and toes, sparing right thumb
   and 5^th toes bilaterally.  Fingers are starting to lose bulk and
   decompose. 2+ pitting edema upper > lower extremities
   NEURO: Sedated.
   Labs / Radiology
   287 K/uL
   7.6 g/dL
   109 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   62 mg/dL
   118 mEq/L
   148 mEq/L
   22.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2106-5-10**]  05:33 AM
                             [**2106-5-10**]  03:00 PM
                             [**2106-5-10**]  04:04 PM
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
   WBC
   4.6
   4.5
   4.2
   4.0
   Hct
   22.2
   23.4
   22.9
   21.9
   22.0
   23.3
   22.7
   Plt
   350
   298
   319
   287
   Cr
   2.2
   2.1
   1.7
   1.7
   TCO2
   23
   24
   24
   Glucose
   117
   106
   95
   109
   Other labs: PT / PTT / INR:14.8/32.9/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:105/107, Alk Phos / T Bili:96/0.5,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:475 IU/L, Ca++:7.6
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis, also interval development of R pneumothorax  s/p
   chest tube placements now with bacteremia
    # Bacteremia: 2/2 blood cultures with s.aureus coag negative. Could be
   contaminant. Repeat cultures pending
   -CVL re-sited; aline removed.  catheter tip sent for culture; currently
   pending
   -surveillance cultures, if positive consider TEE for ? endocarditis.
   Culture if spikes or just routine surveillance culture if no spike
   -currently on vancomycin; will await speciation/sensitivities to adjust
   antibiotic regimen accordingly
   # Hypoxemic Resp Failure
   ARDS following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted, possibly caused by high pressures, barotrauma in setting of
   ARDS.  Now s/p chest tubes x2 with resolution of pnx and removal of 1
   chest tube.  No air leak currently .
   - Pt tolerated decrease in PEEP to 8 and Fi02 to 40%.  At this point
   will focus more on decreasing sedation, awakening patient and
   contemplating mode switch to possibly PSV.
   - Goal PaO2 >65; currently patient exceeding goal.
   - Cont nebs
   - cont to decrease midazolam as tolerated and continue AM wake-ups.  On
   methadone for weaning of other sedation
   - Plan for trach placement in am, TF off after MN.
   - put chest tube to water seal today to see how patient tolerates
   # Anemia- likely now in the setting of severe illness given low iron,
   TIBC, and low retic index (0.9)
   - cont guaiac stools
   - iron liquid supplement
   - Continue to monitor, transfuse >21
   - minimize phlebotomizing
   # Acute Kidney Injury- resolving now.  ATN
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- improving
   - 2L free water IV today with free water boluses
   -check pm Na
   -Hold off on diuresis for now.  Can use if pt becomes hypoxic.
   # HIV- hold HAART for now; low VL and high CD4.  new CD4 is 260.  Email
   pt
s HIV PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 415**] to discuss when to restart HAART in critically
   ill patient.
   # DVT: Has IVC filter in place. Transiently on heparin gtt for
   treatment however stopped due to decreased hct and blood tinged sputum.
   Consider restarting after trach placed.
   # Dispo: Trach/Peg tomorrow.  Continue to wean vent and attempt to
   awaken patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-15 08:26:00 Physician Resident Progress Note
Chief Complaint: 50 yo with HIV a/w ARDS [**2-20**] legionella, c/b DIC, [**Last Name (un) **],
   pancreatitis, Anemia, PTX s/p chest tube placement now s/p trach/peg
   24 Hour Events:
 OR SENT - At [**2106-5-14**] 03:45 PM
 OR RECEIVED - At [**2106-5-14**] 05:45 PM
 FEVER - 101.1
F - [**2106-5-14**] 02:00 PM
   - trach and peg today
   - can restart HAART therapy per  Dr. [**Last Name (STitle) 415**]; but will need to wait at
   least 12 hrs post PEG
   - attempting to cont wean off sedation for PS trial
   - Na rechecked at midnight- 149.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 08:07 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-14**] 11:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-15**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.7
C (99.8
   HR: 80 (67 - 113) bpm
   BP: 143/90(101) {111/60(72) - 165/110(118)} mmHg
   RR: 14 (7 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,720 mL
                                                                  1,171 mL
   PO:
             TF:
                                                                    304 mL
   IVF:
                                                                  2,997 mL
                                                                  1,171 mL
   Blood products:
   Total out:
                                                                  3,953 mL
                                                                  1,755 mL
   Urine:
                                                                  3,885 mL
                                                                  1,590 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -584 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.39/46/81.[**Numeric Identifier 508**]/25/1
   Ve: 15.7 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   7.9 g/dL
   95 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.9 mEq/L
   46 mg/dL
   115 mEq/L
   147 mEq/L
   24.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2106-5-10**]  04:04 PM
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
   WBC
   4.6
   4.5
   4.2
   4.0
   5.8
   Hct
   22.2
   23.4
   22.9
   21.9
   22.0
   23.3
   22.7
   24.2
   Plt
   350
   298
   319
   287
   306
   Cr
   2.2
   2.1
   1.7
   1.7
   1.3
   TCO2
   24
   29
   Glucose
   117
   106
   95
   109
   95
   Other labs: PT / PTT / INR:14.8/32.9/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:105/107, Alk Phos / T Bili:96/0.5,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:475 IU/L, Ca++:7.9
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis, also interval development of R pneumothorax  s/p
   chest tube placements
    # Bacteremia: 2/2 blood cultures with s.aureus coag negative. Likely
   contaminant-  s.aureus coag negative and subsequent cultures are
   negative
   -CVL re-sited; aline removed.  catheter tip sent for culture; currently
   pending
   -surveillance cultures negative; cont cultures if spikes
   -stop vancomycin
   # Hypoxemic Resp Failure
   ARDS following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted, possibly caused by high pressures, barotrauma in setting of
   ARDS.  Now s/p chest tubes x2 with resolution of pnx and removal of 1
   chest tube.  No air leak currently .
   - trach/peg today.  Will hold off on any other adjustments for now
   - cont to decrease midazolam as tolerated and continue AM wake-ups.  On
   methadone for weaning of other sedation. Plan for lorazepam standing
   and then prn once midazolam is stopped
   - chest tube to water seal
   # Anemia- likely now in the setting of severe illness given low iron,
   TIBC, and low retic index (0.9)
   - cont guaiac stools
   - iron liquid supplement
   - Continue to monitor, transfuse >21
   # Acute Kidney Injury- ATN. stable
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- improving
   - 3L free water IV today with free water boluses
   -check pm Na
   # HIV- hold HAART for now; low VL and high CD4.  new CD4 is 260.  per
   Dr. [**Last Name (STitle) 551**] ok to restart HAART therapy. Will need to discuss with
   pharmacy if those medications can be given via PEG
   # DVT: Has IVC filter in place. Transiently on heparin gtt for
   treatment however stopped due to decreased hct and blood tinged sputum.
   Consider restarting after trach placed.
   # Dispo: Trach/Peg tomorrow.  Continue to wean vent and attempt to
   awaken patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-15 10:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PEG and Trach Placed without Event
   PSV wean this morning
   Hypernatremia persists
   Recurrent Fever to 101F
   24 Hour Events:
 OR SENT - At [**2106-5-14**] 03:45 PM
 OR RECEIVED - At [**2106-5-14**] 05:45 PM
 FEVER - 101.1
F - [**2106-5-14**] 02:00 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 08:07 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-5-14**] 11:48 PM
   Heparin Sodium (Prophylaxis) - [**2106-5-15**] 09:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Change to PEG
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2106-5-15**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.3
C (101
   HR: 84 (67 - 113) bpm
   BP: 172/98(110) {111/60(72) - 172/110(118)} mmHg
   RR: 34 (12 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,720 mL
                                                                  1,777 mL
   PO:
             TF:
                                                                    304 mL
   IVF:
                                                                  2,997 mL
                                                                  1,777 mL
   Blood products:
   Total out:
                                                                  3,953 mL
                                                                  2,475 mL
   Urine:
                                                                  3,885 mL
                                                                  2,310 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -698 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.39/46/81.[**Numeric Identifier 508**]/25/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Thin
   Lymphatic: Trach in Place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, PEG site clean
   Musculoskeletal: Unable to stand
   Skin:  patient with significant ischemia stable by report
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   306 K/uL
   95 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.9 mEq/L
   46 mg/dL
   115 mEq/L
   147 mEq/L
   24.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2106-5-10**]  04:04 PM
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
   WBC
   4.6
   4.5
   4.2
   4.0
   5.8
   Hct
   22.2
   23.4
   22.9
   21.9
   22.0
   23.3
   22.7
   24.2
   Plt
   350
   298
   319
   287
   306
   Cr
   2.2
   2.1
   1.7
   1.7
   1.3
   TCO2
   24
   29
   Glucose
   117
   106
   95
   109
   95
   Other labs: PT / PTT / INR:14.8/32.9/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:105/107, Alk Phos / T Bili:96/0.5,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:475 IU/L, Ca++:7.9
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging:  Increaed RUL infiltrate
   Trach in place
   CVL Proximal in SVC
   Microbiology: No new results to date
   Assessment and Plan
   50 yo male admit with ARDS and Legionella source now s/p trach and
   PEG.  He has had initial tolerance of PSV support this morning which is
   encouraging.  No evidence of new positive culture results.  By
   problems
   Respiratory [**Name (NI) 554**]
   -Mental status does limit progress in terms of liberation from
   ventilator but does have tracheostomy in place
   -PSV wean today
   Sepsis-
   -Resolved
   -no new signficant culture results
   -Continue Antibiotics
   Pneumothorax-
   -Chest tube to water seal
   -Follow up CXR in am
   Altered Mental Status-
   -Wean of sedation to continue at 25% per day
   -Will hope to move to stability but will need evaluation of CNS lesion
   with head CT to determine evidence of bleeding.
   Extremity Ischemia-
   -Cotinue with MSO4 for pain control
   -Follow Exam
   Acute Renal Failure-
   -improving GFR
   -Stabilize free water deficit
   -Will move to
 intake via G-tube with free water supplementation
   Deep Venous Thrombosis-
   -IVC Filter placed--removable
   -Heparin to restart and move to chronic anticoagulation with bleeing
   minimized from procedures
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   ICU Care
   Nutrition: To move to tube feeds now that G-tube is in place
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2106-05-16 07:52:00 Physician Resident Progress Note
Chief Complaint: 50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**]
   Legionella c/b DIC, [**Last Name (un) **], and pancreatitis, also interval development of
   R pneumothorax  s/p chest tube placements now s/p trach/peg
   24 Hour Events:
 BLOOD CULTURED - At [**2106-5-15**] 12:57 PM
 URINE CULTURE - At [**2106-5-15**] 12:57 PM
 OPEN TRACHEOSTOMY - At [**2106-5-15**] 12:58 PM
   -spiked at noon to 101, got cultures
   -tolerated PSV all day
   -off sedation this am for concern of some apnea overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 08:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-15**] 05:21 PM
   Lansoprazole (Prevacid) - [**2106-5-16**] 12:00 AM
   Heparin Sodium - [**2106-5-16**] 04:00 AM
   Other medications:
   Methadone 20mg IV Q6
   ISS
   Atrovent
   Albuterol
   Chlorhexidine
   Ferrous sulfate
   Reyetaz
   Ritonovir
   Combivir
   Tylenol
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: obtunded.  Not verbal. Trached.
   Flowsheet Data as of  [**2106-5-16**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.9
   HR: 66 (64 - 116) bpm
   BP: 110/53(66) {99/53(64) - 172/98(110)} mmHg
   RR: 18 (8 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,585 mL
                                                                  1,678 mL
   PO:
             TF:
                                                                    604 mL
                                                                    196 mL
   IVF:
                                                                  3,790 mL
                                                                  1,262 mL
   Blood products:
   Total out:
                                                                  4,733 mL
                                                                  1,020 mL
   Urine:
                                                                  4,510 mL
                                                                  1,020 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -148 mL
                                                                    658 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 13
   SpO2: 96%
   ABG: ///25/
   Ve: 7.5 L/min
   Physical Examination
   Gen: sedated, overweight male. Opens eyes to voice, will intermittently
   track to voice. Does not follow commands.
   HEENT: trach in place   Pupils equal. Area of scabbing on left cheek,
   improving
   CV: nl s1s2 rrr
   PUL: cta anteriorly, equal breath sounds bilaterally; chest tube in
   place right chest w/ bandaging overlying.
   ABD: moderately distended, no masses palpated; normal bowel sounds.
   PEG tube in place. No sign of infection
   EXTREM: dry digital gangrene at fingers and toes, sparing right thumb
   and 5^th toes bilaterally.  Fingers are starting to lose bulk and
   decompose. 2+ pitting edema upper > lower extremities
   NEURO: awake, but not following commands
   Labs / Radiology
   254 K/uL
   7.2 g/dL
   101 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.1 mEq/L
   33 mg/dL
   114 mEq/L
   147 mEq/L
   21.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
   WBC
   4.6
   4.5
   4.2
   4.0
   5.8
   5.5
   Hct
   23.4
   22.9
   21.9
   22.0
   23.3
   22.7
   24.2
   21.9
   Plt
   350
   298
   319
   287
   306
   254
   Cr
   2.2
   2.1
   1.7
   1.7
   1.3
   1.3
   TCO2
   24
   29
   Glucose
   117
   106
   95
   109
   95
   101
   Other labs: PT / PTT / INR:14.8/32.9/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:105/107, Alk Phos / T Bili:96/0.5,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:475 IU/L, Ca++:7.5
   mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Micro:
   [**5-13**] Pleural fluid culture, pending
   [**5-13**] stool cultures  negative
   [**5-14**] Sputum culture 1+ GNR
   [**5-15**] Blood culture pending
   [**5-15**] urine culture pending
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   50 yo M  HIV, h/o PCP pneumonia, now ARDS [**2-20**] Legionella c/b DIC, [**Last Name (un) **],
   and pancreatitis, also interval development of R pneumothorax  s/p
   chest tube placements now s/p trach/peg
   # Hypoxemic Resp Failure
   ARDS following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted, possibly caused by high pressures, barotrauma in setting of
   ARDS.  Now s/p chest tubes x2 with resolution of pnx and removal of 1
   chest tube.  No air leak currently .
   - s/p trach/peg.  Has been tolerating PS for ~24 hours.   Now off
   sedation for concern for apnea.
   - trial of decrease PS to [**5-24**] today. Monitor 02 sats
   - chest tube to water seal, CXR tomorrow, f/u thoracics recs
   #Fevers.  Had slight recrudesence of fevers over the past few days in
   setting of sputum culture with 1+ GNRs, increased sputum production.
   Will treat with double coverage for pseudomonas Pna for now
   -Cipro/cefepime for planned 7 day course
   -f/u speciation and sensis and narrow coverage accordingly
   -continue to culture if spikes
   -prn tylenol
   -f/u other cultures
   # Anemia- likely now in the setting of severe illness given low iron,
   TIBC, and low retic index (0.9)
   - cont guaiac stools
   - iron liquid supplement
   - Continue to monitor, transfuse >21
   - check  PM Hct as lower this am 21.9 from 24.
   # Acute Kidney Injury- ATN. improving
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- no change with free water replacement. Ddx is DI
   (possibly central), hypovolemic hypernatremia in setting of
   fevers/trach/insensible losses.
   - calculate free h20 deficit, replace with D5W
   -PM Na
   -continue TF free h20 flushes
   -check urine/serum osms and urine lytes today
   # HIV- restarted HAART yesterday with TFs
   # DVT: Has IVC filter in place.
   - head CT today to eval for head bleed, if negative can readdress
   starting systemic anticoagulation if negative, using caution in setting
   of low HCT.
   #Altered mental status.  Multiple possible etiologies.  Prolonged
   critical illness with use of sedation for ~ 1month, may expect very
   slow recovery of mental status.  Unclear if persistent fevers affected
   CNS.
   -Head CT today
   -off sedation
   #Pain control
 Continue methadone IV Q6 for now.
   ICU Care
   Nutrition: TF, advance to goal of 75cc/hour
   Glycemic Control:  ISS, not requiring
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: Hep SC, pneumoboots
   Stress ulcer: PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU, initiate rehab screening tomorrow, would like to see
   improved MS prior to d/c

2106-05-16 17:05:00 Physician Attending Progress Note
Chief Complaint: Sepsis and Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-5-15**] 12:57 PM
 URINE CULTURE - At [**2106-5-15**] 12:57 PM
 OPEN TRACHEOSTOMY - At [**2106-5-15**] 12:58 PM
   Patient with good tolerance of PSV
   Sedation off with Methadone continuing
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 08:07 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-5-16**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-16**] 04:17 PM
   Heparin Sodium - [**2106-5-16**] 04:49 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2106-5-16**] 05:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.1
C (100.6
   HR: 85 (64 - 107) bpm
   BP: 125/58(75) {99/53(64) - 151/89(103)} mmHg
   RR: 14 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,524 mL
                                                                  3,087 mL
   PO:
             TF:
                                                                    600 mL
                                                                    254 mL
   IVF:
                                                                  3,734 mL
                                                                  2,323 mL
   Blood products:
   Total out:
                                                                  4,733 mL
                                                                  2,910 mL
   Urine:
                                                                  4,510 mL
                                                                  2,910 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -209 mL
                                                                    177 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 13
   SpO2: 98%
   ABG: ///25/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Trach in place
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+, Ischemia unchanged
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   254 K/uL
   101 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.1 mEq/L
   33 mg/dL
   114 mEq/L
   147 mEq/L
   21.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2106-5-10**]  07:49 PM
                             [**2106-5-11**]  03:50 AM
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
   WBC
   4.6
   4.5
   4.2
   4.0
   5.8
   5.5
   Hct
   23.4
   22.9
   21.9
   22.0
   23.3
   22.7
   24.2
   21.9
   Plt
   350
   298
   319
   287
   306
   254
   Cr
   2.2
   2.1
   1.7
   1.7
   1.3
   1.3
   TCO2
   24
   29
   Glucose
   117
   106
   95
   109
   95
   101
   Other labs: PT / PTT / INR:14.8/32.9/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:105/107, Alk Phos / T Bili:96/0.5,
   Amylase / Lipase:141/495, Differential-Neuts:74.0 %, Band:4.0 %,
   Lymph:13.0 %, Mono:3.0 %, Eos:5.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:475 IU/L, Ca++:7.5
   mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Microbiology: [**5-14**]-_Sputum-1+ GNR's
   Assessment and Plan
   50 yo male with admission wish sepsis and respiratory failure with
   course complicated by significant and distant limb ischemia.
   Will, by problems-->
   1)Respiratory Failure-
   -Improved to point of tolerance of PSV
   -Has persistent fevers, sputum cultures suggesting persistent of gram
   negative rods but with clinical improvement
   -Would suggest expanded coverage for GNR's in setting of prolonged
   ventilator course if alternative sources not seen
   -Continue PSV wean
   2)Fever--Unclear origin
   -will pursue evaluation of hepatic source, and repeat sputum cultures
   -Will need to eval head CT, LENI, LFT's
   -If negative and fevers continue will pursue treatment for VAP
   -C-Diff negative
   3)Hypernatremia-
   Free water replacement
   Will evaluate FENa given persistent losses and concern for inadequate
   concentrating capacity
   4)Altered Mental Status-
   -Head CT--patient with new bilateral defects in posterior circulation
   distribution
   -MRI to follow up findings to consider true identification of findings
   -Follow exam
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-16**] 04:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: IVC filter
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2106-05-17 11:16:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2106-5-16**] 05:15 PM
 FEVER - 101.6
F - [**2106-5-16**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2106-5-16**] 04:49 PM
   Heparin Sodium (Prophylaxis) - [**2106-5-17**] 12:00 AM
   Lansoprazole (Prevacid) - [**2106-5-17**] 04:00 AM
   Other medications:
   methadone, SQH, SQI, MDI, iron, PPI, HAART, colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-17**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 80 (61 - 96) bpm
   BP: 142/57(79) {101/49(62) - 150/82(91)} mmHg
   RR: 35 (7 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,431 mL
                                                                  1,206 mL
   PO:
             TF:
                                                                    561 mL
                                                                    778 mL
   IVF:
                                                                  3,330 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                  1,160 mL
   Urine:
                                                                  3,860 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                     46 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (526 - 526) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 15
   SpO2: 97%
   ABG: ///28/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Overweight
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), gangrene
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, PEG
   Extremities: Right: Trace, Left: Trace, scrotal edema
   Musculoskeletal: Unable to stand
   Skin:  Warm, gangrene
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed, symmetric, reactive pupils; normal corneals
   Labs / Radiology
   7.2 g/dL
   259 K/uL
   87 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   30 mg/dL
   112 mEq/L
   144 mEq/L
   22.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
   WBC
   4.5
   4.2
   4.0
   5.8
   5.5
   6.0
   Hct
   21.9
   22.0
   23.3
   22.7
   24.2
   21.9
   22.0
   22.5
   Plt
   298
   319
   287
   [**Telephone/Fax (3) 560**]
   Cr
   2.1
   1.7
   1.7
   1.3
   1.3
   1.3
   TCO2
   24
   29
   Glucose
   106
   95
   109
   95
   101
   87
   Other labs: PT / PTT / INR:14.7/31.0/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:52/31, Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:330 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: CT-head:
   "New bilateral occipital white matter hypodensity that involves the
   cortex on the right. These findings raise the possibility of
   infarction, perhaps due to an embolus to the top of the basilar artery.
   Posterior reversible leukoencephalopaty is an alternative. Recommend
   correlation with patient's symptoms, and if clinically indicated, MRI
   is recommended. No evidence of hemorrhage. "
   CXR: rotated but essentially unchanged
   Microbiology: Blood Cx:
   [**5-17**]: NGSF
   [**5-15**]: [**2-22**] CNS
   [**5-13**]: NGSF
   [**5-12**]: NGSF
   [**5-11**]: [**1-20**] CNS
   [**5-13**] cath tip (-)
   Assessment and Plan
   50 yo male with admission wish sepsis and respiratory failure with
   course complicated by significant and distant limb ischemia.
   Fever
   n        repeat all cultures
   n        check sputum cx and mini-BAL
   n        follow LFTs, etc.
   n        C diff negative
   n        treat for presumptive VAP (vanco, cefepime; tobra since he was
   febrile possibly in response to quinolone; dose carefully due to prior
   renal dysfunction)
   n        if further blood cultures come back (+) would resite line but
   relatively low suspicion at present
   Respiratory Failure
   n        PSV trial
   n
   Mental Status
   n        Consult neurology
   n        MRI
    Hypernatremia
   -          improving
   Other issues per ICU team note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-16**] 09:19 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 40 minutes

2106-05-17 14:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2106-5-16**] 05:15 PM
 FEVER - 101.6
F - [**2106-5-16**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2106-5-16**] 04:49 PM
   Lansoprazole (Prevacid) - [**2106-5-17**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-17**] 02:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 83 (61 - 93) bpm
   BP: 145/60(78) {101/49(62) - 150/82(90)} mmHg
   RR: 11 (7 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,431 mL
                                                                  1,336 mL
   PO:
             TF:
                                                                    561 mL
                                                                    771 mL
   IVF:
                                                                  3,330 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                  1,770 mL
   Urine:
                                                                  3,860 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                   -434 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 750 (526 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 15
   SpO2: 97%
   ABG: ///28/
   Ve: 9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   7.2 g/dL
   87 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   30 mg/dL
   112 mEq/L
   144 mEq/L
   22.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
   WBC
   4.5
   4.2
   4.0
   5.8
   5.5
   6.0
   Hct
   21.9
   22.0
   23.3
   22.7
   24.2
   21.9
   22.0
   22.5
   Plt
   298
   319
   287
   [**Telephone/Fax (3) 560**]
   Cr
   2.1
   1.7
   1.7
   1.3
   1.3
   1.3
   TCO2
   24
   29
   Glucose
   106
   95
   109
   95
   101
   87
   Other labs: PT / PTT / INR:14.7/31.0/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:52/31, Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:330 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-17 14:55:00 Physician Resident Progress Note
Chief Complaint: 50 y/o M w. HIV h/o PCP pneumonia [**Name Initial (PRE) **]/w Legionella
   infection, ARDS c/b DIC,[**Last Name (un) **], and pancreatitis also interval development
   of r-pneumothorax, s/p chest tube placement now s/p trach and peg.
   24 Hour Events:
 Spiking fevers overnight to 101.2
 Tolerating PSV
   -          Sputum growing 1+ GNR,
   -          Tolerating PSV
   -          Mental Status remained altered, CT head with ?infarct, and ?
   Reversible leukoencephalopathy -> consider MRI/MRA.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2106-5-16**] 04:49 PM
   Lansoprazole (Prevacid) - [**2106-5-17**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-17**] 08:00 AM
   Other medications:
   Methadone 20mg IV q6
   ISS
   Atrovent
   Albuterol
   Clorhexedine
   Ferrous Sulfate
   Reyetaz
   Ritonavir
   Combivir
   Tylenol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-17**] 02:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 65 (61 - 93) bpm
   BP: 120/59(74) {101/49(62) - 150/82(90)} mmHg
   RR: 11 (7 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,431 mL
                                                                  1,339 mL
   PO:
             TF:
                                                                    561 mL
                                                                    771 mL
   IVF:
                                                                  3,330 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                  1,770 mL
   Urine:
                                                                  3,860 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                   -431 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 750 (526 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 15
   SpO2: 97%
   ABG: ///28/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Overweight / Obese, sedated, ?opening eyes to voice
   Eyes / Conjunctiva: PERRL, pupils reactive, symmetric, +corneal blink,
   does not blink to confrontation
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, PEG
   tube in place, clean, dry intact
   Extremities: No(t) Cyanosis, No(t) Clubbing, gangrene of digits b/l
   upper and lower
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, Does not
   track to voice or follow commands, +corneal blink
   Labs / Radiology
   259 K/uL
   7.2 g/dL
   87 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   30 mg/dL
   112 mEq/L
   144 mEq/L
   22.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2106-5-11**]  01:04 PM
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
   WBC
   4.5
   4.2
   4.0
   5.8
   5.5
   6.0
   Hct
   21.9
   22.0
   23.3
   22.7
   24.2
   21.9
   22.0
   22.5
   Plt
   298
   319
   287
   [**Telephone/Fax (3) 560**]
   Cr
   2.1
   1.7
   1.7
   1.3
   1.3
   1.3
   TCO2
   24
   29
   Glucose
   106
   95
   109
   95
   101
   87
   Other labs: PT / PTT / INR:14.7/31.0/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:52/31, Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:330 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   50 y/o M w. HIV h/o PCP pneumonia [**Name Initial (PRE) **]/w Legionella infection, ARDS c/b
   DIC,[**Last Name (un) **], and pancreatitis also interval development of r-pneumothorax,
   s/p chest tube placement now s/p trach and peg.
   .
   #Altered Mental Status: Multiple possible etiologies
 patient with
   prolonged hospital course of over 1 month CT with question of stroke
   vs. reversible leukencephalopathy.  Will obtain MRI/MRA of the brain
   today.  Neuro consutl
   -          MRI/MRA
   -          EEG, TSH
 last checked on [**5-13**] and normal
   -          Further work-up as per neuro team.
   .
   # Hypoxemic Resp Failure
   ARDS following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted, possibly caused by high pressures, barotrauma in setting of
   ARDS.  Now s/p chest tubes x2 with resolution of pnx and removal of 1
   chest tube.  No air leak currently .  On water seal.
   - Fevers with GNR in sputum -> will botain mini-BAL today, and start
   empiric treatment for VAP.  If negative growth from mini-BAL can d/c
   antibiotics.  Start cefepime, vanco, tobra for pseudomonas.
   - s/p trach/peg.  Has been tolerating PS for ~48 hours.   Now off
   sedation for concern for apnea.
   - trial of decrease PS to [**5-24**] today. Monitor 02 sats
   - chest tube to water seal, CXR tomorrow, f/u thoracics recs
   #ID/Fevers.  Had slight recrudesence of fevers over the past few days
   in setting of sputum culture with 1+ GNRs, increased sputum
   production.  Will treat as above for VAP with vanco/cefepime/tobra.
   Also with coagulase negative staph in blood on [**5-15**].  this may
   represent contaminant or bacteremia from ?line infection or possibly
   from skin breakdown [**2-20**] to gangrene.  Will reculture today and if
   cultures from line + will d/c line.
   - Obtain Mini-BAL and guide therapy based on culture data.
   - 7 day course for VAP if mini-bal +.
   -f/u speciation and sensis and narrow coverage accordingly
   -continue to culture if spikes
   -prn tylenol
   -f/u other cultures
   # Anemia- likely now in the setting of severe illness given low iron,
   TIBC, and low retic index (0.9)
   - cont guaiac stools
   - iron liquid supplement
   - Continue to monitor, transfuse >21
   - check  PM Hct as lower this am 21.9 from 24.
   # Acute Kidney Injury- ATN. Stable to improved.
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- Improved with free water replacement suggesting
   hypovolemic hypernatremia instead of DI.  Patient with urine osms c/w
   presence of ADH.
   - PM Na
   - continue TF free h20 flushes
   # HIV- restarted HAART yesterday with TFs
   # DVT: Has IVC filter in place.   Will restart heparin gtt today after
   mini-BAL and plan to pull IVC filter once heparin restarted.
   -          head CT today to eval for head bleed
   -          Follow Hct closely.
   #Pain control
 Continue methadone IV Q6 for now, but begin tapering
   given altered mental status and potential contribtuion of medications.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: Heparin SQ -> Heparin gtt to start once lavage completed
   Stress ulcer: PPI
   VAP:  clorhexedine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-18 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2106-5-17**] 12:00 PM
   Mini BAL
 MAGNETIC RESONANCE IMAGING - At [**2106-5-17**] 06:09 PM
 BLOOD CULTURED - At [**2106-5-18**] 06:08 AM
 FEVER - 101.6
F - [**2106-5-17**] 12:00 PM
   - Started VAP coverage with vanco/cefepime/tobramycin, will need
   tobramycin trough/peak tomorrow.
   - MRI showed Posterior Reversible Encephalopathy Syndrome (PRES) and
   ?two small frontal/parietal infarcts that might be embolic in origin,
   and small enhancing mass in occipital lobe -> abscess, vs. lymphoma vs.
   toxo
   - Neuro -> nothing on MRI to explain AMS, will need LP, TFT's, RPR,
   routine EEG, LP to be sent for flow, [**Male First Name (un) 561**] virus, HSV (see note for
   details),
   - Decreasing methadone from q6 -> q8 as per protocol/pharmacy
   - Holding heparin gtt at 4 AM for AM LP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-17**] 06:00 PM
   Tobramycin - [**2106-5-18**] 02:00 AM
   Cefipime - [**2106-5-18**] 02:45 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-17**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.9
C (100.2
   HR: 69 (63 - 106) bpm
   BP: 139/62(81) {120/51(68) - 159/92(105)} mmHg
   RR: 36 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,356 mL
                                                                    979 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    519 mL
   IVF:
                                                                    713 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                  1,830 mL
   Urine:
                                                                  3,110 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -754 mL
                                                                   -851 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (526 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 65
   RSBI Deferred: Agitated
   SpO2: 100%
   ABG: ////
   Ve: 7.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   6.9 g/dL
   87 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   30 mg/dL
   112 mEq/L
   144 mEq/L
   22.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
   WBC
   4.5
   4.2
   4.0
   5.8
   5.5
   6.0
   5.9
   Hct
   21.9
   22.0
   23.3
   22.7
   24.2
   21.9
   22.0
   22.5
   22.0
   Plt
   298
   319
   287
   [**Telephone/Fax (3) 560**]
   232
   Cr
   2.1
   1.7
   1.7
   1.3
   1.3
   1.3
   TCO2
   29
   Glucose
   106
   95
   109
   95
   101
   87
   Other labs: PT / PTT / INR:14.7/31.0/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:52/31, Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:330 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   50 y/o M w. HIV h/o PCP pneumonia [**Name Initial (PRE) **]/w Legionella infection, ARDS c/b
   DIC,[**Last Name (un) **], and pancreatitis also interval development of r-pneumothorax,
   s/p chest tube placement now s/p trach and peg.
   .
   #Altered Mental Status: Multiple possible etiologies
 patient with
   prolonged hospital course of over 1 month CT with question of stroke
   vs. reversible leukencephalopathy.  Will obtain MRI/MRA of the brain
   today.  Neuro consutl
   -          MRI/MRA
   -          EEG, TSH
 last checked on [**5-13**] and normal
   -          Further work-up as per neuro team.
   .
   # Hypoxemic Resp Failure
   ARDS following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted, possibly caused by high pressures, barotrauma in setting of
   ARDS.  Now s/p chest tubes x2 with resolution of pnx and removal of 1
   chest tube.  No air leak currently .  On water seal.
   - Fevers with GNR in sputum -> will botain mini-BAL today, and start
   empiric treatment for VAP.  If negative growth from mini-BAL can d/c
   antibiotics.  Start cefepime, vanco, tobra for pseudomonas.
   - s/p trach/peg.  Has been tolerating PS for ~48 hours.   Now off
   sedation for concern for apnea.
   - trial of decrease PS to [**5-24**] today. Monitor 02 sats
   - chest tube to water seal, CXR tomorrow, f/u thoracics recs
   #ID/Fevers.  Had slight recrudesence of fevers over the past few days
   in setting of sputum culture with 1+ GNRs, increased sputum
   production.  Will treat as above for VAP with vanco/cefepime/tobra.
   Also with coagulase negative staph in blood on [**5-15**].  this may
   represent contaminant or bacteremia from ?line infection or possibly
   from skin breakdown [**2-20**] to gangrene.  Will reculture today and if
   cultures from line + will d/c line.
   - Obtain Mini-BAL and guide therapy based on culture data.
   - 7 day course for VAP if mini-bal +.
   -f/u speciation and sensis and narrow coverage accordingly
   -continue to culture if spikes
   -prn tylenol
   -f/u other cultures
   # Anemia- likely now in the setting of severe illness given low iron,
   TIBC, and low retic index (0.9)
   - cont guaiac stools
   - iron liquid supplement
   - Continue to monitor, transfuse >21
   - check  PM Hct as lower this am 21.9 from 24.
   # Acute Kidney Injury- ATN. Stable to improved.
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- Improved with free water replacement suggesting
   hypovolemic hypernatremia instead of DI.  Patient with urine osms c/w
   presence of ADH.
   - PM Na
   - continue TF free h20 flushes
   # HIV- restarted HAART yesterday with TFs
   # DVT: Has IVC filter in place.   Will restart heparin gtt today after
   mini-BAL and plan to pull IVC filter once heparin restarted.
   -          head CT today to eval for head bleed
   -          Follow Hct closely.
   #Pain control
 Continue methadone IV Q6 for now, but begin tapering
   given altered mental status and potential contribtuion of medications.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: Heparin SQ -> Heparin gtt to start once lavage completed
   Stress ulcer: PPI
   VAP:  clorhexedine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-18 12:21:00 Physician Attending Progress Note
Chief Complaint: resp failure, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2106-5-17**] 12:00 PM
   Mini BAL
 MAGNETIC RESONANCE IMAGING - At [**2106-5-17**] 06:09 PM
 BLOOD CULTURED - At [**2106-5-18**] 06:08 AM
 FEVER - 101.6
F - [**2106-5-17**] 12:00 PM
   Neurology consult
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2106-5-18**] 02:45 AM
   Vancomycin - [**2106-5-18**] 08:00 AM
   Tobramycin - [**2106-5-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-17**] 07:00 PM
   Other medications:
   SQI, MDIs/nebs, iron, PPI, HAART, vanco, cefepime, tobra, methadone,
   heparin (held)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-18**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 73 (62 - 106) bpm
   BP: 135/60(76) {120/52(69) - 159/92(105)} mmHg
   RR: 13 (9 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,356 mL
                                                                  1,635 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    626 mL
   IVF:
                                                                    713 mL
                                                                    778 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                  2,950 mL
   Urine:
                                                                  3,110 mL
                                                                  2,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -754 mL
                                                                 -1,315 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 665 (600 - 730) mL
   PS : 10 cmH2O
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 65
   SpO2: 98%
   ABG: ///31/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   232 K/uL
   122 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.4 mEq/L
   29 mg/dL
   117 mEq/L
   150 mEq/L
   22.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2106-5-11**]  04:46 PM
                             [**2106-5-12**]  04:10 AM
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
   WBC
   4.5
   4.2
   4.0
   5.8
   5.5
   6.0
   5.9
   Hct
   21.9
   22.0
   23.3
   22.7
   24.2
   21.9
   22.0
   22.5
   22.0
   Plt
   298
   319
   287
   [**Telephone/Fax (3) 560**]
   232
   Cr
   2.1
   1.7
   1.7
   1.3
   1.3
   1.3
   1.1
   TCO2
   29
   Glucose
   106
   95
   109
   95
   101
   87
   122
   Other labs: PT / PTT / INR:15.1/76.7/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:38/26, Alk Phos / T Bili:82/0.3,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:330 IU/L, Ca++:7.9
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: MRI interpreted as c/w PRES vs infarcts; full read pending.
   Microbiology: No new micro
   Assessment and Plan
   50-year-old man with HIV admitted with severe Legionella pneumonia
   complicated by DIC and acrocyanosis with digital necrosis.  He has had
   ongoing fevers without other definitively identified sources, and
   remains essentially obtunded.  Evaluation of his altered mental status
   has revealed abnormal brain imaging; the final report of the MRI is
   pending.
   Mental Status
   n        Appreciate neurology
s help
   n        Await formal MRI report
   n        Pursue LP today if his PTT is normal (heparin is held x
   several hours)
   n        Our team discussed with the family yesterday.  We are awaiting
   several tests and
   Fever
   n        repeat all cultures
   n        check sputum cx and mini-BAL
   n        follow LFTs, etc.
   n        C diff negative
   n        treat for presumptive VAP (vanco, cefepime; tobra since he was
   febrile possibly in response to quinolone; dose carefully due to prior
   renal dysfunction)
   n        if further blood cultures come back (+) would resite line but
   relatively low suspicion at present
   Respiratory Failure
   n        Try SBT today
    Hypernatremia
   -          Replete free water.
   Other issues per ICU team note
   ICU Care
   Nutrition: tube feeds (held right now, but generally on)
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: no sedation other than methadone wean
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   CRITICAL CARE STAFF ADDENDUM
   1:30pm
   PTT is still pending.
   We have called the lab; they will not accept flow cytometry after 2pm.
   Since the flow is reported to not be useful if stored overnight, we
   will defer LP until tomorrow.  Will discuss with neurology, but our
   sense is that the diagnoses under consideration are not in need of
   emergent LP.
   25 minutes

2106-05-19 07:21:00 Physician Resident Progress Note
Chief Complaint: legionella pna, dic, arf, digital cyanosis, altered
   mental status
   24 Hour Events:
 BLOOD CULTURED - At [**2106-5-18**] 11:00 AM
 INVASIVE VENTILATION - STOP [**2106-5-18**] 02:47 PM
   -LP will be post-poned to [**5-19**] as PTTs continued to be elevated
   -Methadone is being weaned, currently at q12H dosing
   -Tolerated spontaneous breathing trial
   -Had been hypernatremic to 150, free water flushes increased and repeat
   Na 147
   -Tobramycin trough 2.2 (ideally <2), rechecked level prior to next dose
   and 2.3.  Currently tobra is held, he will have another level with his
   AM labs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2106-5-18**] 05:30 PM
   Vancomycin - [**2106-5-18**] 08:08 PM
   Cefipime - [**2106-5-19**] 01:23 AM
   Acyclovir - [**2106-5-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-19**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 64 (62 - 119) bpm
   BP: 169/79(103) {127/60(76) - 182/99(116)} mmHg
   RR: 20 (13 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,837 mL
                                                                    939 mL
   PO:
             TF:
                                                                  1,805 mL
                                                                    378 mL
   IVF:
                                                                  1,603 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  5,490 mL
                                                                  1,870 mL
   Urine:
                                                                  5,280 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,653 mL
                                                                   -931 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 665 (665 - 730) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///34/
   Ve: 7.3 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), cyanotic digits
   Respiratory / Chest: (Breath Sounds: Rhonchorous, coarse breath sounds
   Skin:  Not assessed
   Neurologic: Patient following commands this AM, wiggles toes to
   command, nods head to command
   Labs / Radiology
   239 K/uL
   7.7 g/dL
   121 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.4 mEq/L
   26 mg/dL
   108 mEq/L
   147 mEq/L
   23.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
   WBC
   4.2
   4.0
   5.8
   5.5
   6.0
   5.9
   7.4
   Hct
   23.3
   22.7
   24.2
   21.9
   22.0
   22.5
   22.0
   23.6
   Plt
   [**Telephone/Fax (3) 563**]
   239
   Cr
   1.7
   1.7
   1.3
   1.3
   1.3
   1.1
   1.1
   1.0
   TCO2
   29
   Glucose
   95
   109
   95
   101
   87
   122
   123
   121
   Other labs: PT / PTT / INR:15.1/61.4/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:41/35, Alk Phos / T Bili:85/0.5,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:386 IU/L, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   50-year-old man with HIV admitted with severe Legionella pneumonia
   complicated by DIC and acrocyanosis with digital necrosis.  He has had
   ongoing fevers without other definitively identified sources, and
   remains essentially obtunded.  Evaluation of his altered mental status
   has revealed abnormal brain imaging; the final report of the MRI is
   pending.
   #Altered Mental Status: Multifactorial [**2-20**] infection, methadone,
   vascular causes, possible hypoxic brain injury
 patient with prolonged
   hospital course of over 1 month CT with question of stroke vs.
   reversible leukencephalopathy.  PRES per prelim MRI although not
   thought to contribute to AMS per neurology, also small infarcts
   possible embolic
   -          LP today , hold heparin gtt at 4am, recheck PTT 7am, plan to
   do LP at noon, patient should be ready to be turned at 1145am
   -          Continue to wean off methadone
   -          Patient much more responsive this morning, following
   commands
   # Hypoxemic Resp Failure
   ARDS following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella. S/p proning and xigris.  Improving slowly.   pneumothorax
   noted s/p TC
   - Fevers with GNR in sputum on cx [**5-15**]
   - empiric treatment for VAP.  If negative growth from mini-BAL can d/c
   antibiotics after 72 hrs.  Would favor d/c cefepime, vanco, tobra given
   negative sputum cx on [**5-16**] and ngtd on [**5-17**] with negative gram stain
   - s/p trach/peg
   - SBT trial successful and placed on trach mask with good oxygenation
   #ID/Fevers.  Had slight recrudesence of fevers over the past few days
   in setting of sputum culture with 1+ GNRs, increased sputum
   production.  Will treat as above for VAP with vanco/cefepime/tobra.
   Also with coagulase negative staph in blood on [**5-15**].  this may
   represent contaminant or bacteremia from ?line infection or possibly
   from skin breakdown [**2-20**] to gangrene.
   - if cultures from line + will d/c line, no further blood cx positive
   - d/c abx today
   - 7 day course for VAP if mini-bal +.
   -continue to culture if spikes
   -prn tylenol
   -f/u other cultures
   # Anemia- likely now in the setting of severe illness given low iron,
   TIBC, and low retic index (0.9)
   - cont guaiac stools
   - iron liquid supplement
   - Continue to monitor, transfuse >21, stable today
   # Acute Kidney Injury- ATN. Stable to improved.
   - Cont to monitor.
   - Will renally dose medications.
   # Hypernatremia- Improved with free water replacement suggesting
   hypovolemic hypernatremia instead of DI.  Patient with urine osms c/w
   presence of ADH.
   - increased free water boluses, sodium 147
   # HIV- restarted HAART
   # DVT: Has IVC filter in place.   Will restart heparin gtt today after
   mini-BAL and plan to pull IVC filter in near future
   -          Follow Hct closely.
   #Pain control
 taper methadone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:  abx as above
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-19 09:08:00 Physician Attending Progress Note
Chief Complaint: resp failure, DIC, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-5-18**] 11:00 AM
 INVASIVE VENTILATION - STOP [**2106-5-18**] 02:47 PM
   MRI - question of PRES
   Recc LP, EEG
   This AM had onset of a 1.5 min tonic clonic seizure  - resolved without
   Rx
   ABG 7.38/59/80, FS > 100
   Neurology came to bedside
 loaded with Dilantin
 plan for LP this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2106-5-18**] 05:30 PM
   Vancomycin - [**2106-5-18**] 08:08 PM
   Cefipime - [**2106-5-19**] 01:23 AM
   Acyclovir - [**2106-5-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea, Tachypnea
   Neurologic: Seizure
   Flowsheet Data as of  [**2106-5-19**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 88 (62 - 119) bpm
   BP: 164/78(100) {135/60(76) - 182/105(119)} mmHg
   RR: 38 (13 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,837 mL
                                                                    954 mL
   PO:
             TF:
                                                                  1,805 mL
                                                                    378 mL
   IVF:
                                                                  1,603 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  5,490 mL
                                                                  1,870 mL
   Urine:
                                                                  5,280 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,653 mL
                                                                   -916 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 665 (665 - 665) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: ///34/
   Ve: 7.3 L/min
   Physical Examination
    Gen: lying in bed, not following commands
   CV: RR
   Chest: coarse bilat
   Abd: soft G tube in site
   Ext: trace edema
   Neuro: eyes open, not following commands,
   Labs / Radiology
   7.7 g/dL
   239 K/uL
   121 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.4 mEq/L
   26 mg/dL
   108 mEq/L
   147 mEq/L
   23.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2106-5-13**]  04:10 AM
                             [**2106-5-14**]  04:43 AM
                             [**2106-5-15**]  05:45 AM
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
   WBC
   4.2
   4.0
   5.8
   5.5
   6.0
   5.9
   7.4
   Hct
   23.3
   22.7
   24.2
   21.9
   22.0
   22.5
   22.0
   23.6
   Plt
   [**Telephone/Fax (2) 563**]
   239
   Cr
   1.7
   1.7
   1.3
   1.3
   1.3
   1.1
   1.1
   1.0
   TCO2
   29
   Glucose
   95
   109
   95
   101
   87
   122
   123
   121
   Other labs: PT / PTT / INR:15.1/61.4/1.3, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:41/35, Alk Phos / T Bili:85/0.5,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:386 IU/L, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan 50 yr old with HIV, Legionella ARDS DIC resolving
   ARF and now persistently poor mental status
    with new onset seizures this AM and dramtic decine in Neuro status
   1.       Seizures: DDx infectious etiology versus medication related
   new meds like Acyclovir, methadone wean, plan Dilantin load, LP this AM
   off heparin to investigate for infx.
   2.       Fevers: overall temp curve down after starting triple ABX for
   ? VAP, DDX VAP (though cx neg to date), CNS infection, + gangrenous
   hands. Need to adjust Tobra dosing, for level 2.3, repeat sputum Cx,
   call back Vascular re hands
   3.       Resp Failure: converted to trach mask, oxygenating and
   saturating well
   4.       FEN: free water repletion
   5.       DVT: IVC filter, hep drip to restart after LP complete
   6.       Pain: continue current methadone
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: chlor hex
   Comments:
   Communication:  Comments: family
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2106-05-20 07:12:00 Physician Resident Progress Note
Chief Complaint: legionella pna, ards, dic, acrocyanosis, hiv, ?
   meningitis
   24 Hour Events:
 EKG - At [**2106-5-19**] 09:00 AM
 LUMBAR PUNCTURE - At [**2106-5-19**] 10:07 AM
 FEVER - 101.6
F - [**2106-5-19**] 08:00 PM
   - LP showed WBC 5 disproportionate to red cells, with concern for
   bacterial meningitis, patient placed on droplet precautions and added
   ampicillin
   -wrote for 1/2NS for hypernatremia
   -pan culture (blood, urine, sputum) for spike 101, CXR from AM with no
   change in multifocal opacities
   - Tobramycin trough and peak, 2.2 and peak still pending
   - Dilantin level was 10.8
   - vascular surgery never came by yesterday
   - myoclonus and hyperreflexia on exam
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-19**] 08:00 PM
   Ampicillin - [**2106-5-20**] 01:40 AM
   Acyclovir - [**2106-5-20**] 02:00 AM
   Cefipime - [**2106-5-20**] 02:00 AM
   Tobramycin - [**2106-5-20**] 02:18 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2106-5-19**] 10:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-20**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 71 (64 - 107) bpm
   BP: 164/91(103) {139/72(93) - 183/105(121)} mmHg
   RR: 19 (14 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,728 mL
                                                                  1,652 mL
   PO:
             TF:
                                                                    738 mL
                                                                    408 mL
   IVF:
                                                                  3,090 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  7,020 mL
                                                                  2,890 mL
   Urine:
                                                                  7,020 mL
                                                                  2,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,292 mL
                                                                 -1,238 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV+ApnPres
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: 7.38/59/81.[**Numeric Identifier 218**]/21/7
   PaO2 / FiO2: 203
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased, hypereflexia. clonus r>l
   Labs / Radiology
   218 K/uL
   7.6 g/dL
   109 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   8 mg/dL
   103 mEq/L
   146 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   TCO2
   29
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   Other labs: PT / PTT / INR:15.4/56.7/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.3 g/dL, LDH:386 IU/L, Ca++:7.7
   mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   #Altered Mental Status: Multifactorial [**2-20**] infection, methadone,
   vascular causes, possible hypoxic brain injury
 patient with prolonged
   hospital course of over 1 month CT with question of stroke vs.
   reversible leukencephalopathy.  PRES per prelim MRI although not
   thought to contribute to AMS per neurology, also small infarcts
   possible embolic. New myoclonus and hyperreflexia on exam.
   -          discuss with neurology utility of repeat imaging
   -          follow up EEG
   -          consider weaning methadone today
   -          continue with dilantin and check level today
   # Hypoxemic Resp Failure
   ARDS following Legionella pneumonia. Now s/p course of levofloxacin for
   legionella.
   - pneumothorax noted s/p TC, no output from chest tube, call thoracics
   to remove tube
   - empiric treatment for VAP.  If negative growth from mini-BAL can d/c
   antibiotics after 72 hrs.  Would favor d/c cefepime, vanco, tobra given
   negative sputum cx on [**5-16**] and ngtd on [**5-17**] with negative gram stain
   - s/p trach/peg
   - on trach mask with good oxygenation
   #ID/Fevers.  Had slight recrudesence of fevers over the past few days
   in setting of sputum culture with 1+ GNRs, increased sputum
   production.  Will treat as above for VAP with vanco/cefepime/tobra.  LP
   yesterday showing WBC of 5, 2+ polys and no organisms seen. Added
   ampicillin to regimen to cover for bacterial meningitis. Follow up flow
   cytometry and viral cx and PCR for [**Male First Name (un) 561**], EBV, toxo, HIV, HSV
   - all other cx NGTD
   - continue with vanco, tobra, cefepime, acyclovir and amp
   - will adjust abx per peak and trough
   - tobra 2.2 and 5.7 for tobra, vanco level pending
   -continue to culture if spikes
   -tylenol d/c to follow fever curve
   -f/u other cultures
   # Anemia- likely now in the setting of severe illness given low iron,
   TIBC, and low retic index (0.9)
   - cont guaiac stools
   - iron liquid supplement
   - Continue to monitor, transfuse >21, stable today
   # Acute Kidney Injury- ATN resolved, creatinine down to 0.6
   # HTN- let patient autoregulate since may need high perfusion pressure
   to brain
   # Hypernatremia- Improved with free water replacement suggesting
   hypovolemic hypernatremia instead of DI.  Patient with urine osms c/w
   presence of ADH.
   - increased free water boluses and continue with
 normal saline today,
   sodium 146
   # HIV- restarted HAART
   # DVT: Has IVC filter in place.   On heparin gtt and plan to pull IVC
   filter in near future since tolerating heparin
   #Pain control
 taper methadone carefully
   ICU Care
   Nutrition: tolerating tube feeds
   Glycemic Control:
   Lines: LIJ [**5-4**]
   Prophylaxis:
   DVT: IVC filter(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-20 08:58:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2106-5-19**] 09:00 AM
 LUMBAR PUNCTURE - At [**2106-5-19**] 10:07 AM with leukocytosis slightly
   elevated protein
 FEVER - 101.6
F - [**2106-5-19**] 08:00 PM
   Recurrent gerealoized tonic clonic seizures x 2 this AM
 each lasting
   60 seconds or so
   Worsening clonus and hyperreflexia
   Remains on trach mask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2106-5-20**] 02:00 AM
   Cefipime - [**2106-5-20**] 02:00 AM
   Tobramycin - [**2106-5-20**] 02:18 AM
   Ampicillin - [**2106-5-20**] 06:00 AM
   Vancomycin - [**2106-5-20**] 08:24 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2106-5-19**] 10:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever Seizure
   Flowsheet Data as of  [**2106-5-20**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.8
C (98.2
   HR: 46 (46 - 107) bpm
   BP: 140/71(87) {139/71(87) - 183/104(121)} mmHg
   RR: 49 (14 - 49) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,730 mL
                                                                  2,573 mL
   PO:
             TF:
                                                                    740 mL
                                                                    666 mL
   IVF:
                                                                  3,090 mL
                                                                  1,437 mL
   Blood products:
   Total out:
                                                                  7,020 mL
                                                                  3,120 mL
   Urine:
                                                                  7,020 mL
                                                                  3,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,290 mL
                                                                   -547 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV+ApnPres
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: 7.38/59/81.[**Numeric Identifier 218**]/21/7
   PaO2 / FiO2: 203
   Physical Examination
   Gen: lying in bed, not following commands, minimally responsive
   CV: RR
   Chest: coarse bilat
   Abd: soft G tube in site
   Ext: trace edema
   Neuro: eyes open, not following commands. 4 beats of clonus
   Labs / Radiology
   7.6 g/dL
   218 K/uL
   109 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   8 mg/dL
   103 mEq/L
   146 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-15**]  06:23 AM
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   TCO2
   29
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   Other labs: PT / PTT / INR:15.4/56.7/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.3 g/dL, LDH:386 IU/L, Ca++:7.7
   mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: Peak 5.7 trough 2.2
   Microbiology: LP - 2+ PMN no microorg
   Sputum neg [**5-16**]
   Blood neg to date
   Assessment and Plan
   50 yr old with HIV, Legionella ARDS DIC resolving ARF and now
   persistently poor mental status
    with new onset seizures this AM and dramatic decine in Neuro status
   1.       Seizures: DDx infectious etiology with abnl LP and we are
   covering broadly and awaiting further data. Will discuss with Neuro
   role of reimaging the ring enhancing lesion. Other possibilities would
   be med related  Acyclovir, high dose aminoglycosides, methadone wean.
   Will need to reload with Diulatin and consider adding a 2^nd [**Doctor Last Name **].
   2.       Fevers: overall temp curve down after starting triple ABX for
   ? VAP, DDX VAP (though cx neg to date), CNS infection, + gangrenous
   hands. Need to adjust Tobra dosing, for level 2.3, repeat sputum Cx,
   call back Vascular re hands
   Reinvolve ID in light of brain mass, fevers, seizures, and abl LP
   should we start empric Rx for Toxo
   3.       Hypernatremia: DDx post ATN diuresis versus DI
 check urine
   lytes. Conitnue free H20 repletion for now
   4.        Chest Tube: water seal x 48 hours. Off vent. Repeat CXR
   stable.
   5.       Resp Failure: converted to trach mask, oxygenating and
   saturating well
   6.       HTN: maintain normal BPs goals 140-160/80
 hold off
   retsarting meds for now
   7.       DVT: IVC filter, hep drip OK. Called about d/c IVC filter
   8.       Pain: hold methadone
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-20**] 05:16 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   Communication:  family
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-05-21 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - During day continued with labile BP.
   - Repeat head CT with worsening edema, likely early herniation, started
   on aggressive BP control for PRES syndrome with nitro gtt, goal SBP <
   140.
   - Neurology -> impression is for worsening PRES [**2-20**] labile BP, no role
   for steroids as edema is vasogenic and steroids may worsen BP.
   Aggressive BP control.
   - ID -> ?regarding cryptococcus, toxo, or possibly immune
   reconstitution.  Added cryptococcal ag but cannot be done b/c bloody
   tap, sent fungal culture instead and peripheral blood cryptococcal
   antigen.  Started empiric treatment for toxo with
   pyrimethamine/sulfadizine.  Interacts with dilantin so need AM level.
   - Met with family who were updated on events.  Unprompted raised issue
   of DNR/DNI.
   - CT Surgery: Chest tube clamped in PM.  Repeat CXR in AM.
   - 6pm: After discussion with Neuro/ID, started IV dexamethasone 10mg
   x1, and 4mg IV q6, mannitol 50mg IV x1.
   - 7pm: Made CMO at family's request, started morphine gtt.  comfortable
   overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-20**] 08:24 AM
   Cefipime - [**2106-5-20**] 02:15 PM
   Tobramycin - [**2106-5-20**] 02:16 PM
   Acyclovir - [**2106-5-20**] 06:02 PM
   Ampicillin - [**2106-5-20**] 06:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2106-5-20**] 01:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-21**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 67 (46 - 102) bpm
   BP: 119/59(70) {116/59(70) - 181/102(120)} mmHg
   RR: 14 (14 - 49) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
                  Total In:
                                                                  7,183 mL
                                                                    515 mL
   PO:
                  TF:
                                                                  1,850 mL
                                                                    515 mL
   IVF:
                                                                  4,373 mL
   Blood products:
   Total out:
                                                                  7,110 mL
                                                                    950 mL
   Urine:
                                                                  7,110 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     73 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   218 K/uL
   7.6 g/dL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other labs: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
50 year old gentleman with AIDS, well controlled on HAARTwith CD4 960 ([**2-25**]),
admitted with fever, chills, nausea,
vomiting, diarrhea and myalgia and found to have severe legionella pneumonia, pr
ogressing to severe respiratory
compromise, ARDS, unassesable mental status and now with several days of bradyca
rdia and hypertension s/p re-starting of ARVs 4 days ago, and occuring in the se
tting of possible ring-enhancing lesion, diffuse white matter changes, and CT im
aging consistent with elevated ICP and possible herniation, patient was made CMO
 yesterday by family.
# Code
Patient DNR/DNI and CMO. Morphine gtt. Scopolamin prn. No labs, patient off any
assistive devices.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-21**] 12:44 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), CMO
   Disposition:

2106-05-21 11:04:00 Physician Attending Progress Note
Chief Complaint: ARDS
   HPI:
   24 Hour Events:
   Extensive family meeting after pt found to have profound cerebral edema
   and early herniation on CT.  Plan made for CMO and initaied on morphone
   drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-20**] 08:24 AM
   Cefipime - [**2106-5-20**] 02:15 PM
   Tobramycin - [**2106-5-20**] 02:16 PM
   Acyclovir - [**2106-5-20**] 06:02 PM
   Ampicillin - [**2106-5-20**] 06:02 PM
   Infusions:
   Morphine Sulfate - 7 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2106-5-20**] 01:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-21**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 69 (61 - 102) bpm
   BP: 154/80(101) {116/59(70) - 181/102(120)} mmHg
   RR: 14 (14 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                  7,183 mL
                                                                    868 mL
   PO:
             TF:
                                                                  1,850 mL
                                                                    820 mL
   IVF:
                                                                  4,373 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  7,110 mL
                                                                    950 mL
   Urine:
                                                                  7,110 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     73 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   Lying in bed, occ grimacing, occ labored breathing
   Labs / Radiology
   7.6 g/dL
   218 K/uL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other labs: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Unfortunate case of 50 yr old man with ARDS form Legionella PNA
   complicated by DIC digital necrosis and PRES with cerebral edema and
   herniation
   Goals of care are comfort. Continue Morphine and support of pt and
   family
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-5-21**] 07:19 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU but may need floor bed if onoging
   Total time spent: 30

2106-05-22 08:17:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   CMO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-20**] 08:24 AM
   Cefipime - [**2106-5-20**] 02:15 PM
   Tobramycin - [**2106-5-20**] 02:16 PM
   Acyclovir - [**2106-5-20**] 06:02 PM
   Ampicillin - [**2106-5-20**] 06:02 PM
   Infusions:
   Morphine Sulfate - 12 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2106-5-22**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-22**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 53 (51 - 69) bpm
   BP: 130/66(81) {120/66(80) - 154/80(101)} mmHg
   RR: 18 (8 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                    794 mL
                                                                     94 mL
   PO:
             TF:
                                                                    606 mL
   IVF:
                                                                    187 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                      0 mL
   Urine:
                                                                  2,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,176 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   7.6 g/dL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other labs: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   55 y/o M HIV, legionella PNA, DIC with acrocyanosis and digital
   ischemia, PRES on MRI and ? ring enhancing lesion. Patient made CMO by
   family.
   CMO comfortable on morphine gtt, removed chest tube today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2106-05-22 11:12:00 Physician Attending Progress Note
Chief Complaint: PNA/respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo man admitted with severe Legionella PNA, HIV+, c/b ARDS, DIC,
   digital ischemia, two days ago became HOTNsive,bradycardia, CT with
   herniation, LP with ?meningitis.  Made CMO.  Currently on morphine
   drip.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-20**] 08:24 AM
   Cefipime - [**2106-5-20**] 02:15 PM
   Tobramycin - [**2106-5-20**] 02:16 PM
   Acyclovir - [**2106-5-20**] 06:02 PM
   Ampicillin - [**2106-5-20**] 06:02 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-5-22**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2106-5-22**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 63 (50 - 63) bpm
   BP: 147/73(100) {120/66(80) - 147/76(100)} mmHg
   RR: 19 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                    794 mL
                                                                    110 mL
   PO:
             TF:
                                                                    606 mL
   IVF:
                                                                    187 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    950 mL
   Urine:
                                                                  2,970 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,176 mL
                                                                   -840 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   218 K/uL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other labs: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   Continue Morphine drip as he seem comfortable.
   Will remove chest tube as no longer needs it.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 35 minutes

2106-05-23 07:26:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   CMO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-20**] 08:24 AM
   Cefipime - [**2106-5-20**] 02:15 PM
   Tobramycin - [**2106-5-20**] 02:16 PM
   Acyclovir - [**2106-5-20**] 06:02 PM
   Ampicillin - [**2106-5-20**] 06:02 PM
   Infusions:
   Morphine Sulfate - 13 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2106-5-23**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-23**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 67 (50 - 67) bpm
   BP: 144/75(90) {144/73(90) - 147/75(100)} mmHg
   RR: 27 (11 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                    293 mL
                                                                     84 mL
   PO:
             TF:
   IVF:
                                                                    293 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                      0 mL
   Urine:
                                                                  2,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,607 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: No spontaneous movement, Tone: Increased,
   pt. able to nod head yes or no to questions
   Labs / Radiology
   218 K/uL
   7.6 g/dL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other labs: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   55 y/o M HIV, legionella PNA, DIC with acrocyanosis and digital
   ischemia, PRES on MRI and ? ring enhancing lesion. Patient made CMO by
   family.
   CMO comfortable on morphine gtt, removed chest tube yesterday. Family
   will discuss today whether they would like to have a repeat neurologic
   assessment in order to determine whether repeat imaging would assist in
   determining the immediate prognosis. This would help the family decide
   on whether hospice may be a more suitable option for them.
   Family would not like to pursue further neuro evaluation and would like
   to bring patient home with hospice services. Patient
s pain regimen
   will need to be either transitioned to oral regimen or a PICC line will
   need to be placed. Also S&S evaluation will be obtained to fit patient
   with a cap for tracheostomy.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2106-05-23 10:37:00 Physician Attending Progress Note
Chief Complaint: Pneumonia/Respiratory failure/encephalitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo HIV+, with Legionella PNA, c/b encephalitis and herniation.
   24 Hour Events:
   After discussion with family.  Decision made to move towards home
   hospice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2106-5-20**] 02:15 PM
   Tobramycin - [**2106-5-20**] 02:16 PM
   Acyclovir - [**2106-5-20**] 06:02 PM
   Ampicillin - [**2106-5-20**] 06:02 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-5-23**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-23**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 67 (53 - 67) bpm
   BP: 144/75(90) {144/75(90) - 144/75(90)} mmHg
   RR: 27 (11 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                    293 mL
                                                                    116 mL
   PO:
             TF:
   IVF:
                                                                    293 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                      0 mL
   Urine:
                                                                  2,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,607 mL
                                                                    116 mL
   Respiratory support
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   218 K/uL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other labs: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 PNEUMONIA, OTHER
   Will discuss with palliative care and hospice service what the best
   regimen will be for pain control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :
   Total time spent:

2106-05-24 07:40:00 Physician Resident Progress Note
Chief Complaint: Legionella PNA, DIC, PRES
   24 Hour Events:
   -Fentanyl patch started, weaning morphine gtt for transition to home
   hospice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-24**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 73 (64 - 100) bpm
   BP: 151/72(90) {130/72(86) - 154/74(93)} mmHg
   RR: 19 (15 - 52) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                    268 mL
                                                                     25 mL
   PO:
             TF:
   IVF:
                                                                    268 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    680 mL
   Urine:
                                                                  2,580 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,312 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   7.6 g/dL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other labs: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   55 y/o M HIV, legionella PNA, DIC with acrocyanosis and digital
   ischemia, PRES on MRI and ? ring enhancing lesion. Patient made [**Telephone/Fax (3) 580**] by
   family.
    Patient [**Name (NI) 580**], being transitioned to fentanyl patch from morphine gtt
   for transition to home with hospice
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2106-05-24 10:53:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 FEVER - 101.3
F - [**2106-5-23**] 08:00 PM
   Pt with eyes open, not consostently following commands
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-24**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.4
C (101.1
   HR: 108 (68 - 108) bpm
   BP: 151/72(90) {130/72(86) - 154/74(93)} mmHg
   RR: 33 (9 - 52) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 97.8 kg
   Height: 72 Inch
             Total In:
                                                                    268 mL
                                                                     95 mL
   PO:
             TF:
   IVF:
                                                                    268 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                  1,120 mL
   Urine:
                                                                  2,580 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,312 mL
                                                                 -1,025 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ////
   Physical Examination
   Gen: eyes open, does not always blink to command
   CV: RR
   Chest: [**Month (only) **] BS
   Neuro: eyes open, will track sisters and [**Name2 (NI) **] moth words to them
   [**Name (NI) 582**] / Radiology
   7.6 g/dL
   218 K/uL
   140 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   145 mEq/L
   22.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-16**]  03:44 AM
                             [**2106-5-16**]  04:07 PM
                             [**2106-5-17**]  04:19 AM
                             [**2106-5-18**]  05:40 AM
                             [**2106-5-18**]  05:17 PM
                             [**2106-5-19**]  04:43 AM
                             [**2106-5-19**]  08:46 AM
                             [**2106-5-19**]  02:15 PM
                             [**2106-5-20**]  04:20 AM
                             [**2106-5-20**]  09:27 AM
   WBC
   5.5
   6.0
   5.9
   7.4
   8.4
   Hct
   21.9
   22.0
   22.5
   22.0
   23.6
   22.4
   Plt
   [**Telephone/Fax (3) 567**]39
   218
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.6
   0.9
   TCO2
   36
   Glucose
   101
   87
   122
   123
   121
   132
   109
   140
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:15.4/52.8/1.4, CK / CKMB /
   Troponin-T:538/3/0.09, ALT / AST:43/40, Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:58/107, Differential-Neuts:67.0 %, Band:3.0 %,
   Lymph:7.0 %, Mono:9.0 %, Eos:7.0 %, D-dimer:7462 ng/mL, Fibrinogen:312
   mg/dL, Lactic Acid:3.3 mmol/L, Albumin:2.5 g/dL, LDH:403 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
    50 yr old man with HIV, Legionella PNA, DIC compl by hand gangrene,
   cerebral edema with early herniation
   Plan is to go home with hospice with services provided by hospice care
   and his sister who is [**Name8 (MD) **] RN
   [**First Name8 (NamePattern2) 376**] [**Name (NI) 377**] from Palliative care is here today and has assistaed with
   plan coordination
   Met with family and aswered all questions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-5-12**] 06:51 PM
   Communication: sisters
   [**Name (NI) 36**] status: [**Name (NI) 583**] measures only
   Disposition:  hpome with hospice
   Total time spent: